2167-09-20 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cultured for fever to 102.7 at 4:00 am
   -Patient developed hypotension to 83/38 at 6:15 a.m.  BP responded well
   to LR 500 cc.  However, urine output remained low despite bolus and
   additional LR 500 cc bolus.  Antibiotics initiated (levofloxacin,
   aztreonam, vancomycin, metronidazole).
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-20**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 89 (72 - 97) bpm
   BP: 96/41(55) {96/41(55) - 154/71(103)} mmHg
   RR: 12 (12 - 18) insp/min
   SpO2: 95%
             Total In:
                                                                     10 mL
                                                                    232 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    570 mL
   Urine:
                                                                    425 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -416 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: 7.42/47/61/30/4
   Ve: 8 L/min
   PaO2 / FiO2: 102
   Physical Examination
   Gen:  Appears uncomfortable on vent.
   HEENT:  Anicteric.  Pupils 3 mm non-reactive bilaterally.
   Resp:  Symmetric expansion.  Vesicular sounds throughout.  Inspiratory
   and expiratory tracheal sounds (?related to ET tube).
   CV:  Cannot see jugular veins due to neck size.  RRR.  Normal s1 and
   s2.  No M/G/R.
   Abd:  Quiet.  Distended.  Non-tender.
   Ext:  Edema in RUE, especially right hand.  Mildly increased warmth of
   RUE compared with LUE.
   Peripheral vascular:  Radial pulses 2+ bilaterally.
   Neuro:  Pupils as above.  Moving all 4 extremities.
   Labs / Radiology
   333 K/uL
   9.7 g/dL
   103 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   6 mg/dL
   109 mEq/L
   150 mEq/L
   30.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2167-9-19**]  11:54 PM
                             [**2167-9-20**]  01:00 AM
   WBC
   9.7
   Hct
   30.7
   Plt
   333
   Cr
   0.6
   TCO2
   32
   Glucose
   103
   Other labs: PT / PTT / INR:13.8/22.4/1.2, ALT / AST:30/19, Alk Phos / T
   Bili:149/0.7, Differential-Neuts:76.9 %, Lymph:17.3 %, Mono:3.0 %,
   Eos:2.5 %, Albumin:3.0 g/dL, LDH:222 IU/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   A/P: 55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture
   # Respiratory failure: initially likely multifactorial including
   bronchspasm, hypoventilation from narcotics, and potential aspiration.
   prior evaluation negative for PE. still with significant A-a gradient.
   cxr appears under penetrated with small lung fields and potential
   effusion on right. potentially from pneumonia given patient
s fever.
   - daily CXR
   - will hold on CT chest or airway pending IP consult
   - IP consult
   - vent settings: AC 500 x 12  PEEP 10, FIO2 60%
   - sedation: fentanyl and midazolam infusions
   - ipratropium and atrovent nebs
   # Fever: Differential diagnosis includes infection cause (VAP, infected
   PICC line, UTI) or DVT.  Cultures sent.  Will treat with empiric
   antibiotics.  Tylenol PRN for fever.
   - Flagyl, aztreonam, vancomycin, levofloxacin for coverage of gram
   positives, gram negatives, anaerobes, MRSA, and MDR pathogens.
   - f/u blood, urine, and sputum cultures
   - mini-BAL
   - Once further IV access is established, remove PICC and culture tip.
   # Hypotension: Differential diagnosis includes hypovolemia, sepsis, and
   cardiogenic.  Sepsis likely given fever, although hypovolemia remains
   in differential given falling hematocrit.  BP responded well to fluid
   boluses but urine output low.
   - Monitor BP and urine output.
   - Consider additional fluid boluses.
   - If patient
s hypotension becomes refractory to fluid boluses, would
   place central line for CVP monitoring and initiate pressors.
   # Anemia: On admission to [**Hospital 507**] Medical Center, Hct was ~40, now down
   to 30 and then 25 w/o sign of active GI bleed or other source of blood
   loss.  [**Month (only) 8**] be related to fluid administration, phlebotomy, anemia of
   inflammation, active bleed still considered in differential.  given
   bili and LDH normal would be unlikely for hemolysis.
   - trend Hct
   -Follow Hct
   -guaiac stools
   # Spine fracture: neurologically intact distal to the lesion. prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - monitor distal neurologic function
   - cto brace x3 months unless supine in bed
   - consult neurosurgery for further recs
   # Hypernatremia:  Na improved to 147 (from 150) today, most likely
   related to inadequate free water repletion.  Free water defecit ~2 L.
   - replete via OGT primarily
   - D5W x1 L
   # Right upper extremity edema:  Could be caused by DVT related to PICC.
   - d/c PICC
   - RUE U/S
   ICU Care
   Nutrition:
   Comments: tube feed with free water
   nutrition consult
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC Line - [**2167-9-19**] 10:30 PM
   18 Gauge - [**2167-9-19**] 10:30 PM
   20 Gauge - [**2167-9-20**] 01:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments: [**Name (NI) 509**]
   [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-19**] 10:30 PM
   20 Gauge - [**2167-9-20**] 01:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   This note was written by [**First Name8 (NamePattern2) 528**] [**Last Name (NamePattern1) 529**], HMS IV, to be cosigned by the
   on-call MICU resident.  I had to have the on-call intern sign me in to
   MetaVision because I do not yet have access to edit.

2167-09-20 08:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI: 55 yr old woman s/p t soine injury from [**State 507**] Med with difficulty
   vent weaning ? tbmalacia requiring stent
   [**83**] Hour Events:
 PICC LINE - START [**2167-9-19**] 10:30 PM
 INVASIVE VENTILATION - START [**2167-9-19**] 10:45 PM
 EKG - At [**2167-9-19**] 11:25 PM
 BLOOD CULTURED - At [**2167-9-20**] 05:30 AM
   TMax 102.7 BCX1 drawn
 FEVER - 102.7
F - [**2167-9-20**] 04:00 AM
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2167-9-20**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-20**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.2
C (99
   HR: 88 (72 - 97) bpm
   BP: 110/55(64) {83/38(48) - 154/71(103)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 100%
             Total In:
                                                                     10 mL
                                                                  1,043 mL
   PO:
             TF:
             54 mL
   IVF:
                                                                     10 mL
                                                                    988 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    585 mL
   Urine:
                                                                    425 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -416 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   SpO2: 100%
   ABG: 7.39/53/81.[**Numeric Identifier 252**]/30/5
   Ve: 8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Gen: intubated and sedated
   CV: RR
   Chest: fair air movement
   Abd: obese soft NT+BS
   Ext RUEgreater than LUE edema
   Labs / Radiology
   9.7 g/dL
   333 K/uL
   103 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   6 mg/dL
   109 mEq/L
   150 mEq/L
   30.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2167-9-19**]  11:54 PM
                             [**2167-9-20**]  01:00 AM
                             [**2167-9-20**]  06:14 AM
   WBC
   9.7
   Hct
   30.7
   Plt
   333
   Cr
   0.6
   TCO2
   32
   33
   Glucose
   103
   Other labs: PT / PTT / INR:13.8/22.4/1.2, ALT / AST:30/19, Alk Phos / T
   Bili:149/0.7, Differential-Neuts:76.9 %, Lymph:17.3 %, Mono:3.0 %,
   Eos:2.5 %, Albumin:3.0 g/dL, LDH:222 IU/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Obese woman s/p t spine injury tx from [**State 507**] Med for failure to wean
   from mech ventilation and evaluation for stent for
   tracheobronchomalacia
   1.             Resp Failure: initial etiology unclear
 but we need to
   assess current mechanics and reserve. Switch to PSV 10/5 and see what
   she can pull, check NIF. [**Month (only) 8**] not act on this info in light of issue
   sbelow but important for us to understand.  Let IP know she is here
   though not stable for intervention at this point.
   2.             New fevers and transient hypotension
 Is fluid
   responsive, watch UOP, goal 30 cc/hr.
   DDx VAP, asp PNA, lines.  Has PCN and blactam allergy.
   For VAP- mini [**Last Name (LF) 522**], [**First Name3 (LF) **] change to Levoquin, Aztreonam, Vanco, and add
   Flagyl for asp.
   Lines:  D/C PICC send cultures, try for 2nd PIV and if unable will
   place CVL. Check lactate.
   Belly: repeat LFTs, KUB OK, check residuals.
   3.             HyperNa: correcting with g tube free flush and D5W
   repeat lytes this evening and recalculate
   4.     Spine Fx: consult NSurg here re reccs for back bracing and
   activity
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-20**] 03:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-19**] 10:30 PM
   20 Gauge - [**2167-9-20**] 01:36 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: Zantac
   VAP: chlorhex HOB daily wake ups
   Comments:
   Communication:  boyfriend is proxy not the brother but need to clarify
   paperwork.
   Code status: FULL
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2167-09-21 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Removed PICC line because RUE was noted to be warm and erythematous;
   ultrasound revealed DVT. No definitive treatment was started given
   difficulty obtaining central venous access.
 Multiple attempts at central access; tried left and then right.
   Acute episode of oxygen desat during first central line attempt.  Pt
   recovered, however, increased FiO2.
 Decreased UOP (10-30mL/hr) and hypotension overnight.  However,
   lactate remains low.
 Placed art line x 2.  NBP and ABP similar
 mini- BAL, sputum, urine, blood cultures pending.  Yesterday, started
   on levofloxicin and aztreonam instead of cefepime.  Switched due to
   question of PCN allergy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-20**] 09:30 AM
   Metronidazole - [**2167-9-21**] 12:00 AM
   Vancomycin - [**2167-9-21**] 01:00 AM
   Aztreonam - [**2167-9-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-20**] 08:00 AM
   Midazolam (Versed) - [**2167-9-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-21**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
F at 10am on [**9-20**])
   Tcurrent: 37.3
C (99.2
   HR: 76 (71 - 116) bpm
   BP: 116/51(70) {60/46(54) - 146/71(91)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  5,600 mL
                                                                  1,811 mL
   PO:
             TF:
                                                                    120 mL
   IVF:
                                                                  4,700 mL
                                                                  1,511 mL
   Blood products:
   Total out:
                                                                    798 mL
                                                                    110 mL
   Urine:
                                                                    798 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,802 mL
                                                                  1,701 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.45/42/95.[**Numeric Identifier 253**]/28/4
   Ve: 9.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen:  Appears uncomfortable on vent.
   HEENT:  Anicteric.  Pupils 3 mm non-reactive bilaterally.
   Resp:  Symmetric expansion.  Vesicular sounds throughout.  Inspiratory
   and expiratory tracheal sounds (?related to ET tube).
   CV:  Cannot see jugular veins due to neck size.  RRR.  Normal s1 and
   s2.  No M/G/R.
   Abd:  Quiet.  Distended.  Non-tender.
   Ext:  Edema in RUE, especially right hand.  Mildly increased warmth of
   RUE compared with LUE.
   Peripheral vascular:  Radial pulses 2+ bilaterally.
   Neuro:  Pupils as above.  Moving all 4 extremities.
   Labs / Radiology
   319 K/uL
   7.6 g/dL
   129 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   6 mg/dL
   109 mEq/L
   144 mEq/L
   24.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2167-9-19**]  11:54 PM
                             [**2167-9-20**]  01:00 AM
                             [**2167-9-20**]  06:14 AM
                             [**2167-9-20**]  08:56 AM
                             [**2167-9-20**]  08:57 AM
                             [**2167-9-20**]  05:01 PM
                             [**2167-9-20**]  08:03 PM
                             [**2167-9-20**]  11:00 PM
                             [**2167-9-21**]  03:01 AM
                             [**2167-9-21**]  03:13 AM
   WBC
   9.7
   9.4
   7.6
   6.4
   Hct
   30.7
   25.1
   24.1
   24.1
   Plt
   333
   281
   306
   319
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   32
   33
   35
   33
   30
   Glucose
   103
   126
   126
   127
   129
   Other labs: PT / PTT / INR:16.9/26.3/1.5, ALT / AST:27/18, Alk Phos / T
   Bili:113/0.7, Differential-Neuts:76.9 %, Lymph:17.3 %, Mono:3.0 %,
   Eos:2.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.3 g/dL, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   RUE ultrasound:
   - Non-occlusive right axillary deep vein thrombus
   - Non-occlusive right basilic superficial thrombosis.
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture
   # Respiratory failure: initial etiology unclear, likely multifactorial
   including bronchspasm, hypoventilation from narcotics, potential
   aspiration, infection.  By report, had a neg evaluation for PE at OSH,
   however, unable to open disc to confirm.  Concern for VAP.
   - Failed yesterday
s NIF; score was -15
   - Increased FiO2 overnight.  Had increased pCO2 which resolved with
   increasing RR
   - IP stopped by but will complete official consult today; suggested
   repeating CT scan
   - Need to contact [**Name (NI) 507**] Medical re previous CT scan.  Can attempt to
   resend disc.  Otherwise, will most likely benefit from repeat CT to
   look for acute pulm process such as PE or PNA.
   # Fever: Likely due to combination of infection and DVT.  Cultures
   sent.  Will treat with empiric antibiotics.  Tylenol PRN for fever.
   - Known RUE DVT
   - Infectious etiologies include VAP, asp PNA, line infections.  Removed
   PICC yesterday and cultured tip.  Mini-BAL- gram stain neg.  Sputum
   grew GPC in pairs and GPR.  Flagyl, aztreonam, vancomycin, levofloxacin
   for coverage of gram positives, gram negatives, anaerobes, MRSA.  Urine
   and blood cultures NGTD
   - f/u blood, urine, and sputum cultures.
   - Concern for abd cause; KUB unrevealing.  High residuals.  [**Month (only) 8**] require
   further imaging
   # Transient hypotension: Has been somewhat fluid responsive; UOP [**11-12**]
   ccs/hr.  Diff dx includes hypovolemia, sepsis, cardiogenic.
   - Sepsis most likely given fever.
   - HCT decreasing; ? stable at 24-25
   - Unable to place central line despite multiple attempts.  First tired
   left IJ [**2-14**] RUE DVT.  2^nd attempt in left IJ.  Can place femoral if pt
   requires more active repletion
   # RUE DVT: Have held on starting treatment in light of need for central
   access.  Can start therapeutic heparin vs Lovenox with bridge to
   coumadin.
    # Abd distention:
   -KUB unrevealing
   -High residuals
   -[**Month (only) 8**] benefit from further imaging; if unstable consider ultrasound,
   however, if pt can tolerate it, a CT scan might be more helpful.  Can
   also scan chest and pelvis.
   # Anemia: On admission to [**Hospital 507**] Medical Center, Hct was ~40, now down
   to 30 and then 25 w/o sign of active GI bleed or other source of blood
   loss.  [**Month (only) 8**] be related to fluid administration, phlebotomy, anemia of
   inflammation, active bleed still considered in differential.
   - trend Hct
   - guaiac stools
   - S/p failed attempts at line placement; watch for neck hematomas
   # Spine fracture: neurologically intact distal to the lesion. prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - monitor distal neurologic function
   - cto brace x3 months unless supine in bed
   - consult neurosurgery for further recs
   # Hypernatremia:  correcting with g tube free flush and D5W
    -Holding on g tube feeds at present due to high residuals
   -Replete lytes as necessary
   ICU Care
   Nutrition: tube feed with free water
   Glycemic Control: Regular insulin sliding scale
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Family meeting held , ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**]
   (brother) [**Telephone/Fax (1) 511**] [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU
   55 year old woman with hx of obesity presented to [**Hospital 507**] Medical Center
   on [**2167-9-10**] after falling down stairs while at home.  She suffered a
   traumatic T5-8 fracture with retropulsion of fragments. Per medical
   records and discussion with her brother, she was awake for the fall (no
   LOC) and the fall was triggered by unsteady gait, potentially
   influenced by alcohol.  Her fracture was managed concervatively. She
   was placed in a torso brace but her course was complicated by
   respiratory failure requiring intubation. At that time a CT was
   negative for PE but showed bilateral bibasilar consolidations vs
   atelectasis.  At that time an ABG was 7.20/89/57 (unknown FIO2 but
   likely >6L facemask). She was intubated on [**2167-9-12**] at 08:40. The
   respiratory failure was thought likely to be related to pain med
   induced hypoventilation, bronchospasm, or restricted breathing duet to
   the back brace. The [**Hospital 508**] hospital course was complicated by
   difficulty weaning form the ventilator.  Her periodic agitation was
   managed with seroquel.  Prior to transfer her vent settings were: SIMV
   12x600 [**10-18**] FIO2 0.45.
   The neurosurgery service evaluated her and recommended concervative
   management of her fracture including a back brace and outpatient
   neurosurgery followup.  The CT chest showed notable narrowing of her
   central airways and the patient was referred for Interventional
   Pulmonary evaluation for airway stenting.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-9-20**] 01:16 AM
   20 Gauge - [**2167-9-20**] 01:36 AM
   22 Gauge - [**2167-9-20**] 02:00 PM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-09-21 10:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2167-9-20**] 08:09 AM
 EKG - At [**2167-9-20**] 09:00 AM
 PICC LINE - STOP [**2167-9-20**] 10:30 AM
 BLOOD CULTURED - At [**2167-9-20**] 10:30 AM
 ULTRASOUND - At [**2167-9-20**] 01:00 PM
   U/S of RUE
 URINE CULTURE - At [**2167-9-20**] 03:00 PM
    UA/UC collected after new foley inserted.
 BAL FLUID CULTURE - At [**2167-9-20**] 03:00 PM
   mini-BAL
 ARTERIAL LINE - START [**2167-9-20**] 04:45 PM
 ARTERIAL LINE - STOP [**2167-9-21**] 02:03 AM
 ARTERIAL LINE - START [**2167-9-21**] 03:00 AM
   Multiple attempts at central access were unsuccessful due to
   malposition and difficulty threading wire.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-20**] 09:30 AM
   Vancomycin - [**2167-9-21**] 01:00 AM
   Aztreonam - [**2167-9-21**] 04:00 AM
   Metronidazole - [**2167-9-21**] 08:50 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-21**] 08:00 AM
   Midazolam (Versed) - [**2167-9-21**] 09:32 AM
   Other medications:
   colace, CHG, SQI, H2B, SQH, MDIs, Flagyl, vanco, levo, aztreonam,
   versed, fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-21**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 72 (70 - 116) bpm
   BP: 100/48(60) {89/47(60) - 139/75(79)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,600 mL
                                                                  2,088 mL
   PO:
   TF:
                                                                    120 mL
   IVF:
                                                                  4,700 mL
                                                                  1,728 mL
   Blood products:
   Total out:
                                                                    798 mL
                                                                    205 mL
   Urine:
                                                                    798 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,802 mL
                                                                  1,883 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   SpO2: 89%
   ABG: 7.45/42/95.[**Numeric Identifier 253**]/28/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 96
   Physical Examination
   Sedated.  Breath sounds are coarse.  Heart sounds are distant.  Abdomen
   is protuberant with quiet breath sounds.  Some peripheral edema.  She
   is not able to cooperate with peripheral strength or sensory exam.
   Labs / Radiology
   7.6 g/dL
   319 K/uL
   129 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   6 mg/dL
   109 mEq/L
   144 mEq/L
   24.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2167-9-19**]  11:54 PM
                             [**2167-9-20**]  01:00 AM
                             [**2167-9-20**]  06:14 AM
                             [**2167-9-20**]  08:56 AM
                             [**2167-9-20**]  08:57 AM
                             [**2167-9-20**]  05:01 PM
                             [**2167-9-20**]  08:03 PM
                             [**2167-9-20**]  11:00 PM
                             [**2167-9-21**]  03:01 AM
                             [**2167-9-21**]  03:13 AM
   WBC
   9.7
   9.4
   7.6
   6.4
   Hct
   30.7
   25.1
   24.1
   24.1
   Plt
   333
   281
   306
   319
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   32
   33
   35
   33
   30
   Glucose
   103
   126
   126
   127
   129
   Other labs: PT / PTT / INR:16.9/26.3/1.5, ALT / AST:27/18, Alk Phos / T
   Bili:113/0.7, Differential-Neuts:76.9 %, Lymph:17.3 %, Mono:3.0 %,
   Eos:2.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.3 g/dL, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR with bilateral opacities; ETT a little high. No PTX.
   Assessment and Plan
   55-year-old woman with
          Respiratory failure
          Traumatic thoracic spinal fractures
          Probable VAP
          Upper extremity DVT
          Oliguria
          Anemia
          Possible tracheobronchomalacia (reason for transfer)
   I am uncertain about both the risks of anticoagulation and the risks of
   moving to radiology (e.g. CT or IR) in the context of her spinal
   fractures.  Therefore we will consult spine surgery urgently for help
   with these questions.
   Her respiratory failure is likely multifactorial, including obesity,
   probable VAP, probable PE, and possible tracheobronchomalacia.  She may
   also have weakness, but she is sedated and cannot cooperate with exam
   at present.  We will check an echo to examine her RV.  We will
   ventilate per ARDSnet; she may warrant esophageal-balloon-guided
   therapy if she does not improve in the next few hours.
   Oliguria is concerning, though BUN/Creatinine are reassuring.  NG to
   suction to relieve abdominal distention.  We will check urine lytes and
   assess stroke volume variation with the Vigileo.  We will consider
   volume challenge based on this result.
   For central access, if we are able to safely move her we will ask I.R.
   to help with central access.
   We will continue broad antibiotics while awaiting cultures.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2167-9-20**] 01:16 AM
   20 Gauge - [**2167-9-20**] 01:36 AM
   22 Gauge - [**2167-9-20**] 02:00 PM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Staff Addendum
   5:45p
   CVL successfully placed.  CVP and SVV argue that she is adequately
   volume-replete.  Hypoxemia has been a major issue, and we have taken
   her to CT this afternoon.  We are awaiting final reads of the images.
   We will pursue esophageal balloon to help guide PEEP; first attempt was
   unsuccessful due to oropharyngeal coiling.
   Discussed in detail with patient
s brother at bedside.  Unable to reach
   her significant other.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2167-9-21**] 17:55 ------
   Critical Care Staff
   7:30p
   Stable on PEEP 15, FiO2 0.8, low-dose Levophed.  RT was unable to place
   esophageal balloon.  CT reviewed and shows basilar >> apical collapse
   but no PE.  Echo was limited but reassuring, with normal RV function
   and no obvious shunt.
   We will continue to pursue 6cc/kg PBW ventilation.  If unable to wean
   FiO2 further, will increase PEEP.  If difficulties, will repeat
   attempts at esophageal balloon and consider proning.
   Since sputum is growing GNR, suspect that much of this may be related
   to VAP acquired at OSH.  Since we do not know their resistance
   patterns, will continue extended-spectrum GNR coverage with aztreonam
   and levofloxacin.
   Await spine surgery
s input on risks of anticoagulation.  If OK, begin
   full-dose heparin tonight.
   Discussed with [**Name8 (MD) 157**], RN, and RT.
   30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2167-9-21**] 07:49 PM ------

2167-09-22 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Neurosurg: ok to transport.  Will decide on anticoagulation in AM
   -Central line placed
   -NGT to suction
   -Bowel regimen
   -Respiratory attempted to place esophageal ballon in order to measure
   intrathoracic pressure, unsuccessful
   -Desaturation around 23:00 to low 80s on 400/22/15/0.9 following turn.
   Recruitment maneuver (PEEP to 30) done x2 with good effect, Sat came up
   to 100%.  PEEP left at 17
   -Transfused 1 un pRBC
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-21**] 10:00 AM
   Aztreonam - [**2167-9-21**] 02:00 PM
   Vancomycin - [**2167-9-22**] 12:00 AM
   Metronidazole - [**2167-9-22**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-21**] 08:00 AM
   Midazolam (Versed) - [**2167-9-21**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-22**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 73 (64 - 96) bpm
   BP: 119/48(69) {85/39(55) - 142/67(91)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 20 (11 - 21)mmHg
   Bladder pressure: 14 (14 - 18) mmHg
   Total In:
                                                                  3,482 mL
                                                                    465 mL
   PO:
   TF:
   IVF:
                                                                  2,845 mL
                                                                    465 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                    580 mL
                                                                     65 mL
   Urine:
                                                                    580 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,902 mL
                                                                    400 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 80%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/41/86.[**Numeric Identifier 253**]/24/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 109
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   376 K/uL
   9.0 g/dL
   120 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   4 mg/dL
   108 mEq/L
   141 mEq/L
   28.1 %
   8.4 K/uL
        [image002.jpg]
   ALT 24     PT 18.7
   AST 16     PTT 25.4
   AP 117     INR 1.7
   Tbili 0.7
   Alb 2.4
                             [**2167-9-20**]  08:03 PM
                             [**2167-9-20**]  11:00 PM
                             [**2167-9-21**]  03:01 AM
                             [**2167-9-21**]  03:13 AM
                             [**2167-9-21**]  12:05 PM
                             [**2167-9-21**]  06:08 PM
                             [**2167-9-21**]  06:11 PM
                             [**2167-9-21**]  07:53 PM
                             [**2167-9-22**]  02:02 AM
                             [**2167-9-22**]  03:59 AM
   WBC
   7.6
   6.4
   8.4
   Hct
   24.1
   24.1
   29.0
   28.1
   Plt
   [**Telephone/Fax (3) 566**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   33
   30
   29
   29
   25
   25
   Glucose
   127
   129
   120
   Differential-Neuts:80.8 %, Lymph:12.0 %, Mono:3.5 %, Eos:3.3 %
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL, ion Ca++ ([**9-21**]) 1.16
   Cortisol:
   [**9-22**]: 2:15am 24.2  Midnight 2.7
   [**9-21**]: 3am 4.5
   Micro: neg or NGTD if not mentioned
   [**9-22**]: blood, [**Last Name (un) **]
   [**9-21**]: urine, sputum-OP flora
   [**9-20**]: BAL, [**Last Name (un) **]- coag neg staph, lactobacillus, cath tip, sputum- OP
   flora, rare GNR, blood
   U/a:
   Color
   Amber
   Appear
   Clear
   SpecGr
   1.015
   pH
   5.5
   Urobil
   2
   Bili
   Mod
   Leuk
   Tr
   Bld
   Tr
   Nitr
   Pos
   Prot
   100
   Glu
   Neg
   Ket
   40
   RBC
   0-2
   WBC
   0-2
   Bact
   Few
   Yeast
   None
   Epi
   0-2
   Imaging:
   Echo
   post recruitment CXR showed deep sulcus but no pnumothorax per rads.
   CT: Prelim Read
   Right lower lobe consolidation, and superimposed atelectasis/lower lobe
   collapse, and effusions. Acute T8 compression deformity, with no
   posterior
   retropulsion of fracture fragments. No associated hematoma.
   Assessment and Plan
   comm with fam, vanc dosing
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture
   # Respiratory failure: initial etiology unclear, likely multifactorial
   including bronchspasm, hypoventilation from narcotics, potential
   aspiration, infection.  By report, had a neg evaluation for PE at OSH,
   however, unable to open disc to confirm.  Concern for VAP.
   - Failed yesterday
s NIF; score was -15
   - Increased FiO2 overnight.  Had increased pCO2 which resolved with
   increasing RR
   - IP stopped by but will complete official consult today; suggested
   repeating CT scan
   - Need to contact [**Name (NI) 507**] Medical re previous CT scan.  Can attempt to
   resend disc.  Otherwise, will most likely benefit from repeat CT to
   look for acute pulm process such as PE or PNA.
   # Fever: Likely due to combination of infection and DVT.  Cultures
   sent.  Will treat with empiric antibiotics.  Tylenol PRN for fever.
   - Known RUE DVT
   - Infectious etiologies include VAP, asp PNA, line infections.  Removed
   PICC yesterday and cultured tip.  Mini-BAL- gram stain neg.  Sputum
   grew GPC in pairs and GPR.  Flagyl, aztreonam, vancomycin, levofloxacin
   for coverage of gram positives, gram negatives, anaerobes, MRSA.  Urine
   and blood cultures NGTD
   - f/u blood, urine, and sputum cultures.
   - Concern for abd cause; KUB unrevealing.  High residuals.  [**Month (only) 8**] require
   further imaging
   # Transient hypotension: Has been somewhat fluid responsive; UOP [**11-12**]
   ccs/hr.  Diff dx includes hypovolemia, sepsis, cardiogenic.
   - Sepsis most likely given fever.
   - HCT decreasing; ? stable at 24-25
   - Unable to place central line despite multiple attempts.  First tired
   left IJ [**2-14**] RUE DVT.  2^nd attempt in left IJ.  Can place femoral if pt
   requires more active repletion
   - Consider another attempt at a line.
   # Oliguria:
   -BUN and Cr as well as lactate reassuring.
   -Increased bladder pressures this am- 20.  Further imaging may be
   helpful
   # RUE DVT: Have held on starting treatment in light of need for central
   access.  Can start therapeutic heparin vs Lovenox with bridge to
   coumadin.
   -Can consider rescanning for PE.  High risk for PE given UE DVT.
    # Abd distention:
   -KUB unrevealing
   -High residuals
   -[**Month (only) 8**] benefit from further imaging; if unstable consider ultrasound,
   however, if pt can tolerate it, a CT scan might be more helpful.  Can
   also scan chest and pelvis.
   # Anemia: On admission to [**Hospital 507**] Medical Center, Hct was ~40, now down
   to 30 and then 25 w/o sign of active GI bleed or other source of blood
   loss.  [**Month (only) 8**] be related to fluid administration, phlebotomy, anemia of
   inflammation, active bleed still considered in differential.
   - trend Hct
   - guaiac stools
   - S/p failed attempts at line placement; watch for neck hematomas
   - INR elev at 1.5.  ? may be related to poor nutrition as albumin is
   2.3
   # Spine fracture: neurologically intact distal to the lesion. prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Need to talk to neurosurg to see if pt can tolerate a CT scan as well
   as the risks of anticoag for DVT
   - monitor distal neurologic function
   - cto brace x3 months unless supine in bed
   - consult neurosurgery for further recs
   # Hypernatremia:  correcting with g tube free flush and D5W
    -Holding on g tube feeds at present due to high residuals
   -Replete lytes as necessary
   # Communication:
   SW discussed with attorney on call who will do some research into this
   question.  In the meantime, assured brother that both he and pt
s bf
   will be consulted re any healthcare decisions while pt is intubated and
   sedated.  Brother is satisfied with this and states he does not
   anticipate any conflicts.  He is visiting from [**State 556**] and bf is
   reportedly on his way in from ME.
   ICU Care
   Nutrition: tube feed with free water
   Glycemic Control: Regular insulin sliding scale
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-20**] 01:36 AM
   22 Gauge - [**2167-9-20**] 02:00 PM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-09-23 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2167-9-22**] 01:46 PM - went well, were able to
   increase PEEP to improve oxygenation
   - started naloxone to encourage bowel motility, with some success,
   rectal tube in place with some stool
   -started heparin gtt for RUE DVT
   -borderline hypotensive at times (low 90s) with low urine output,
   received boluses and norepi back on at 0.04 (now down to 0.02)
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-22**] 09:45 AM
   Metronidazole - [**2167-9-22**] 03:32 PM
   Vancomycin - [**2167-9-22**] 08:00 PM
   Aztreonam - [**2167-9-22**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-23**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 73 (60 - 102) bpm
   BP: 90/46(61) {76/38(56) - 160/71(97)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 8 (8 - 15)mmHg
   Bladder pressure: 18 (18 - 21) mmHg
   Esophageal Pressure:
   26
   Total In:
                                                                  3,524 mL
                                                                    234 mL
   PO:
                                 TF:
                                                                     48 mL
   IVF:
                                                                  3,236 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    215 mL
   Urine:
                                                                    650 mL
                                                                    215 mL
   NG:
                                                                    285 mL
   Stool:
   Drains:
   Balance:
                                                                  2,589 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 42 cmH2O
   Plateau: 32 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/44/160 (6am)
   Ve: 9.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen:  Does not arouse to voice
   HEENT:  Pupils 3 mm reactive bilaterally. Scleral edema bilat
   Resp:  Symmetric expansion.  Coarse breath sounds throughout.  Cannot
   adeq listen to post bases
   CV:  RRR.
   Abd:  Hypoactive bowel sounds.  Distended.
   Ext:  Edema in bilat UE.
   Peripheral vascular:  Radial pulses 2+ bilaterally.
   Neuro:  Moving all 4 extremities.
   Labs / Radiology
   358 K/uL
   8.9 g/dL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   4 mg/dL
   108 mEq/L
   143 mEq/L
   28.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2167-9-21**]  03:01 AM
                             [**2167-9-21**]  03:13 AM
                             [**2167-9-21**]  12:05 PM
                             [**2167-9-21**]  06:08 PM
                             [**2167-9-21**]  06:11 PM
                             [**2167-9-21**]  07:53 PM
                             [**2167-9-22**]  02:02 AM
                             [**2167-9-22**]  03:59 AM
                             [**2167-9-22**]  09:14 PM
                             [**2167-9-23**]  01:04 AM
   WBC
   6.4
   8.4
   Hct
   24.1
   29.0
   28.1
   Plt
   319
   376
   Cr
   0.6
   0.6
   TCO2
   30
   29
   29
   25
   25
   28
   28
   Glucose
   129
   120
   PT 22.2  PTT 76.0  INR 2.1
   Differential-Neuts:74.7 %, Lymph:17.6 %, Mono:3.5 %, Eos:3.8 %
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture
   # Respiratory failure: initial etiology unclear, likely multifactorial
   now with significant pneumonia.  Had one sputum that showed GNR.
   - Concern for ARDS given clinical and radiographic picture.  Will hold
   on bronch given high PEEP; can consider proning.  Have some room to
   increase PEEP based on esoph balloon
   - Placed esophageal balloon and increased PEEP
   - Will allow her to stay on current vent settings today in order to let
   her lungs rest
   # VAP:  Had been febrile, now resolved
   - [**Month (only) 8**] be [**2-14**] aspiration or be VAP.  Sputum from [**9-20**] grew rare GNR;
   awaiting speciation.
   - Has been  Vanc, aztreonam, levofloxicin. Vanc trough today was 20
   - Will d/c vanc today ([**9-23**]) as no current evidence to suggest a gram
   positive infection
   - Will d/c flagyl because had one neg c. diff toxin and CT did not show
   evidence of colitis
   - Continue aztreonam and levofloxicin for gram neg pneumonia for 8 days
   pending speciation (at that time can increase to 15 days if necessary)
   # Hypotension, requiring Levophed:
   - Hypovolemia is possibly a factor- responded to a transfusion; HCT had
   been dropping
   - Sepsis also a factor- on broad spectrum abs
   - Central line in place.
   - Will check a SVV (with vigileo) today to determine volume status
   # Oliguria:
   -BUN and Cr reassuring.
   - Continue to monitor
   # RUE DVT: Started on heparin gtt on [**9-22**].
   -Therapeutic in one day; may be related to poor nutritional status.
   Will continue to closely monitor
    # Abd distention: [**Month (only) 8**] be chronic condition not requiring immediate
   medical attention
   - CT abd only showed appendiceal mucocele without inflammation, not
   concerning, most likely chronic.  No concern for intraabd disaster
   - Now having BMs; c. diff toxin neg
   - amylase and lipase wnl
   # Anemia:
   - Trend HCT
   - Gave 1 un pRBC with good results
   - INR rising, now 2.0, may be nutritional
   # Spine fracture: neurologically intact distal to the lesion. prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per verbal report.
   # Hypernatremia, resolved:  correcting with g tube free flush and D5W
    -Holding on g tube feeds at present due to high residuals
   -Replete lytes as necessary
   # Communication:
   - Brother has been with pt, although, live in boyfriend of 10 [**Name2 (NI) 579**] is
   her HCP.  Boyfriend will hopefully visit pt today
   ICU Care
   Nutrition: tube feed with free water when able
   Glycemic Control: Regular insulin sliding scale
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-20**] 01:36 AM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-09-23 09:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2167-9-22**] 01:46 PM
   Restarted levophed overnight
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-9-22**] 08:00 PM
   Aztreonam - [**2167-9-23**] 06:09 AM
   Metronidazole - [**2167-9-23**] 08:00 AM
   Levofloxacin - [**2167-9-23**] 08:39 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   vanc, aztreonam, flagyl (day ), CHG, SQI, nebs, naloxone enteral,
   heparin infusion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-23**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 75 (64 - 102) bpm
   BP: 96/49(65) {76/38(56) - 160/71(97)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
   CVP: 20 (8 - 339)mmHg
   Bladder pressure: 18 (18 - 21) mmHg
   Total In:
                                                                  3,524 mL
                                                                    848 mL
   PO:
   TF:
                                                                     48 mL
   IVF:
                                                                  3,236 mL
                                                                    698 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    325 mL
   Urine:
                                                                    650 mL
                                                                    325 mL
   NG:
                                                                    285 mL
   Stool:
   Drains:
   Balance:
                                                                  2,589 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/44/160/25/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounds
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   358 K/uL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   4 mg/dL
   108 mEq/L
   143 mEq/L
   28.0 %
   8.1 K/uL
         [image002.jpg]
                             [**2167-9-21**]  12:05 PM
                             [**2167-9-21**]  06:08 PM
                             [**2167-9-21**]  06:11 PM
                             [**2167-9-21**]  07:53 PM
                             [**2167-9-22**]  02:02 AM
                             [**2167-9-22**]  03:59 AM
                             [**2167-9-22**]  09:14 PM
                             [**2167-9-23**]  01:04 AM
                             [**2167-9-23**]  05:54 AM
                             [**2167-9-23**]  06:11 AM
   WBC
   8.4
   8.1
   Hct
   29.0
   28.1
   28.0
   Plt
   376
   358
   Cr
   0.6
   0.7
   TCO2
   29
   29
   25
   25
   28
   28
   26
   Glucose
   120
   126
   Other labs: PT / PTT / INR:22.2/76.0/2.1, ALT / AST:24/16, Alk Phos / T
   Bili:117/0.7, Amylase / Lipase:[**10-22**], Differential-Neuts:74.7 %,
   Lymph:17.6 %, Mono:3.8 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:204 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   55-year-old woman with
          Respiratory failure
          End-exp transpulmonary pressure: -2
          End-insp transpulmonary pressure: +5
          Esophageal pressures suggest that she is at safe pressures.
          Traumatic thoracic spinal fracture
          Eventual MRI.  Too high-risk at present.  Brace when out of
   bed.
          Probable VAP
          Discuss GNRs with lab
          Complete 8
 15d course of present ABX pending cultures
          D/C vancomycin since no identified GPCs
          D/C Flagyl since no CT or toxin evidence of C diff
          Shock
 now back on levophed
          CVP is 20 mm Hg but Pes is ~25 cm H20
          Re-assess SVV with Vigileo and consider volume challenge
          Upper extremity DVT
          Therapeutic heparin
          Anemia
          Follow
          Possible tracheobronchomalacia (reason for transfer)
          Incidental peri-appendiceal finding (will need eventual
   follow-up)
   Although differential remains open, the most compelling course of
   events is probably that she required intubation at the outside hospital
   (?sedation ?restriction from obesity/brace ?other) and subsequently
   developed a GNR-related VAP.  Her pattern of acute lung injury,
   combined with obesity, is resulting in basilar and
   posterior-predominant atelectasis/consolidation with a high proportion
   of shunt.  Given her very high PEEP, will try to avoid bronchoscopy if
   possible.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: resume tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-9-20**] 01:36 AM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF
   7p
   Oxygenation has continued to improved throughout the day.
   Remains on levophed.
   Repeat baseline cortisol < 5.
   Had relative oliguria for several hours.
   Her baseline cortisol should be substantially higher than it is; she
   should be maximally stimulated given her degree of illness.  I
   therefore think this represents meaningful cortisol deficiency.  Since
   she is vasopressor-requiring, we will treat for adrenal insufficiency.
   We will wean FiO2 to 0.4.  If tolerates, then wean PEEP.
   These maneuvers are likely to help with urine output, as well.  If they
   do not, will increase levophed and see if higher blood pressures result
   in higher UOP.
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2167-9-23**] 19:13 ------

2167-09-24 05:47:00 Physician Resident Progress Note
24 Hour Events:
   -Yesterday, stopped vanc and flagyl. Continued Aztreonam and
   Levofloxicin
   -Febrile to 101- pan cultured; cxr
   -Micro on sputum GNR due back today
   -Decreased FiO2 and PEEP to 21 (from 23 for ABG 7.42/39/116 at 11PM)
   -Early am, HR dropped to 40s-50s. EKG suggestive of junctional rhythm.
   Held pressures, making good UOP, good O2 sats
   -This am, art line is intermittently working. Drew ABG - pending
   -Yesterday, SVV was 7; held on giving more fluids
   -Random cortisol was very low; started hydrocortisone and florinef
   -UOP picked up this AM
   -Restarted tube feeds
   -K, Phos given this AM
   -New possible junctional rhythm (low voltage) at 5AM.  Enzymes added on
   -Spine -> request CT C, L spine, MRI, TLSO, non-operative, d/c log roll
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-9-22**] 08:00 PM
   Metronidazole - [**2167-9-23**] 08:00 AM
   Levofloxacin - [**2167-9-23**] 08:39 AM
   Aztreonam - [**2167-9-23**] 02:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-9-23**] 03:50 PM
   Fentanyl - [**2167-9-23**] 03:50 PM
   Ranitidine (Prophylaxis) - [**2167-9-23**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-24**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 86) bpm
   BP: 103/46(61) {103/46(61) - 121/50(66)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 12 (12 - 339)mmHg
   Total In:
                                                                  1,675 mL
                                                                    232 mL
   PO:
   TF:
                                                                    182 mL
                                                                    134 mL
   IVF:
                                                                  1,233 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                    877 mL
                                                                    565 mL
   Urine:
                                                                    727 mL
                                                                    535 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 21 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/28/129 at 6AM
   Repeated at 9AM 7.4/38/97
   Ve: 9.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen:  Does not arouse to voice
   HEENT:  Pupils 3 mm reactive bilaterally. Scleral edema bilat
   Resp:  Symmetric expansion.  Coarse breath sounds throughout.  Cannot
   adeq listen to post bases
   CV:  RRR.
   Abd:  Hypoactive bowel sounds.  Distended.
   Ext:  Edema in bilat UE.
   Peripheral vascular:  Radial pulses 2+ bilaterally.
   Neuro:  Moving all 4 extremities.
   Labs / Radiology
   326 K/uL
   8.9 g/dL
   151 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2167-9-21**]  06:11 PM
                             [**2167-9-21**]  07:53 PM
                             [**2167-9-22**]  02:02 AM
                             [**2167-9-22**]  03:59 AM
                             [**2167-9-22**]  09:14 PM
                             [**2167-9-23**]  01:04 AM
                             [**2167-9-23**]  05:54 AM
                             [**2167-9-23**]  06:11 AM
                             [**2167-9-23**]  11:07 PM
                             [**2167-9-24**]  03:51 AM
   WBC
   8.4
   8.1
   8.9
   Hct
   28.1
   28.0
   28.6
   Plt
   376
   358
   326
   Cr
   0.6
   0.7
   0.7
   TCO2
   29
   25
   25
   28
   28
   26
   26
   Glucose
   120
   126
   151
   Other labs: PT / PTT / INR:24.3/68.6/2.4, ALT / AST:24/16, Alk Phos / T
   Bili:117/0.7, Amylase / Lipase:[**10-22**], Differential-Neuts:82.5 %,
   Lymph:11.6 %, Mono:3.3 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:204 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
Micro: [**2167-9-24**] 2:38 am SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2167-9-24**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Pending)
   GRAM STAIN (Final [**2167-9-20**]) SPUTUM     Site: ENDOTRACHEAL:
      <10 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   CULTURE: GRAM NEGATIVE ROD(S).    RARE GROWTH.  WORK-UP PER DR [**First Name (STitle) **] ([**Numeric Identifier 637**]).
   US of effusion (by MICU staff): small effusion, accessible but
   difficult to tap
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   # Respiratory failure:  Over the evening yesterday, were able to
   decrease FiO2 and PEEP.  Clinical and imaging suggestive of ARDS.
   Initial precipitating factors were thought to be: sedation, hypovent
   [**2-14**] obesity, orthotic brace.  Now thought to have VAP.
   - Placed esophageal balloon on [**9-22**] which will help guide PEEP settings.
   - Given small size of effusion and high PEEP (risk of pneumothorax),
   will not attempt to tap
   - Appreciate IP recs.  Will consider tracheomalacia workup when more
   stable.
   # VAP/ID:  Re-spiked fever overnight.  Stopped vanc yesterday, [**9-23**], as
   treating for GNR infection.  Current GS shows GPC
   - Follow cultures
   - Restart Vanc.
   - Continue aztreonam, levofloxicin for 8 days pending speciation (at
   that time can increase to 15 days if necessary)
   - Also, stopped flagyl because had one neg c. diff toxin and CT did not
   show evidence of colitis
   - Will replace A-line today.
   # EKG changes: Sinus bradycardia.  Very low voltages and no change in
   QRS morphology.  P-waves are visible and prolonged PR interval is old.
   CK and troponins flat.  Likely related to increased vagal tone possibly
   related to steroid replacement.
   - Will avoid excessive alpha-agonism
   - Continue to monitor
   - could consider atrial EKG
   .
   # Hypotension: now off levophed, with good urine output.  Hypovolemia
   is possibly a factor- responded to a transfusion; HCT had been
   dropping.  However, SVV with Vigileo was 7, making her CO less likely
   to respond to fluids.  Held on giving any boluses overnight.  Today CVP
   is low given PEEP. Sepsis also a consideration
   - continue on broad spectrum abs
   - replete fluids.
   - Restart pressors as needed.  Consider dopamine over levophed given
   bradycardia.
   - Central line in place.
   # Urine output:  Previously oliguric, now with high urine output.
   Concern for autodiuresis but BUN and Cr reassuring.
   -Continue to monitor
   # RUE DVT: Started on heparin gtt on [**9-22**].
   -Therapeutic in one day; may be related to poor nutritional status.
   Will continue to closely monitor
   # Adrenal Insufficency:
   -Random cortisol was approx 3 when it should have been maximally
   stimulated.
   -Started hydrocortisone and florinef.  ? switch to methylpred
   # Anemia:
   - Trend HCT
   - Gave 1 un pRBC with good results
   - INR rising, now 2.0, may be nutritional
   # Spine fracture: neurologically intact distal to the lesion. prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Hypernatremia, resolved:  correcting with g tube free flush and D5W
    -Continue to follow
   # Communication:
   - Brother has been with pt, although, live in boyfriend of 10 [**Name2 (NI) 579**] is
   her HCP.  Boyfriend will hopefully visit pt today
   ICU Care
   Nutrition: tube feed with free water when able
   Glycemic Control: Regular insulin sliding scale
   DVT: Theraputic Heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-23**] 10:55 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-20**] 01:36 AM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-09-24 08:58:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-9-24**] 12:24 AM
 URINE CULTURE - At [**2167-9-24**] 12:24 AM
 SPUTUM CULTURE - At [**2167-9-24**] 03:30 AM
 EKG - At [**2167-9-24**] 05:20 AM
   pt in junctional rhythem, holding stable BP, intern aware and came to
   assess pt. HR 47-50.
   Fever spike to 101
   Steroids started
   Antibiotics tailored
   PEEP decreased
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-9-22**] 08:00 PM
   Metronidazole - [**2167-9-23**] 08:00 AM
   Levofloxacin - [**2167-9-23**] 08:39 AM
   Aztreonam - [**2167-9-24**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-9-23**] 03:50 PM
   Fentanyl - [**2167-9-23**] 03:50 PM
   Ranitidine (Prophylaxis) - [**2167-9-23**] 08:31 PM
   Other medications:
   versed, fentanyl, colace, H2B, CHG, SQI, MDIs, heparin infusion,
   levoflox, aztreonam, hydrocortisone 50 q6, fludrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-24**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 57 (48 - 86) bpm
   BP: 102/48(61) {102/46(61) - 121/52(66)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
   CVP: 11 (11 - 20)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  1,708 mL
                                                                    460 mL
   PO:
   TF:
                                                                    182 mL
                                                                    138 mL
   IVF:
                                                                  1,267 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                    877 mL
                                                                  1,305 mL
   Urine:
                                                                    727 mL
                                                                  1,275 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                   -845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/38/96.[**Numeric Identifier 7**]/26/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   326 K/uL
   151 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2167-9-22**]  02:02 AM
                             [**2167-9-22**]  03:59 AM
                             [**2167-9-22**]  09:14 PM
                             [**2167-9-23**]  01:04 AM
                             [**2167-9-23**]  05:54 AM
                             [**2167-9-23**]  06:11 AM
                             [**2167-9-23**]  11:07 PM
                             [**2167-9-24**]  03:51 AM
                             [**2167-9-24**]  06:17 AM
                             [**2167-9-24**]  08:18 AM
   WBC
   8.4
   8.1
   8.9
   Hct
   28.1
   28.0
   28.6
   Plt
   376
   358
   326
   Cr
   0.6
   0.7
   0.7
   TCO2
   25
   28
   28
   26
   26
   21
   28
   Glucose
   120
   126
   151
   Other labs: PT / PTT / INR:24.3/68.6/2.4, CK / CKMB / Troponin-T:24//,
   ALT / AST:24/16, Alk Phos / T Bili:117/0.7, Amylase / Lipase:[**10-22**],
   Differential-Neuts:82.5 %, Lymph:11.6 %, Mono:3.3 %, Eos:2.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:204 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: increased right base opacity
   Microbiology: Sputum from overnight: GPCs with 2+ GPCs in
   pairs/clusters and 2+ GPRs
   Prior sputum growing GNRs
   Assessment and Plan
   55-year-old woman with
          Respiratory failure
          Recheck esophageal pressures today.
          Wean PEEP as tolerated and guided by Pes
          On our ultrasound exam, effusion would be high risk to tap
          Adrenal insufficiency
          Based on very low random cortisol while in shock and
   respiratory failure
          On steroids
          Bradycardia
          Rhythm appear sinus.
          Will try to check an atrial EKG via her CVL to confirm
          Heart rate increases with stimulation, suggesting that this
   is mostly vagal in etiology
          Sedation and high ventilatory pressures may contribute to
   high vagal tone
          Continues to have signs of good perfusion
          This may be reflex bradycardia from increased perfusion
   relating to steroid dosing
          Probable VAP
          Discuss GNRs with lab
          Complete 8
 15d course of present ABX pending cultures
          D/C vancomycin since no identified GPCs
          D/C Flagyl since no CT or toxin evidence of C diff
          Shock
 now off of levophed (again)
          SVV is low, suggesting adequate volume repletion
          Treating adrenal insufficiency
          Polyuria
          [**Month (only) 8**] be response to increased perfusion (comes at right time
   course to be an effect of treating adrenal insufficiency)
          Upper extremity DVT
          Therapeutic heparin
          Anemia
          Follow
          Possible tracheobronchomalacia (reason for transfer)
          Incidental peri-appendiceal finding (will need eventual
   follow-up)
          Traumatic thoracic spinal fracture
          Eventual MRI.  Too high-risk at present.  Brace when out of
   bed.
          Fever
          Restart vanco (GPCs on G/S of sputum)
          Follow cultures
          Resite art line (dysfunctional).
          CVL is within 3 days; will follow
   Although differential remains open, the most compelling course of
   events is probably that she required intubation at the outside hospital
   (?sedation ?restriction from obesity/brace ?other) and subsequently
   developed a GNR-related VAP.  Her pattern of acute lung injury,
   combined with obesity, is resulting in basilar and
   posterior-predominant atelectasis/consolidation with a high proportion
   of shunt.  Will consider bronchoscopy based on course today, given
   apparent increased atelectasis on CXR.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-9-20**] 01:36 AM
   Arterial Line - [**2167-9-21**] 03:00 AM
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2167-09-25 04:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   New A-line placed (left), good tracing but positional
   Vanco restarted
   Atrial EKG->p-waves
   Multiple IVF boluses for MAPs < 65.  Did not restart pressors
   Brother came, confirmed history
   Eye drops
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2167-9-23**] 08:00 AM
   Levofloxacin - [**2167-9-24**] 10:00 AM
   Vancomycin - [**2167-9-24**] 08:09 PM
   Aztreonam - [**2167-9-24**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-25**] 04:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 56 (45 - 63) bpm
   BP: 103/54(72) {83/44(59) - 142/105(109)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 12 (11 - 14)mmHg
   Total In:
                                                                  4,750 mL
                                                                    868 mL
   PO:
   TF:
                                                                    773 mL
                                                                    223 mL
   IVF:
                                                                  3,827 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                     60 mL
   Urine:
                                                                  2,325 mL
                                                                     60 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                  2,385 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/38/96.[**Numeric Identifier 7**]/23/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance:   Obese
   Eyes / Conjunctiva: PERRL, subconjunctival hematoma on left
   Cardiovascular: brady, regular, no MRG, nL S1, S2
   Respiratory / Chest: CTA b/l
   Abdominal: Soft, Non-tender, Obese, +BS
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   326 K/uL
   8.9 g/dL
   153 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   6 mg/dL
   113 mEq/L
   141 mEq/L
   28.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2167-9-22**]  09:14 PM
                             [**2167-9-23**]  01:04 AM
                             [**2167-9-23**]  05:54 AM
                             [**2167-9-23**]  06:11 AM
                             [**2167-9-23**]  11:07 PM
                             [**2167-9-24**]  03:51 AM
                             [**2167-9-24**]  06:17 AM
                             [**2167-9-24**]  07:00 AM
                             [**2167-9-24**]  08:18 AM
                             [**2167-9-24**]  04:18 PM
   WBC
   8.1
   8.9
   Hct
   28.0
   28.6
   Plt
   358
   326
   Cr
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   26
   26
   21
   28
   Glucose
   126
   151
   153
   Other labs: PT / PTT / INR:24.3/68.6/2.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:82.5 %, Lymph:11.6 %,
   Mono:3.3 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Culture data: [**9-20**] Sputum with Klebsiella Oxytoca
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   55-year-old woman with
          Unclear location of ETT
          Since only 18cm in holder, we will bronch to confirm correct
   position since an inadvertent extubation might be fatal.
          Respiratory failure
          Oxygenation is improving
          Wean PEEP as tolerated by hypoxemia
          [**Month (only) 8**] eventually need investigation for TBM
          At present, her PEEP is too high to consider tracheostomy
   but if we are able to wean it (and not able to extubate her) would
   consider tracheostomy soon
          Adrenal insufficiency
          Based on very low random cortisol while in shock and
   respiratory failure
          On steroids, has come off and stayed off of pressors.
   Eventually wean, but still getting fluid boluses
          Bradycardia
          Rhythm is sinus, confirmed by CVL-directed
atrial
 lead
          Heart rate increases with stimulation, suggesting that this
   is mostly vagal in etiology
          Klebsiella VAP
          Complete 8d course of levofloxacin
          Discontinue aztreonam
          If [**9-24**] sputum culture remains negative (GPCs on G/S),
   discontinue vancomycin tomorrow
          Shock
 now off of levophed
          Intermittent fluid boluses
          Treating adrenal insufficiency
          Upper extremity DVT
          Therapeutic heparin
          Anemia
          Follow
          Possible tracheobronchomalacia (reason for transfer)
          Incidental peri-appendiceal finding (will need eventual
   follow-up)
          Traumatic thoracic spinal fracture
          Eventual MRI.  Too high-risk at present.  Brace when out of
   bed.
   # Respiratory failure currently with unclear ETT location:  Intubated
   on [**9-12**] for resp decompensation.  Likely [**2-14**] VAP. Unlikely to have
   tracheomalacia as initially transferred for.
   - bronch for ETT location
   - wean PEEP
   # Pneumonia: Kleb oxytoca pneumonia and sputum with GPCs on gram stain.
     Afebrile overnight. On levofloxacin, vancomycin, aztreonam. Resp
   status seems to be improving.
   - Follow cultures
   - d/c aztreonam
   - Continue levofloxacin for 8 days
   # EKG changes: Sinus bradycardia.  Very low voltages and no change in
   QRS morphology.  P-waves are visible and prolonged PR interval is old.
   CK and troponins flat.  Likely related to increased vagal tone possibly
   related to steroid replacement. Atrial EKG with p-waves c/w sinus
   bradycardia.
   - Will avoid excessive alpha-agonism
   - Continue to monitor
   .
   # Hypotension: now off levophed, with good urine output.  Hypovolemia
   is possibly a factor- responded to a transfusion; HCT had been
   dropping.  However, SVV with Vigileo was 7, making her CO less likely
   to respond to fluids.  Held on giving any boluses overnight.  Today CVP
   is low given PEEP. Sepsis also a consideration.
   - continue abx as above (vanc and levofloxacin)
   - replete fluids.
   - Restart pressors as needed.  Consider dopamine given bradycardia.
   # RUE DVT: Started on heparin gtt on [**9-22**].
   - closely monitor
   # Adrenal Insufficency: Random cortisol was approx 3 when it should
   have been maximally stimulated.
   -  hydrocortisone and florinef for 5 days
   # Anemia:  Stable.
   - Trend HCT
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   - Brother has been with pt, although, live in boyfriend of 10 [**Name2 (NI) 579**] is
   her HCP.
   ICU [**Name2 (NI) 151**]
   Nutrition: tube feed with free water when able, INR rising likely [**2-14**]
   nutritional deficiencies
   Glycemic Control: Regular insulin sliding scale
   DVT: Theraputic Heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition:  ICU

2167-09-25 10:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-9-24**] 04:00 PM
 ARTERIAL LINE - START [**2167-9-24**] 04:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2167-9-23**] 08:00 AM
   Levofloxacin - [**2167-9-24**] 10:00 AM
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2167-9-25**] 09:17 AM
   Ranitidine (Prophylaxis) - [**2167-9-25**] 09:28 AM
   Other medications:
   midaz, fent, colace, H2B, CHG, SQI, MDIs, IV heparin, levoflox,
   aztreonam, vanco, hydrocort, fludrocort,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-25**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 61 (45 - 79) bpm
   BP: 125/65(87) {83/44(59) - 125/84(134)} mmHg
   RR: 22 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
   CVP: 16 (12 - 17)mmHg
   Total In:
                                                                  4,751 mL
                                                                  1,813 mL
   PO:
   TF:
                                                                    773 mL
                                                                    523 mL
   IVF:
                                                                  3,828 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                    465 mL
   Urine:
                                                                  2,325 mL
                                                                    265 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                  2,386 mL
                                                                  1,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 5
   PEEP: 21 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 57.2 cmH2O/mL
   SpO2: 99%
   ABG: ///26/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anterior exam)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.3 g/dL
   374 K/uL
   187 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   6 mg/dL
   113 mEq/L
   144 mEq/L
   27.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2167-9-23**]  01:04 AM
                             [**2167-9-23**]  05:54 AM
                             [**2167-9-23**]  06:11 AM
                             [**2167-9-23**]  11:07 PM
                             [**2167-9-24**]  03:51 AM
                             [**2167-9-24**]  06:17 AM
                             [**2167-9-24**]  07:00 AM
                             [**2167-9-24**]  08:18 AM
                             [**2167-9-24**]  04:18 PM
                             [**2167-9-25**]  03:47 AM
   WBC
   8.1
   8.9
   10.5
   Hct
   28.0
   28.6
   27.5
   Plt
   358
   326
   374
   Cr
   0.7
   0.7
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   28
   26
   26
   21
   28
   Glucose
   126
   151
   153
   187
   Other labs: PT / PTT / INR:20.3/89.3/1.9, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:84.8 %, Lymph:12.5 %,
   Mono:2.4 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: right base opacity; difficult to identify endotracheal
   tube
   Microbiology: Sputum: pan-sensitive Klebs
   Assessment and Plan
   55-year-old woman with
          Unclear location of ETT
          Since only 18cm in holder, we will bronch to confirm correct
   position since an inadvertent extubation might be fatal.
          Respiratory failure
          Oxygenation is improving
          Wean PEEP as tolerated by hypoxemia
          [**Month (only) 8**] eventually need investigation for TBM
          At present, her PEEP is too high to consider tracheostomy
   but if we are able to wean it (and not able to extubate her) would
   consider tracheostomy soon
          Adrenal insufficiency
          Based on very low random cortisol while in shock and
   respiratory failure
          On steroids, has come off and stayed off of pressors.
   Eventually wean, but still getting fluid boluses
          Bradycardia
          Rhythm is sinus, confirmed by CVL-directed
atrial
 lead
          Heart rate increases with stimulation, suggesting that this
   is mostly vagal in etiology
          Klebsiella VAP
          Complete 8d course of levofloxacin
          Discontinue aztreonam
          If [**9-24**] sputum culture remains negative (GPCs on G/S),
   discontinue vancomycin tomorrow
          Shock
 now off of levophed
          Intermittent fluid boluses
          Treating adrenal insufficiency
          Upper extremity DVT
          Therapeutic heparin
          Anemia
          Follow
          Possible tracheobronchomalacia (reason for transfer)
          Incidental peri-appendiceal finding (will need eventual
   follow-up)
          Traumatic thoracic spinal fracture
          Eventual MRI.  Too high-risk at present.  Brace when out of
   bed.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-24**] 07:00 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Arterial Line - [**2167-9-24**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 min
   Patient is critically ill

2167-09-26 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-9-25**] 10:45 AM
   bronchoscopy for reposition of ETT not seen on CHX.  Sedated on total
   250mcg IVP FEntanyl, 2 MG IVP Midaz and cont on IV sedation  for
   precedure.  Provedure completed w/o incedence bacn on previous AC vent
   settings
   Able to wean PEEP throughout the day after bronch
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2167-9-23**] 08:00 AM
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Levofloxacin - [**2167-9-25**] 09:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-25**] 09:28 AM
   Fentanyl - [**2167-9-26**] 01:36 AM
   Midazolam (Versed) - [**2167-9-26**] 01:37 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-26**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 64 (47 - 79) bpm
   BP: 105/55(348) {89/45(61) - 125/84(348)} mmHg
   RR: 20 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 19 (13 - 19)mmHg
   Total In:
                                                                  4,142 mL
                                                                    640 mL
   PO:
   TF:
                                                                  2,219 mL
                                                                    411 mL
   IVF:
                                                                  1,833 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    660 mL
   Urine:
                                                                    800 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,142 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/41/80/24/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, opens eyes
   but no purposeful movement
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No clubbing or cyanosis, 3+ nonpitting edema of b/l hands,
   LE without edema
   Skin:  no rashes or jaundice
   Labs / Radiology
   374 K/uL
   8.7 g/dL
   194 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.9 mEq/L
   8 mg/dL
   111 mEq/L
   142 mEq/L
   27.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2167-9-24**]  06:17 AM
                             [**2167-9-24**]  07:00 AM
                             [**2167-9-24**]  08:18 AM
                             [**2167-9-24**]  04:18 PM
                             [**2167-9-25**]  03:47 AM
                             [**2167-9-25**]  02:14 PM
                             [**2167-9-25**]  04:05 PM
                             [**2167-9-26**]  01:12 AM
                             [**2167-9-26**]  04:00 AM
                             [**2167-9-26**]  04:09 AM
   WBC
   10.5
   9.6
   Hct
   27.5
   27.8
   Plt
   374
   374
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   21
   28
   27
   26
   27
   28
   Glucose
   153
   187
   194
   Other labs: PT / PTT / INR:17.0/84.8/1.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:86.1 %, Lymph:10.3 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   # Respiratory failure:  Intubated on [**9-12**] for resp decompensation.
   Likely [**2-14**] VAP. Unlikely to have tracheomalacia as initially
   transferred for.
   -          wean PEEP
   -          discuss need for trach with patient and her family
   # Pneumonia: Pansensitive Kleb oxytoca pneumonia and sputum with GPCs
   on gram stain.   Afebrile overnight. On levofloxacin since [**9-20**].
   Vancomycin, aztreonam have been stopped. Resp status seems to be
   improving.
   - Follow cultures
   - d/c aztreonam
   - Continue levofloxacin for 8 days (today = day [**7-21**])
   # EKG changes: Sinus bradycardia.  Very low voltages and no change in
   QRS morphology.  P-waves are visible and prolonged PR interval is old.
   CK and troponins flat.  Likely related to increased vagal tone possibly
   related to steroid replacement. Atrial EKG with p-waves c/w sinus
   bradycardia.
   - Will avoid excessive alpha-agonism
   - Continue to monitor
   # Hypotension: Improved, off levophed for 2 days, with good urine
   output.  SVV with Vigileo was 7, making her CO less likely to respond
   to fluids.  CVP increasing with reduction in PEEP.  Unlikely
   hypovolemic or septic.  Likely [**2-14**] poor adrenal response in setting of
   acute illness and very high PEEP.
   -continue fludricort and hydrocortisone for total 5 days (begun [**9-23**])
   -monitor, expect improvement with continual reduction in PEEP
   # RUE DVT: Started on heparin gtt on [**9-22**].
   - closely monitor
   # Adrenal Insufficency: Random cortisol was approx 3 when it should
   have been maximally stimulated.
   -  hydrocortisone and florinef for 5 days
   # Anemia:  Stable.
   - Trend HCT
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   - Brother has been with pt, although, live in boyfriend of 10 [**Name2 (NI) 579**] is
   her HCP.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-25**] 08:13 PM 60 mL/hour, INR rising
   (? Nutritional deficiencies)
   Glycemic Control:  ISS
 titrate sliding scale up if persistent
   hyperglycemia
   Lines:
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Arterial Line - [**2167-9-24**] 04:00 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  ICU consent signed, [**Name (NI) 509**] [**Name (NI) 510**] (brother) [**Telephone/Fax (1) 511**]
   [**Name (NI) 512**] [**Name (NI) 513**] (boyfriend/POA) [**Telephone/Fax (1) 514**]
   Code status: Full code
   Disposition: ICU

2167-09-26 09:49:00 Physician Attending Progress Note
Chief Complaint: shock (resolved), adrenal insuff, resp failure, VAP,
   compression fx,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:     55 yo F w/ prolonged hospital course, etoh abuse with fall and
   thoracic compression fxs who was  tranferred from OSH for evaluation of
   Y stent for BTM, course has been c/b R UE DVT and sepsis with
   hypotension, pressor needs, and resp failure likely [**2-14**] VAP,TBM now
   with failure to wean, still with high PEEP requirements.
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-9-25**] 10:45 AM
   bronchoscopy for reposition of ETT not seen on CHX, samile.  Sedated on
   total 250mcg IVP FEntanyl, 2 MG IVP Midaz and cont on IV sedation  for
   precedure.  Provedure completed w/o incedence bacn on previous AC vent
   settings
 BRONCHOSCOPY - At [**2167-9-25**] 11:03 AM
   Peep decreased to 15
   History obtained from Medical records, HO
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Levofloxacin - [**2167-9-26**] 08:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-9-25**] 09:28 AM
   Midazolam (Versed) - [**2167-9-26**] 08:25 AM
   Fentanyl - [**2167-9-26**] 08:25 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-26**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 55 (47 - 88) bpm
   BP: 116/60(80) {89/45(61) - 135/78(348)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
   CVP: 20 (13 - 20)mmHg
   Total In:
                                                                  4,142 mL
                                                                  1,082 mL
   PO:
   TF:
                                                                  2,219 mL
                                                                    564 mL
   IVF:
                                                                  1,833 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    775 mL
   Urine:
                                                                    800 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,142 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.43/41/80.[**Numeric Identifier 20**]/24/2
   Ve: 7.6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, MMM
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant, Crackles : , Diminished: at bases, No(t) Absent : )
   Abdominal: Bowel sounds present but decreased, Distended, No(t)
   Tender:, Obese,
   Extremities: Right: trace, Left:trace, + depedent, 2+ UE/hand edema
   Skin:  Warm, Rash:
   Neurologic: Attentive, No(t) Follows simple commands,:, Movement:non
   purposeful, Tone: wnl
   Labs / Radiology
   8.7 g/dL
   374 K/uL
   194 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.9 mEq/L
   8 mg/dL
   111 mEq/L
   142 mEq/L
   27.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2167-9-24**]  06:17 AM
                             [**2167-9-24**]  07:00 AM
                             [**2167-9-24**]  08:18 AM
                             [**2167-9-24**]  04:18 PM
                             [**2167-9-25**]  03:47 AM
                             [**2167-9-25**]  02:14 PM
                             [**2167-9-25**]  04:05 PM
                             [**2167-9-26**]  01:12 AM
                             [**2167-9-26**]  04:00 AM
                             [**2167-9-26**]  04:09 AM
   WBC
   10.5
   9.6
   Hct
   27.5
   27.8
   Plt
   374
   374
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   21
   28
   27
   26
   27
   28
   Glucose
   153
   187
   194
   Other labs: PT / PTT / INR:17.0/84.8/1.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:86.1 %, Lymph:10.3 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: cxr--et ok, r ij, b/l effusions layering, increased haziness R
   base
   Microbiology: [**9-20**] Kleb--pan [**Last Name (un) 46**]
   Assessment and Plan
   55 yo F w/ prolonged hospital course, etoh abuse with fall and thoracic
   compression fxs who was  tranferred from OSH for evaluation of Y stent
   for BTM, course has been c/b R UE DVT and sepsis with hypotension,
   pressor needs, and resp failure likely [**2-14**] VAP,TBM now with failure to
   wean, still with high PEEP requirements.
   Main issues remain--
   #  Respiratory failure
       Oxygenation is improving
       Continue to wean PEEP as tolerated following abg/sats
           Once PEEP lower, would consider trach, given prolonged course,
   poor MS, vol overload
       Vol overload with effusions likely also contributing to poor
   wean
off pressors and no longer needing boluses to maintain BP, keep
   I/O goal even to neg 500 cc neg, trend I/os and consider gently IV
   lasix  later today
        [**Month (only) 8**] ultimately benefit form investigation for TBM
   # Adrenal insufficiency
        Had very low random cortisol while in shock and respiratory
   failure
        On steroids, has come off and stayed off of pressors.
        Continue current doses, consider starting wean tomorrow as no
   longer needing fluid boluses and off pressors
   # Bradycardia
          Rhythm is sinus, confirmed by CVL-directed
atrial
 lead
           Heart rate increases with stimulation, suggesting mostly vagal
   in etiology
   # Klebsiella VAP
        Complete 8d course of levofloxacin (day [**7-21**]), received vanco and
   [**Last Name (un) **] which where d/c
d given neg cx data.
   #  Shock
resolved,  remains hemdynamically stable off pressors
          Treating adrenal insufficiency
   # R  Upper extremity DVT
        Therapeutic heparin gtt (continue for now as heading toward trach)
   # Traumatic thoracic spinal fracture
         Eventual MRI.  Too high-risk at present.  Brace when out of bed.
   Ortho trauma following.
   # Glycemic control--tighten SSI for improved control, on steroids
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-25**] 08:13 PM 60 mL/hour
   Comments: increase bowel reg
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Arterial Line - [**2167-9-24**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-09-27 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Anxiety yesterday afternoon and poor sleep overnight per nursing
   - Per ABG, increased FiO2 (40->50%), holding PEEP (15)
   - Gave Lasix 10 mg x 3, with small urine output response.
   - Today is last day of steroids as well as last day of abx
   (levofloxicin)
   - Tightened sliding scale insulin yesterday
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Levofloxacin - [**2167-9-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-9-26**] 04:26 PM
   Furosemide (Lasix) - [**2167-9-26**] 04:30 PM
   Midazolam (Versed) - [**2167-9-27**] 06:16 AM
   Fentanyl - [**2167-9-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-27**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.2
   HR: 66 (53 - 93) bpm
   BP: 111/56(74) {103/52(69) - 135/78(93)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 95% on 400/20/15/.5
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 18 (6 - 21)mmHg
   Total In:
                                                                  2,681 mL
                                                                    687 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    432 mL
   IVF:
                                                                    888 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    185 mL
   Urine:
                                                                  3,035 mL
                                                                    185 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -454 mL
                                                                    502 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.46/39/68/27/3
   Ve: 7.7 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, opens eyes
   but no purposeful movement
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No clubbing or cyanosis, 3+ nonpitting edema of b/l hands,
   LE without edema
   Skin:  no rashes or jaundice
   Labs / Radiology
   411 K/uL
   8.3 g/dL
   163 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   111 mEq/L
   144 mEq/L
   26.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2167-9-25**]  03:47 AM
                             [**2167-9-25**]  02:14 PM
                             [**2167-9-25**]  04:05 PM
                             [**2167-9-26**]  01:12 AM
                             [**2167-9-26**]  04:00 AM
                             [**2167-9-26**]  04:09 AM
                             [**2167-9-26**]  10:18 AM
                             [**2167-9-26**]  02:33 PM
                             [**2167-9-26**]  02:46 PM
                             [**2167-9-27**]  03:31 AM
   WBC
   10.5
   9.6
   9.7
   Hct
   27.5
   27.8
   26.0
   Plt
   374
   374
   411
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   27
   26
   27
   28
   29
   26
   27
   Glucose
   187
   194
   195
   195
   163
   Other labs: PT / PTT / INR:15.3/69.9/1.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:86.1 %, Lymph:10.3 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   # Respiratory failure:  Intubated on [**9-12**] for resp decompensation.
   Likely [**2-14**] VAP. Unlikely to have tracheomalacia as initially
   transferred for.
   -          wean PEEP
   -          Given mild alkalosis, will decrease RR to 18, repeat ABG
   -          discuss need for trach with patient and her family
   -          Will continue gentle diuresis once alkalosis resolved
   # Pneumonia: Pansensitive Kleb oxytoca pneumonia and sputum with GPCs
   on gram stain.   Afebrile overnight. On levofloxacin since [**9-20**].
   Vancomycin, aztreonam have been stopped. Resp status seems to be
   improving.
   - Follow cultures
   - d/c levofloxacin having completed 8 day course
   # Sedation: On versed and fentanyl
   # EKG changes: Sinus bradycardia, now somewhat improved.  Likely
   related to increased vagal tone possibly related to steroid
   replacement.  Atrial EKG shows p-waves and cardiac enzymes normal.
   - Continue to monitor
   # Hypotension: Improved, off levophed for 2-3 days now, with good urine
   output.  CVP increasing with reduction in PEEP.  Likely [**2-14**] poor
   adrenal response in setting of acute illness and very high PEEP.
   -D/C fludricort and hydrocortisone now that the 5 day steroid course is
   complete
   -monitor, expect improvement with continual reduction in PEEP
   # RUE DVT: Started on heparin gtt on [**9-22**], now therapeutic.  Follow
   PTTs.  Would hold off on coumadin at least until s/p trach.
   - continue to monitor
   # Adrenal Insufficency: Random cortisol was approx 3 when it should
   have been maximally stimulated.
   -  hydrocortisone and florinef for 5 days
   # Anemia:  Stable.
   - Trend HCT
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   FEN/GI:  Tube feeds @ goal
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-26**] 08:13 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Arterial Line - [**2167-9-24**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2167-09-27 10:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo F w/ prolonged hospital course, etoh abuse with fall and thoracic
   compression fxs who was  tranferred from OSH for evaluation of Y stent
   for BTM, course has been c/b R UE DVT and sepsis with hypotension,
   pressor needs, and resp failure likely [**2-14**] VAP,TBM now with failure to
   wean, still with high PEEP requirements.
   24 Hour Events:
 EKG - At [**2167-9-26**] 12:00 PM
   low voltage, pre Haldol administration QRS .46
   lasix X 3 doses with good urine output
   peep held at 15, fio2 increased to 50%
   History obtained from ho
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Levofloxacin - [**2167-9-27**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-9-26**] 04:26 PM
   Furosemide (Lasix) - [**2167-9-26**] 04:30 PM
   Midazolam (Versed) - [**2167-9-27**] 06:16 AM
   Fentanyl - [**2167-9-27**] 06:16 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-27**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 61 (53 - 93) bpm
   BP: 137/70(95) {103/52(69) - 137/70(95)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
   CVP: 19 (6 - 21)mmHg
   Total In:
                                                                  2,679 mL
                                                                  1,165 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    639 mL
   IVF:
                                                                    886 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    305 mL
   Urine:
                                                                  3,035 mL
                                                                    305 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -456 mL
                                                                    860 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.46/39/68/27/3
   Ve: 7.8 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   411 K/uL
   163 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   111 mEq/L
   144 mEq/L
   26.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2167-9-25**]  03:47 AM
                             [**2167-9-25**]  02:14 PM
                             [**2167-9-25**]  04:05 PM
                             [**2167-9-26**]  01:12 AM
                             [**2167-9-26**]  04:00 AM
                             [**2167-9-26**]  04:09 AM
                             [**2167-9-26**]  10:18 AM
                             [**2167-9-26**]  02:33 PM
                             [**2167-9-26**]  02:46 PM
                             [**2167-9-27**]  03:31 AM
   WBC
   10.5`
   1q
   9.6
   9.7
   Hct
   27.5
   27.8
   26.0
   Plt
   374
   374
   411
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   27
   26
   27
   28
   29
   26
   27
   Glucose
   187
   194
   195
   195
   163
   Other labs: PT / PTT / INR:15.3/69.9/1.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:86.1 %, Lymph:10.3 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr--et, og,r IJ in good position, slightly improved aeration
   at r and l base, still with b/l effusions, opacaities
   Microbiology: no new data
   Assessment and Plan
   55 yo F w/ prolonged hospital course, etoh abuse with fall and thoracic
   compression fxs who was  tranferred from OSH for evaluation of Y stent
   for BTM, course has been c/b R UE DVT and sepsis with hypotension,
   pressor needs, and resp failure likely [**2-14**] VAP,TBM now with failure to
   wean, still with high PEEP requirements.
   Main issues remain--
   #  Respiratory failure
       Continue to wean PEEP as tolerated following abg/sats
           Once PEEP lower, heading toward trach, given prolonged course,
   poor MS, vol overload
          Vol overload with effusions likely also contributing to poor
   wean
off pressors and no longer needing boluses to maintain BP, keep
   I/O goal even to neg 500 cc neg, trend I/os and continue IV lasix today
        [**Month (only) 8**] ultimately benefit form investigation for TBM
        Decrease RR on vent to optimize pH
   # Adrenal insufficiency
        Had very low random cortisol while in shock and respiratory
   failure
        On steroids, has come off and stayed off of pressors.
        cpmplete 5 day course of stress dose steroids--will discontinue
   after today.
   # Bradycardia
          Rhythm is sinus, confirmed by CVL-directed
atrial
 lead
          Heart rate increases with stimulation, suggesting mostly vagal
   in etiology
   # Klebsiella VAP
        complete course of levofloxacin today (day [**8-21**]), received vanco
   and [**Last Name (un) **] which where d/c
d given neg cx data.
   #  Shock
resolved,  remains hemdynamically stable off pressors
          Treating adrenal insufficiency as above
   # R  Upper extremity DVT
        Therapeutic heparin gtt (continue for now as heading toward trach)
   # Traumatic thoracic spinal fracture
         Eventual MRI.  Too high-risk at present.  Brace when out of bed.
   Ortho trauma following.
   # Glycemic control--imporved control with tightened SSI while on
   steroids
   Other issues as per ICU team note.  Put in for picc placement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-26**] 08:13 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-9-21**] 11:30 AM
   Arterial Line - [**2167-9-24**] 04:00 PM
   Comments: put in for picc line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-09-28 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PICC placed, Central line d/c'd
   Lasix 10 mg given with 400 cc UOP in afternoon, pH improved
   Lasix 20 mg given at ~ 4AM.
   Lots of thick sinus secreations
   Delerium/anxiety overnight with periods of hypertension.
   Could not draw of A-line.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-9-25**] 06:00 AM
   Vancomycin - [**2167-9-25**] 09:00 AM
   Levofloxacin - [**2167-9-27**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-9-28**] 03:01 AM
   Midazolam (Versed) - [**2167-9-28**] 04:36 AM
   Fentanyl - [**2167-9-28**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-28**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 90 (47 - 92) bpm
   BP: 118/59(80) {80/40(53) - 137/105(111)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
    CVP: 19 (16 - 19)mmHg
   Total In:
                                                                  2,560 mL
                                                                    543 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    342 mL
   IVF:
                                                                  1,020 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    860 mL
   Urine:
                                                                  1,680 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                   -317 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.41/45/77.[**Numeric Identifier 253**]/28/2
   Ve: 6.5 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, opens eyes
   but no purposeful movement
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No clubbing or cyanosis, 3+ nonpitting edema of b/l hands,
   LE without edema
   Skin:  no rashes or jaundice
   Labs / Radiology
   411 K/uL
   8.3 g/dL
   133 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   13 mg/dL
   111 mEq/L
   145 mEq/L
   26.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2167-9-25**]  04:05 PM
                             [**2167-9-26**]  01:12 AM
                             [**2167-9-26**]  04:00 AM
                             [**2167-9-26**]  04:09 AM
                             [**2167-9-26**]  10:18 AM
                             [**2167-9-26**]  02:33 PM
                             [**2167-9-26**]  02:46 PM
                             [**2167-9-27**]  03:31 AM
                             [**2167-9-27**]  02:26 PM
                             [**2167-9-27**]  05:53 PM
   WBC
   9.6
   9.7
   Hct
   27.8
   26.0
   Plt
   374
   411
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   27
   28
   29
   26
   27
   30
   Glucose
   194
   195
   195
   163
   133
   Other labs: PT / PTT / INR:15.3/69.9/1.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:86.1 %, Lymph:10.3 %,
   Mono:2.8 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   # Respiratory failure:  Intubated on [**9-12**] for resp decompensation.
   Likely [**2-14**] VAP. Transferred here for tracheomalacia, but not sure this
   is a component.  Will need bronch eval when improved
   - will discuss PEEP goal for trach placement with IP.
   - wean PEEP
   - repeat ABG this AM
   - discuss need for trach with patient and her family
   - Volume overload may be contributing.
   # Volume overload
 Currently with hypernatremia, Cr increase, contract
   alk, but mild
   - continue gentle diuresis
   - FW in TF at 150 cc q4hrs
   - PM lytes.
   # Sedation: On versed  3mg/hr + .5 q 1hr and fentanyl  150 mcg/hr + 50
   bolus q 1hr.
   - Start fentanyl patch and diazepam to provide long acting analgesia
   and wean from drips
   - Haldol 1 mg Q4h PRN agitation
   # Pneumonia: Pansensitive Kleb oxytoca pneumonia and sputum with GPCs
   on gram stain.   Afebrile off abx.
   # EKG changes: Sinus bradycardia, responsive to stress.  Related to
   sedation, increased vagal tone, possibly related to steroid
   replacement.  Atrial EKG shows p-waves and cardiac enzymes normal.
   - Continue to monitor
   # Hypotension: Improved, off levophed for 2-3 days now, with good urine
   output.  s/p 5 d course of steroids for adrenal insufficiency.  High
   PEEP may have been contributing.  Now likely related to sedation and
   decreased intravascular volume,
   -monitor, expect improvement with continual reduction in
   PEEP
   # RUE DVT: Started on heparin gtt on [**9-22**], now therapeutic.  Follow
   PTTs.  Would hold off on coumadin at least until s/p trach.
   - continue to monitor
   # Adrenal Insufficency: Random cortisol was approx 3 when it should
   have been maximally stimulated.
   -  hydrocortisone and florinef for 5 days
   # Anemia:  Stable.
   - Trend HCT
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   FEN/GI:  Tube feeds @ goal
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-27**] 08:12 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-9-24**] 04:00 PM
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-09-29 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-9-28**] 09:00 PM - attempted to re-wire but
   patient was very agitated and re-wire was unsuccessful
   Patient alternated between tachycardia and normotension and hypotension
   in the high-80s/low 90s and HRs in the 50s
   Given haldol, valium, midaz and fentanyl for sedation
   ABG with low paO2 on PEEP 10, had to increase -- went back up to 15 and
   then attempted to re-wean down with goal 8 in anticipation of OR
   To OR for trach and PEG today (thoracics)
   Put on lasix drip and put out >1L in just over an hour
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-27**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2167-9-28**] 06:45 PM
   Ranitidine (Prophylaxis) - [**2167-9-28**] 08:00 PM
   Haloperidol (Haldol) - [**2167-9-28**] 10:00 PM
   Midazolam (Versed) - [**2167-9-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-29**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (55 - 134) bpm
   BP: 120/56(70) {80/43(51) - 133/85(94)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,064 mL
                                                                    404 mL
   PO:
             TF:
                                                                  1,440 mL
   IVF:
                                                                  1,014 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  4,257 mL
                                                                  1,195 mL
   Urine:
                                                                  4,257 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,193 mL
                                                                   -791 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.46/48/65/31/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   8.0 g/dL
   94 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   13 mg/dL
   110 mEq/L
   147 mEq/L
   25.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2167-9-26**]  10:18 AM
                             [**2167-9-26**]  02:33 PM
                             [**2167-9-26**]  02:46 PM
                             [**2167-9-27**]  03:31 AM
                             [**2167-9-27**]  02:26 PM
                             [**2167-9-27**]  05:53 PM
                             [**2167-9-28**]  05:01 AM
                             [**2167-9-28**]  03:32 PM
                             [**2167-9-28**]  10:19 PM
                             [**2167-9-29**]  02:50 AM
   WBC
   9.7
   9.5
   9.0
   Hct
   26.0
   27.6
   25.8
   Plt
   [**Telephone/Fax (3) 767**]
   Cr
   0.5
   0.5
   0.5
   0.6
   0.6
   TCO2
   29
   26
   27
   30
   30
   35
   Glucose
   195
   195
   163
   133
   102
   94
   Other labs: PT / PTT / INR:14.1/59.6/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:71.2 %, Lymph:22.7 %,
   Mono:4.0 %, Eos:1.7 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with respiratory failure
   and difficulty weaning from vent.
   # Respiratory failure:  Intubated on [**9-12**] for resp decompensation.
   Likely [**2-14**] VAP. Transferred here for tracheomalacia, but not sure this
   is a component.  Will need bronch eval when improved
   - will discuss PEEP goal for trach placement with IP.
   - wean PEEP
   - repeat ABG this AM
   - discuss need for trach with patient and her family
   - Volume overload may be contributing.
   # Volume overload
 Currently with hypernatremia, Cr increase, contract
   alk, but mild
   - continue gentle diuresis
   - FW in TF at 150 cc q4hrs
   - PM lytes.
   # Sedation: On versed  3mg/hr + .5 q 1hr and fentanyl  150 mcg/hr + 50
   bolus q 1hr.
   - Start fentanyl patch and diazepam to provide long acting analgesia
   and wean from drips
   - Haldol 1 mg Q4h PRN agitation
   # Pneumonia: Pansensitive Kleb oxytoca pneumonia and sputum with GPCs
   on gram stain.   Afebrile off abx.
   # EKG changes: Sinus bradycardia, responsive to stress.  Related to
   sedation, increased vagal tone, possibly related to steroid
   replacement.  Atrial EKG shows p-waves and cardiac enzymes normal.
   - Continue to monitor
   # Hypotension: Improved, off levophed for 2-3 days now, with good urine
   output.  s/p 5 d course of steroids for adrenal insufficiency.  High
   PEEP may have been contributing.  Now likely related to sedation and
   decreased intravascular volume,
   -monitor, expect improvement with continual reduction in
   PEEP
   # RUE DVT: Started on heparin gtt on [**9-22**], now therapeutic.  Follow
   PTTs.  Would hold off on coumadin at least until s/p trach.
   - continue to monitor
   # Adrenal Insufficency: Random cortisol was approx 3 when it should
   have been maximally stimulated.
   -  hydrocortisone and florinef for 5 days
   # Anemia:  Stable.
   - Trend HCT
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   FEN/GI:  Tube feeds @ goal
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-09-30 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2167-9-29**] 02:00 PM - in right brachial atery
   Hypotensive- started on levophed, weaned off over night
   Low cortisol and failed [**Last Name (un) **] stim test - started on steroids
   TTE ordered
   Free water flushes were increased for hypernatremia (250cc q4)
   Able to hear patient breathing at times during exam this am (poor am
   CXR, reordered)
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-9-27**] 08:06 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-9-30**] 12:15 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-30**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 63 (48 - 138) bpm
   BP: 91/41(58) {68/30(49) - 143/78(105)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
    Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                  3,898 mL
                                                                  1,155 mL
   PO:
   TF:
                                                                    802 mL
                                                                    348 mL
   IVF:
                                                                  2,126 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  2,367 mL
                                                                    800 mL
   Urine:
                                                                  2,367 mL
                                                                    800 mL
   NG:
   Stool:
                                                                         ?
                                                                         ?
   Drains:
   Balance:
                                                                  1,531 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 401) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 91%
   ABG: 7.42/49/93/33/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Easily agitated, appears uncomfortable, Overweight
   / Obese, opens eyes but no purposeful movement
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), referred breath sounds
   from ETT
   Abdominal: No(t) Soft, Non-tender, Few Bowel sounds present, Distended
   Extremities: No clubbing or cyanosis, 3+ nonpitting edema of b/l hands,
   anasarca
   Skin:  no rashes or jaundice
   Neuro: diffusely hyperreflexic with LE clonus
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   355 K/uL
   9.1 g/dL
   168 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   11 mg/dL
   108 mEq/L
   146 mEq/L
   29.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2167-9-28**]  03:32 PM
                             [**2167-9-28**]  10:19 PM
                             [**2167-9-29**]  02:50 AM
                             [**2167-9-29**]  02:30 PM
                             [**2167-9-29**]  02:44 PM
                             [**2167-9-29**]  03:33 PM
                             [**2167-9-29**]  07:26 PM
                             [**2167-9-29**]  07:46 PM
                             [**2167-9-30**]  02:04 AM
                             [**2167-9-30**]  02:18 AM
   WBC
   9.0
   8.4
   11.8
   Hct
   25.8
   23.0
   28.1
   29.9
   Plt
   [**Telephone/Fax (3) 799**]
   Cr
   0.6
   0.7
   0.5
   TCO2
   30
   35
   33
   31
   33
   Glucose
   94
   97
   168
   Other labs: PT / PTT / INR:13.8/70.4/1.2, Differential-Neuts:89.7 %,
   Lymph:8.7 %, Mono:1.1 %, Eos:0.4 %, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.4 mg/dL
   TSH 2.9; FT4 1.5; [**Last Name (un) 567**] stim 3.1, 10.5, 10.6
   Culture Data: [**9-20**] endotrach with K oxytoca; [**9-24**] gram stain GPCs in
   pairs and clusters
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **].
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.
   Transferred here for airway stenting.  Will need bronch eval when
   improved.
   - Thoracics will do trach and PEG once stable on PEEPs around 10.
   Re-c/s today.
   - wean PEEP as tolerated
   # # Adrenal Insufficency: Minimal response to [**Last Name (un) **] stim test again.
   -          hydrocort and fludrocort (day 1 = [**9-30**])
   -          endocrine c/s for further elucidation of etiology
   # Hypotension:  Likely [**2-14**] adrenal insufficiency. Goal map > 60.
   -          hydrocortisol and fludrocortisone as above
   -          restart levophed if necessary to maintain MAP > 60
   # Volume overloaded in setting of hypernatremia (? Relationship to
   adrenal insufficiency), TBW deficit 2.6L.
   - goal even to -500cc I/Os today
   - continue FW in TF at 250 cc q4hrs
   - lasix drip (1-5mg/hr) when MAP > 60
   # Hyperreflexia - ? [**2-14**] meds vs central pathology.  Unlikely to be [**2-14**]
   intracranial hemorrhage as patient is diffusely hyperreflexic.
   Possible relationship to endocrine pathology?
   -          consider head CT in setting of heparin gtt
   -          monitor
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely starting increase to therapeutic range
   today. On Versed 1.5, Fentanyl 175, Fentanyl patch, Diazepam standing
   and haldo 2.5-5 mg PRN.  QTc stable at .44.
   -          Wean versed/fentanyl as tolerated, continue diazepam and prn
   haldol
   -          Recheck EKG today
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - hold heparin gtt when anticipate trach/peg
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   # FEN/GI:  Tube feeds @ goal.
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-9-29**] 09:51 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-01 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Thorasics will take to OR if 24 hours stable on PEEP < 10, was on PEEP
   of 8 since [**69**] AM
   Weaned off midazolam drip
   NPO past midnight for possible OR tomorrow (attendings are in clinic,
   however)
   Endocrine recs: Continue steroids until stable, then taper
   ABG for low O2 sat, looked good, held on FiO2 of 50
   Broncoscopy (11:30AM) : Diffuse stuctural instability c/w
   tracheomalacia
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-9-30**] 11:47 PM
   Midazolam (Versed) - [**2167-10-1**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-1**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 104 (46 - 134) bpm
   BP: 134/69(98) {88/41(57) - 143/76(103)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,162 mL
                                                                    139 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                      1 mL
   IVF:
                                                                  1,003 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    640 mL
   Urine:
                                                                  1,615 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,547 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.42/47/86.[**Numeric Identifier 253**]/29/4
   Ve: 6.8 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Easily agitated, appears uncomfortable, Overweight
   / Obese, opens eyes but no purposeful movement
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), referred breath sounds
   from ETT
   Abdominal: No(t) Soft, Non-tender, Few Bowel sounds present, Distended
   Extremities: No clubbing or cyanosis, 3+ nonpitting edema of b/l hands,
   anasarca
   Skin:  no rashes or jaundice
   Neuro: diffusely hyperreflexic with LE clonus
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   280 K/uL
   8.0 g/dL
   136 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   11 mg/dL
   105 mEq/L
   143 mEq/L
   25.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2167-9-29**]  02:44 PM
                             [**2167-9-29**]  03:33 PM
                             [**2167-9-29**]  07:26 PM
                             [**2167-9-29**]  07:46 PM
                             [**2167-9-30**]  02:04 AM
                             [**2167-9-30**]  02:18 AM
                             [**2167-9-30**]  01:27 PM
                             [**2167-9-30**]  03:06 PM
                             [**2167-9-30**]  10:04 PM
                             [**2167-10-1**]  03:00 AM
   WBC
   8.4
   11.8
   8.6
   Hct
   23.0
   28.1
   29.9
   25.9
   Plt
   [**Telephone/Fax (3) 847**]
   Cr
   0.5
   0.6
   0.5
   TCO2
   33
   31
   33
   32
   32
   Glucose
   168
   176
   136
   Other labs: PT / PTT / INR:13.2/26.6/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:89.7 %, Lymph:8.7 %, Mono:1.1
   %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:204 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: BAL fluid:
   WBC: 0
   RBC: 0
   Polys: 82
   Lymphs: 3
   Monos: 6
   Eos: 2
   Macro: 7
   Imaging: ECHOCARDIOGRAM:  The left atrium is elongated. No atrial
   septal defect is seen by 2D or color Doppler. The right atrial pressure
   is indeterminate. Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%). There is no
   ventricular septal defect. Right ventricular chamber size and free wall
   motion are normal. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen.
   The mitral valve appears structurally normal with trivial mitral
   regurgitation. There is no mitral valve prolapse. The tricuspid valve
   leaflets are mildly thickened. There is moderate pulmonary artery
   systolic hypertension. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2167-9-21**], no
   change.
   Microbiology: BRONCHIAL LAVAGE:
      GRAM STAIN (Final [**2167-9-30**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **].
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.
   Transferred here for airway stenting.  Will need bronch eval when
   improved.
   - Thoracics will do trach and PEG once stable on PEEPs around 10.
   Re-c/s today.
   - wean PEEP as tolerated
   # # Adrenal Insufficency: Minimal response to [**Last Name (un) **] stim test again.
   -          hydrocort and fludrocort (day 1 = [**9-30**])
   -          endocrine c/s for further elucidation of etiology
   # Hypotension:  Likely [**2-14**] adrenal insufficiency. Goal map > 60.
   -          hydrocortisol and fludrocortisone as above
   -          restart levophed if necessary to maintain MAP > 60
   # Volume overloaded in setting of hypernatremia (? Relationship to
   adrenal insufficiency), TBW deficit 2.6L.
   - goal even to -500cc I/Os today
   - continue FW in TF at 250 cc q4hrs
   - lasix drip (1-5mg/hr) when MAP > 60
   # Hyperreflexia - ? [**2-14**] meds vs central pathology.  Unlikely to be [**2-14**]
   intracranial hemorrhage as patient is diffusely hyperreflexic.
   Possible relationship to endocrine pathology?
   -          consider head CT in setting of heparin gtt
   -          monitor
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely starting increase to therapeutic range
   today. On Versed 1.5, Fentanyl 175, Fentanyl patch, Diazepam standing
   and haldo 2.5-5 mg PRN.  QTc stable at .44.
   -          Wean versed/fentanyl as tolerated, continue diazepam and prn
   haldol
   -          Recheck EKG today
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - hold heparin gtt when anticipate trach/peg
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   # FEN/GI:  Tube feeds @ goal.
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-01 10:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-9-30**] 11:30 AM
   Midaz weaned.
   Heparin held due to potential OR today, but now on schedule for
   tomorrow for trach.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-9-30**] 11:47 PM
   Midazolam (Versed) - [**2167-10-1**] 02:45 AM
   Other medications:
   SQI, H2B, MDIs, CHG, colace, tears, florinef, hydrocort 50q6,
   duragesic, valium 10mg q6, Lasix @ 3
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-1**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 107 (46 - 121) bpm
   BP: 147/79(111) {88/41(57) - 148/85(113)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,162 mL
                                                                    266 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                      1 mL
   IVF:
                                                                  1,003 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                  1,500 mL
   Urine:
                                                                  1,615 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,547 mL
                                                                 -1,234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 89%
   ABG: 7.42/47/86.[**Numeric Identifier 253**]/29/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.0 g/dL
   280 K/uL
   136 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   11 mg/dL
   105 mEq/L
   143 mEq/L
   25.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2167-9-29**]  02:44 PM
                             [**2167-9-29**]  03:33 PM
                             [**2167-9-29**]  07:26 PM
                             [**2167-9-29**]  07:46 PM
                             [**2167-9-30**]  02:04 AM
                             [**2167-9-30**]  02:18 AM
                             [**2167-9-30**]  01:27 PM
                             [**2167-9-30**]  03:06 PM
                             [**2167-9-30**]  10:04 PM
                             [**2167-10-1**]  03:00 AM
   WBC
   8.4
   11.8
   8.6
   Hct
   23.0
   28.1
   29.9
   25.9
   Plt
   [**Telephone/Fax (3) 847**]
   Cr
   0.5
   0.6
   0.5
   TCO2
   33
   31
   33
   32
   32
   Glucose
   168
   176
   136
   Other labs: PT / PTT / INR:13.2/26.6/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:89.7 %, Lymph:8.7 %, Mono:1.1
   %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:204 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   CXR with slightly increased right base opacity, but lower lung
   volumes.  Retrocardiac opacity.
   Assessment and Plan
   55 y/o woman with thoracic spinal fracture (mechanical after fall)
   complicated by ARDS from VAP, UE DVT, and adrenal insufficiency.
   Respiratory failure
   Try RSBI/SBT today.  If not extubatable, plan trach/G tomorrow
   Diurese with Lasix gtt
   [**Month (only) 8**] eventually need rx of tracheobronchomalacia
   s/p treatment for Klebsiella VAP acquired at OSH
   Shock / adrenal insufficiency
   She has essentially proven adrenal insufficiency, with a baseline
   cortisol that was very low on pressors and a vent, followed by
   resolution of shock with steroids, followed by recrudescence of shock
   when steroids stopped, followed by resolution of shock with steroids (a
   second time).
   Continue steroids at current dose until after tracheostomy/PEG.
   Appreciate endocrine
s help.
   DVT (UE)
   Resume heparin until several hours before O.R.
   Nutrition / Lytes
   Will restart tube feeds and free water boluses for hypernatremia.
   Spine fractures
   Continue spinal stabilization with brace when OOB; will eventually need
   MRI for further evaluation.  Would wait until she has a surgical airway
   if she does not pass SBT today.
   ICU Care
   Nutrition: resume TF
   Comments: Held for possible OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Restart Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: with brother and boyfriend [**Name (NI) 225**]
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2167-10-02 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient agitated and combative overnight - restarted midazolam gtt and
   patient was becoming increasingly tachycardic and hypertensive
   Thoracics to take to OR this am for trach and PEG
   Discussion with patient's boyfriend yesterday - her should be here this
   weekend, wants to be involved, just hard for him to get here
   On lasix drip with excellent response (200 cc urine/hour)
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 1,700 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-2**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 118 (45 - 138) bpm
   BP: 155/84(118) {91/38(56) - 177/106(139)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,604 mL
                                                                  1,447 mL
   PO:
             TF:
                                                                    675 mL
                                                                     17 mL
   IVF:
                                                                  1,089 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  4,130 mL
                                                                  2,430 mL
   Urine:
                                                                  4,130 mL
                                                                  2,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,526 mL
                                                                   -983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 48.2 cmH2O/mL
   SpO2: 90%
   ABG: 7.45/50/67/36/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Responsive, following commands, Overweight / Obese,
   NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), referred breath sounds
   from ETT, mild rhonchi diffusely
   Abdominal: Obese, Soft, Non-tender, no rebound, no guarding
   Extremities: No clubbing or cyanosis, [**1-14**]+ nonpitting edema of b/l
   hands, anasarca
   Skin:  no rashes or jaundice
   Neuro: alert. Strength 4/5 upper and lower extremeties, light touch
   sensation intact bil.
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   306 K/uL
   8.5 g/dL
   165 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   146 mEq/L
   27.1 %
   11.2 K/uL
        [image002.jpg]
   WBC 11.2 up from 8.6
   HCT 27.1 up from 25.9
   HCO2 32 up from 29
                             [**2167-9-30**]  02:18 AM
                             [**2167-9-30**]  01:27 PM
                             [**2167-9-30**]  03:06 PM
                             [**2167-9-30**]  10:04 PM
                             [**2167-10-1**]  03:00 AM
                             [**2167-10-1**]  10:47 AM
                             [**2167-10-1**]  04:10 PM
                             [**2167-10-2**]  12:13 AM
                             [**2167-10-2**]  05:08 AM
                             [**2167-10-2**]  05:20 AM
   WBC
   8.6
   11.2
   Hct
   25.9
   27.1
   Plt
   280
   306
   Cr
   0.6
   0.5
   0.7
   TCO2
   33
   32
   32
   34
   36
   36
   Glucose
   176
   136
   165
   Other labs: PT / PTT / INR:13.2/68.7/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:89.7 %, Lymph:8.7 %, Mono:1.1
   %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:204 IU/L,
   Ca++:10.6 mg/dL, Mg++:2.8 mg/dL, PO4:4.3 mg/dL
   MICRO: [**2167-9-24**] sputum Gram stain: 2+ GPC in P/C, 2+ GPR. Cx: sparse
   flora, sparse yeast
   MICRO: [**2167-9-30**] MiniBAL: Gram stain: 2+PMNs, Cx: GNR #1, GNR#2, yeast.
   CXR: Poor penetration, hazy opacification of both lung fields R>L,
   patchy opacities in LLL, new. Focal atelectasis vs. PNA
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **].
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.
   Transferred here for airway stenting.
   - attempt SBT yesterday. Failed.
   -To OR today [**10-2**], add-on for trach and PEG with Dr. [**Last Name (STitle) 853**] (tube feeds
   off after MN, heparin off after 6am)
   - Repeat CXR in PM post trach.
   ## Adrenal Insufficency: Minimal response to [**Last Name (un) **] stim test again.
   Appreciate endocrine recommendations.
   -          hydrocort and fludrocort (day 1 = [**9-30**])
   -          will continue at current dose until s/p trach and PEG and
   hemodynamically stable for 24 hours
 will then plan to taper
   hydrocortisone to 25mg IV q6 with a slow taper
   -          f/u daily endocrine recs
   -          Endocrine recs: d/c Fludrocort. Continue Hydrocort for now.
   # Hypotension:  Likely [**2-14**] adrenal insufficiency and sedation. Goal map
   > 60.  Much improved since re-administration of steroids.
   -          hydrocortisone as above
   -          restart levophed if necessary to maintain MAP > 60
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - goal -1000cc I/Os yesterday, was -1500cc for last 24 hours.
   - continue FW in TF at 250 cc q4hrs
   - lasix drip (1-5mg/hr) held before surgery, will restart when returns
   to MICU.
   - may have some contraction alkalosis, w/ rising pH and bicarb. Start
   Diamox 500mg TID to decrease bicarb and pH and may improve respiratory
   drive.
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -  Wean versed/fentanyl as tolerated, continue diazepam. Avoid haldol
   use if possible to avoid further prolongation of QTc
   -  Will reassess sedation/agitation after PEG/Trach.
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - hold heparin gtt when anticipate trach/peg
   - will restart heparin gtt per recs from surgery post-op
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # FEN/GI:  Tube feeds with FWF @ goal.
   -held for surgery. Will restart based on post-op recs after PEG
   placement.
   DVT: Treatment dose heparin, holding until post-op recs from PEG/Trach
   Ulcer: Ranitidine
   VAP: Prevention per routine
   # Access: L PICC line, and R brachial a-line
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
    -         touch base with SW today
   Code: Full
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-03 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   # To OR for Peg and Trach placement
   # Desatted in the evening to 84%, increased PEEP and FiO2
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-3**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 111 (44 - 133) bpm
   BP: 127/63(90) {90/46(63) - 165/89(123)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,751 mL
                                                                    534 mL
   PO:
             TF:
                                                                     17 mL
   IVF:
                                                                  1,834 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  6,600 mL
                                                                    950 mL
   Urine:
                                                                  6,600 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,849 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.45/43/81.[**Numeric Identifier **]/29/4
   Ve: 7.6 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General Appearance: Responsive, following commands, Overweight / Obese,
   NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), referred breath sounds
   from ETT, mild rhonchi diffusely
   Abdominal: Obese, Soft, Non-tender, no rebound, no guarding
   Extremities: No clubbing or cyanosis, [**1-14**]+ nonpitting edema of b/l
   hands, anasarca
   Skin:  no rashes or jaundice
   Neuro: alert. Strength 4/5 upper and lower extremeties, light touch
   sensation intact bil.
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   256 K/uL
   7.8 g/dL
   106 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   7 mg/dL
   110 mEq/L
   144 mEq/L
   25.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2167-10-1**]  03:00 AM
                             [**2167-10-1**]  10:47 AM
                             [**2167-10-1**]  04:10 PM
                             [**2167-10-2**]  12:13 AM
                             [**2167-10-2**]  05:08 AM
                             [**2167-10-2**]  05:20 AM
                             [**2167-10-2**]  05:17 PM
                             [**2167-10-2**]  11:41 PM
                             [**2167-10-3**]  03:06 AM
                             [**2167-10-3**]  03:38 AM
   WBC
   8.6
   11.2
   10.6
   10.0
   Hct
   25.9
   27.1
   27.3
   25.8
   Plt
   280
   306
   321
   256
   Cr
   0.5
   0.7
   0.5
   0.5
   0.6
   TCO2
   34
   36
   36
   32
   31
   Glucose
   136
   165
   143
   110
   94
   111
   106
   Other labs: PT / PTT / INR:13.6/24.4/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:13.1 %,
   Mono:2.7 %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **].
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.
   Transferred here for airway stenting.
   - attempt SBT yesterday. Failed.
   -To OR today [**10-2**], add-on for trach and PEG with Dr. [**Last Name (STitle) 853**] (tube feeds
   off after MN, heparin off after 6am)
   - Repeat CXR in PM post trach.
   ## Adrenal Insufficency: Minimal response to [**Last Name (un) **] stim test again.
   Appreciate endocrine recommendations.
   -          hydrocort and fludrocort (day 1 = [**9-30**])
   -          will continue at current dose until s/p trach and PEG and
   hemodynamically stable for 24 hours
 will then plan to taper
   hydrocortisone to 25mg IV q6 with a slow taper
   -          f/u daily endocrine recs
   -          Endocrine recs: d/c Fludrocort. Continue Hydrocort for now.
   # Hypotension:  Likely [**2-14**] adrenal insufficiency and sedation. Goal map
   > 60.  Much improved since re-administration of steroids.
   -          hydrocortisone as above
   -          restart levophed if necessary to maintain MAP > 60
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - goal -1000cc I/Os yesterday, was -1500cc for last 24 hours.
   - continue FW in TF at 250 cc q4hrs
   - lasix drip (1-5mg/hr) held before surgery, will restart when returns
   to MICU.
   - may have some contraction alkalosis, w/ rising pH and bicarb. Start
   Diamox 500mg TID to decrease bicarb and pH and may improve respiratory
   drive.
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -  Wean versed/fentanyl as tolerated, continue diazepam. Avoid haldol
   use if possible to avoid further prolongation of QTc
   -  Will reassess sedation/agitation after PEG/Trach.
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - hold heparin gtt when anticipate trach/peg
   - will restart heparin gtt per recs from surgery post-op
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # FEN/GI:  Tube feeds with FWF @ goal.
   -held for surgery. Will restart based on post-op recs after PEG
   placement.
   DVT: Treatment dose heparin, holding until post-op recs from PEG/Trach
   Ulcer: Ranitidine
   VAP: Prevention per routine
   # Access: L PICC line, and R brachial a-line
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
    -         touch base with SW today
   Code: Full
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-04 05:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hydrocortisone dose to 25 Q6 per renal recs.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,700 units/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-10-3**] 09:00 AM
   Midazolam (Versed) - [**2167-10-3**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-4**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 66 (50 - 131) bpm
   BP: 103/46(65) {100/46(65) - 157/102(127)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,984 mL
                                                                    948 mL
   PO:
             TF:
                                                                    103 mL
                                                                    121 mL
   IVF:
                                                                    747 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  5,270 mL
                                                                  1,420 mL
   Urine:
                                                                  5,270 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,286 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 14 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 93%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Responsive, following commands, Overweight / Obese,
   NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), referred breath sounds
   from ETT, mild rhonchi diffusely
   Abdominal: Obese, Soft, Non-tender, no rebound, no guarding
   Extremities: No clubbing or cyanosis, [**1-14**]+ nonpitting edema of b/l
   hands, anasarca
   Skin:  no rashes or jaundice
   Neuro: alert. Strength 4/5 upper and lower extremeties, light touch
   sensation intact bil.
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   279 K/uL
   8.0 g/dL
   121 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   8 mg/dL
   109 mEq/L
   143 mEq/L
   24.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2167-10-1**]  04:10 PM
                             [**2167-10-2**]  12:13 AM
                             [**2167-10-2**]  05:08 AM
                             [**2167-10-2**]  05:20 AM
                             [**2167-10-2**]  05:17 PM
                             [**2167-10-2**]  11:41 PM
                             [**2167-10-3**]  03:06 AM
                             [**2167-10-3**]  03:38 AM
                             [**2167-10-3**]  04:05 PM
                             [**2167-10-4**]  03:55 AM
   WBC
   11.2
   10.6
   10.0
   8.3
   Hct
   27.1
   27.3
   25.8
   24.6
   Plt
   [**Telephone/Fax (3) 930**]79
   Cr
   0.7
   0.5
   0.5
   0.6
   0.6
   0.5
   TCO2
   36
   36
   32
   31
   Glucose
   165
   143
   110
   94
   111
   106
   121
   Other labs: PT / PTT / INR:15.9/107.7/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:13.1 %,
   Mono:2.7 %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.8 mg/dL, Mg++:3.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **].
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  Stenting
   unlikely to help for trachiomalacia as airways have poor structure
   diffusely.  S/P Trach yesterday
   - Continue to wean O2 as tolerated
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations.
   -          hydrocortt (day 1 = [**9-30**]), wean per endo recs
   # Hypotension:  Likely [**2-14**] adrenal insufficiency and sedation. Goal map
   > 60.  Much improved since re-administration of steroids.
   -          hydrocortisone as above
   -          restart levophed if necessary to maintain MAP > 60
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - Lasix gtt, continue with goal -1L per day.
   - [**Hospital1 **] electrolytes
   - may have some contraction alkalosis, w/ rising pH and bicarb. Start
   Diamox 500mg TID to decrease bicarb and pH and may improve respiratory
   drive.
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -  Wean versed/fentanyl as tolerated, continue diazepam. Avoid haldol
   use if possible to avoid further prolongation of QTc
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - heparin gtt  restarted
   - plan to start coumadin night of [**10-4**] if stable
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   # FEN/GI:  Tube feeds
   DVT: Treatment dose heparin
   Ulcer: Ranitidine
   VAP: Prevention per routine
   # Access: L PICC line, and R brachial a-line
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
    -         touch base with SW today
   Code: Full
   Dispo: ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2167-10-3**] 11:20 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-05 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   On lasix drip
   Attempted to wean FiO2
   No acute events
   No BM
   Agitated this am
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions :
   Midazolam (Versed)
 1 mg/hour
   Furosemide (Lasix)
 2 mg/hour
   Heparin Sodium
 1,500 units/hour
   Fentanyl
 75 mcg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-5**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 126 (49 - 131) bpm
   BP: 156/84(117) {78/38(52) - 164/95(125)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,160 mL
                                                                  1,185 mL
   PO:
             TF:
                                                                  1,267 mL
                                                                    315 mL
   IVF:
                                                                  1,018 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                  2,090 mL
   Urine:
                                                                  4,015 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                   -905 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 675 (675 - 675) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.39/46/118/28/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Intubated and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, Firm, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: No clubbing or cyanosis, 1+ nonpitting edema of b/l hands,
   anasarca
   Skin:  no rashes or jaundice
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   272 K/uL
   8.6 g/dL
   128 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   8 mg/dL
   110 mEq/L
   148 mEq/L
   27.4 %
   11.2 K/uL
        [image002.jpg]
                             [**2167-10-2**]  05:17 PM
                             [**2167-10-2**]  11:41 PM
                             [**2167-10-3**]  03:06 AM
                             [**2167-10-3**]  03:38 AM
                             [**2167-10-3**]  04:05 PM
                             [**2167-10-4**]  03:55 AM
                             [**2167-10-4**]  07:19 AM
                             [**2167-10-4**]  11:24 AM
                             [**2167-10-4**]  03:18 PM
                             [**2167-10-5**]  02:47 AM
   WBC
   10.6
   10.0
   8.3
   11.2
   Hct
   27.3
   25.8
   24.6
   27.4
   Plt
   [**Telephone/Fax (3) 954**]72
   Cr
   0.5
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   32
   31
   29
   29
   Glucose
   110
   94
   111
   106
   121
   123
   137
   128
   Other labs: Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **] now s/p trach and PEG placement.
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  Stenting
   unlikely to help for trachiomalacia as airways have poor structure
   diffusely.  S/P Trach and PEG on [**10-2**]. Increased effusion on recent
   CXR.
   -          wean FiO2 as tolerated
   -          non-con head CT to further characterize pulmonary effusions,
   det potential for thoracentesis
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          wean per endo recs, decrease to q8 today, likely q12 dosing
   tomorrow
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - Lasix gtt, continue with goal -1-2 L per day.
   - [**Hospital1 **] electrolytes
   - continue tube feeds with free water flushes increase from 250 to 300
   cc q4
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -          Wean versed/fentanyl as tolerated, continue diazepam in
   hopes for vent facility placement
   -          Increase diazepam to 12mg q4
   -          Check ekg for QTc
 if <480, restart haldol and/or increase
   fentanyl patch
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - heparin gtt  restarted
   - coumadin 5mg G-tube today
 hold coumadin today for possible [**Female First Name (un) **]
   # Constipation
 current regimen of colace and senna, stooled during
   rounds
   -          dulcolax PO/PR
   -          reassess and increase bowel regimen PRN
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   -f/u full trauma spine eval from OSH to determine need for further back
   imaging in-house (to be done [**10-5**])
   # Nutrition:  Tube feeds with free water flushes, tolerating well,
   continue Replete (Full) - [**2167-10-3**] 11:20 AM 30 mL/hour
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]) and R ART ([**9-29**])
 both working well, check
   ABG/VBG today
 if correlate well, d/c art line
   # Ppx: heparin, ranitidine, VAP prevention, colace and senna
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   Code: Full
   Dispo: ICU, being screening for vent facilities

2167-10-06 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2167-10-5**] 11:00 AM
   Started on Warfarin
   Extremely labile pressures over night, trying to wean off Fentanyl and
   use more Haldol.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2167-10-5**] 08:00 AM
   Haloperidol (Haldol) - [**2167-10-6**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-6**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 100 (56 - 142) bpm
   BP: 98/47(65) {77/40(53) - 164/93(123)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,228 mL
                                                                  1,123 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    360 mL
   IVF:
                                                                    978 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  6,725 mL
                                                                    780 mL
   Urine:
                                                                  6,725 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,497 mL
                                                                    343 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.50/41/81.[**Numeric Identifier **]/29/7
   Ve: 7.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Intubated and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, Firm, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: No clubbing or cyanosis, 1+ nonpitting edema of b/l hands,
   anasarca
   Skin:  no rashes or jaundice
   Lines: r brachioceph ART and L PICC C/D/I
   Labs / Radiology
   229 K/uL
   7.9 g/dL
   107 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   11 mg/dL
   109 mEq/L
   147 mEq/L
   25.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2167-10-4**]  03:55 AM
                             [**2167-10-4**]  07:19 AM
                             [**2167-10-4**]  11:24 AM
                             [**2167-10-4**]  03:18 PM
                             [**2167-10-5**]  02:47 AM
                             [**2167-10-5**]  11:01 AM
                             [**2167-10-5**]  04:40 PM
                             [**2167-10-5**]  05:08 PM
                             [**2167-10-6**]  03:44 AM
                             [**2167-10-6**]  06:04 AM
   WBC
   8.3
   11.2
   9.6
   Hct
   24.6
   27.4
   25.3
   Plt
   279
   272
   229
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   29
   29
   31
   34
   33
   Glucose
   123
   137
   128
   138
   107
   Other labs: PT / PTT / INR:16.5/78.5/1.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:13.1 %,
   Mono:2.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **] now s/p trach and PEG placement.
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  Stenting
   unlikely to help for trachiomalacia as airways have poor structure
   diffusely.  S/P Trach and PEG on [**10-2**]. Increased effusion on recent
   CXR.
   -          wean FiO2 as tolerated
   -          non-con head CT to further characterize pulmonary effusions,
   det potential for thoracentesis
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          wean per endo recs, decrease to q8 today, likely q12 dosing
   tomorrow
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - Lasix gtt, continue with goal -1-2 L per day.
   - [**Hospital1 **] electrolytes
   - continue tube feeds with free water flushes increase from 250 to 300
   cc q4
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -          Wean versed/fentanyl as tolerated, continue diazepam in
   hopes for vent facility placement
   -          Increase diazepam to 12mg q4
   -          Check ekg for QTc
 if <480, restart haldol and/or increase
   fentanyl patch
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - heparin gtt  restarted
   - coumadin 5mg G-tube today
 hold coumadin today for possible [**Female First Name (un) **]
   # Constipation
 current regimen of colace and senna, stooled during
   rounds
   -          dulcolax PO/PR
   -          reassess and increase bowel regimen PRN
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   -f/u full trauma spine eval from OSH to determine need for further back
   imaging in-house (to be done [**10-5**])
   # Nutrition:  Tube feeds with free water flushes, tolerating well,
   continue Replete (Full) - [**2167-10-3**] 11:20 AM 30 mL/hour
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]) and R ART ([**9-29**])
 both working well, check
   ABG/VBG today
 if correlate well, d/c art line
   # Ppx: heparin, ranitidine, VAP prevention, colace and senna
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-07 06:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2167-10-6**] 11:53 PM for qrs
   Continued to have alternating tachy and bradycadia with associated
   pressure swings on adjusted pain regimen.  Unable to diurese given
   intermittant hypotension.  Finally got one dose lasix.
   Much more anxious than previous nights.  Increased Valium back to 10 mg
   QID.
   CT showed cuff distention.  Per respiratory, still has a leak, likely
   needs a larger cuff.
   Hypernatremia resolved, cut back on FWB
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Diazepam (Valium) - [**2167-10-7**] 02:00 AM
   Furosemide (Lasix) - [**2167-10-7**] 03:56 AM
   Haloperidol (Haldol) - [**2167-10-7**] 03:57 AM
   Midazolam (Versed) - [**2167-10-7**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-7**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 124 (66 - 135) bpm
   BP: 137/67(92) {74/35(48) - 150/81(106)} mmHg
   RR: 15 (7 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,707 mL
                                                                    723 mL
   PO:
             TF:
                                                                  1,457 mL
                                                                    364 mL
   IVF:
                                                                    810 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  2,760 mL
   Urine:
                                                                  2,535 mL
                                                                  2,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,172 mL
                                                                 -2,037 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 964 (260 - 964) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.41/53/86/32/6
   Ve: 7.8 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Trached and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, Firm, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: No clubbing or cyanosis, trace edema of b/l hands,
   anasarca
   Skin:  no rashes or jaundice
   Lines: r brachioceph ART with small amount of bloody drainage and L
   PICC C/D/I
   Labs / Radiology
   213 K/uL
   8.3 g/dL
   118 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   11 mg/dL
   108 mEq/L
   146 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2167-10-5**]  02:47 AM
                             [**2167-10-5**]  11:01 AM
                             [**2167-10-5**]  04:40 PM
                             [**2167-10-5**]  05:08 PM
                             [**2167-10-6**]  03:44 AM
                             [**2167-10-6**]  06:04 AM
                             [**2167-10-6**]  09:09 AM
                             [**2167-10-6**]  05:07 PM
                             [**2167-10-7**]  03:31 AM
                             [**2167-10-7**]  03:46 AM
   WBC
   11.2
   9.6
   8.2
   Hct
   27.4
   25.3
   27.4
   Plt
   272
   229
   213
   Cr
   0.6
   0.6
   0.6
   0.8
   0.6
   TCO2
   31
   34
   33
   32
   35
   Glucose
   128
   138
   107
   121
   118
   Other labs: PT / PTT / INR:18.4/68.9/1.7, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:13.1 %,
   Mono:2.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA and
   ARDS intubated since the end of [**Month (only) **] now s/p trach and PEG placement.
   Thyroid nodule on CT
   Watch phos product
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  Stenting
   unlikely to help for trachiomalacia as airways have poor structure
   diffusely.  S/P Trach and PEG on [**10-2**]. Increased effusion on recent
   CXR.
   -          wean FiO2 as tolerated
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          wean per endo recs, decrease to 20q am and 10 q pm starting
   tonight
 will maintain this maintenance dose and check am cortisol
   level one week later
   # Volume overloaded in setting of hypernatremia with TBW deficit.
   - Lasix gtt, continue with goal -1-2 L per day
 currently off as
   patient is somewhat hypotensive
 will restart once/if BP increases and
   remains stable for several hours
   - [**Hospital1 **] electrolytes
   - continue tube feeds with free water flushes 300 cc q4
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -          Wean versed/fentanyl as tolerated, continue diazepam in
   hopes for vent facility placement
   -          Change diazepam to 5mg q8 with haldol 5 mg q8
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach.
   - heparin gtt  restarted
   - coumadin 5mg G-tube today, INR in am
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   -f/u full trauma spine eval from OSH to determine need for further back
   imaging in-house (to be done [**10-5**])
   # Nutrition:  Tube feeds with free water flushes, tolerating well,
   continue Replete (Full) - [**2167-10-3**] 11:20 AM 30 mL/hour
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]) and R ART ([**9-29**])
 [**Location (un) 118**] similarly but will
   keep in setting of hypotension
   # Ppx: heparin drip until INR therapeutic for 2 days, ranitidine, VAP
   prevention, colace and senna
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-7**] 01:39 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-9-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-08 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-10-7**] 12:23 PM
 ARTERIAL LINE - START [**2167-10-7**] 02:00 PM
   A-line resited, not working again
   tube feed machine not working
   failed SBT - low MV with PSV - switched to MMV overnight
   tachycardic to 140-142
   Ortho spine ok with documented final read of CT trauma from attending
   at OSH and [**4-19**] week f/u - faxed request and spoke with med recs at
   [**Hospital 507**] Medical re: sending report which was agreed upon.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2167-10-7**] 12:15 PM
   Midazolam (Versed) - [**2167-10-8**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-8**] 07:13 AM
   Vital signs
   Cardiac monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 105 (70 - 148) bpm
   BP: 85/55(66) {85/41(57) - 158/110(323)} mmHg
   RR: 23 (10 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
              QTc: 411
   Total In:
                                                                  3,562 mL
                                                                    965 mL
   PO:
                      TF:
                                                                  1,685 mL
                                                                    150 mL
   IVF:
                                                                    548 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  5,695 mL
                                                                  1,740 mL
   Urine:
                                                                  5,695 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,133 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 359 (137 - 695) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 58
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.40/49/114/32/3
   Ve: 7.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Trached and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, soft, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: no CCE
   Skin:  no rashes or jaundice
   Lines: r brachioceph ART with large amount of bloody drainage and L
   PICC C/D/I
   Labs / Radiology
   213 K/uL
   8.8 g/dL
   123 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   13 mg/dL
   107 mEq/L
   145 mEq/L
   29.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2167-10-6**]  03:44 AM
                             [**2167-10-6**]  06:04 AM
                             [**2167-10-6**]  09:09 AM
                             [**2167-10-6**]  05:07 PM
                             [**2167-10-7**]  03:31 AM
                             [**2167-10-7**]  03:46 AM
                             [**2167-10-7**]  10:20 AM
                             [**2167-10-7**]  03:46 PM
                             [**2167-10-8**]  01:37 AM
                             [**2167-10-8**]  05:32 AM
   WBC
   9.6
   8.2
   11.1
   Hct
   25.3
   27.4
   29.4
   Plt
   [**Telephone/Fax (3) 1065**]
   Cr
   0.6
   0.8
   0.6
   0.8
   0.6
   TCO2
   33
   32
   35
   37
   31
   Glucose
   107
   121
   118
   155
   123
   Other labs: PT / PTT / INR:22.3/69.7/2.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:13.1 %,
   Mono:2.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA, and
   ARDS, intubated since the end of [**Month (only) **] now s/p trach and PEG
   placement.
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  Stenting
   unlikely to help for trachiomalacia as airways have poor structure
   diffusely.  S/P Trach and PEG on [**10-2**].
   -          wean FiO2 as tolerated
   -          attempt wean PS today and hopeful for trach mask trial
   # Sedation: Sedation control remains somewhat poor although fentanyl
   patch and diazpem are likely therapeutic range today. On Versed 2.0,
   Fentanyl 100, Fentanyl patch, Diazepam standing and haldo 2.5-5 mg
   PRN.  QTc increased to 480.
   -          Wean versed/fentanyl as tolerated, continue diazepam in
   hopes for vent facility placement
   -          Continue diazepam 10 mg q8 with haldol 5 mg q8 with 2.5-5
   prn haldol
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          wean per endo recs, decrease to 20q am and 10 q pm today
   -          ok to go to 10 q am and 5 q pm tomorrow ([**10-8**])
   # Volume overloaded in setting of hypernatremia with TBW deficit and
   metabolic alkalosis
   - Lasix boluses with diamox today, goal -1L
   - [**Hospital1 **] electrolytes
   - continue tube feeds with free water flushes 300 cc q4
   # RUE DVT: Started on heparin gtt on [**9-22**]. PTTs.  Would hold off on
   coumadin at least until s/p trach. INR 1.7 today.
   - heparin gtt  restarted
   - coumadin 5mg G-tube today, INR in am
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - CT of C, L spine when stable.  Currently, unlikely to change
   management and high risk for complications with transport.
   - Spine recommends MRI C/T/L/S if possible but likelihood for surgery
   is low.  Brace for OOB.  Ok for anticoag per note.
   -f/u full trauma spine eval from OSH to determine need for further back
   imaging in-house (to be done [**10-5**])
   # Tracheomalacia: Discussed with IP.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   -outpatient follow up
   # Nutrition:  Tube feeds with free water flushes, tolerating well,
   continue Replete (Full) - [**2167-10-3**] 11:20 AM 30 mL/hour
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]) and R ART ([**9-29**])
 d/c art and re-site today
   # Ppx: heparin drip until INR therapeutic for 2 days, ranitidine, VAP
   prevention, colace and senna
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**] is her HCP.  Also brother is involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Arterial Line - [**2167-10-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-09 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Arterial line d/c'd
   Spiked a fever of 101.4, blood and urine cultures sent, CXR.  Started
   Vanc, Levo, Aztreonam
   Persistently hypotensive to 70s SBP overnight with low urine output and
   poor O2 sats.
   Started on Levophed, and given 1.75L NS. BPs improved to 90-120s SBP,
   and urine output increased significantly.
   Large amount of oral secretions, ?gastric in origin
   Tube feeds held for ? of aspiration.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-8**] 11:00 PM
   Levofloxacin - [**2167-10-8**] 11:43 PM
   Aztreonam - [**2167-10-9**] 04:07 AM
   Infusions:
   Norepinephrine
 Off at 7:30 AM
   Other ICU medications:
   Midazolam (Versed) - [**2167-10-8**] 09:30 AM
   Morphine Sulfate - [**2167-10-8**] 03:17 PM
   Furosemide (Lasix) - [**2167-10-8**] 06:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-9**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.7
C (98.1
   HR: 131 (73 - 142) bpm
   BP: 127/43(60) {71/29(42) - 137/97(101)} mmHg
   RR: 21 (12 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,627 mL
                                                                  1,084 mL
   PO:
             TF:
                                                                    839 mL
   IVF:
                                                                  2,288 mL
                                                                  1,084 mL
   Blood products:
   Total out:
                                                                  2,407 mL
                                                                  2,220 mL
   Urine:
                                                                  2,407 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,220 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 412 (236 - 480) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/50/81.[**Numeric Identifier 252**]/26/0
   Ve: 7 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Trached and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, soft, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: no CCE
   Skin:  no rashes or jaundice
   Lines: r brachioceph ART with large amount of bloody drainage and L
   PICC C/D/I
   Labs / Radiology
   227 K/uL
   7.7 g/dL
   114 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   112 mEq/L
   145 mEq/L
   24.9 %
   11.3 K/uL
        [image002.jpg]
                             [**2167-10-7**]  03:46 AM
                             [**2167-10-7**]  10:20 AM
                             [**2167-10-7**]  03:46 PM
                             [**2167-10-8**]  01:37 AM
                             [**2167-10-8**]  05:32 AM
                             [**2167-10-8**]  02:43 PM
                             [**2167-10-8**]  03:03 PM
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
   WBC
   11.1
   9.4
   11.3
   Hct
   29.4
   26.6
   24.9
   Plt
   [**Telephone/Fax (3) 1101**]
   Cr
   0.8
   0.6
   0.9
   0.7
   TCO2
   35
   37
   31
   31
   30
   29
   Glucose
   155
   123
   128
   114
   114
   Other labs: PT / PTT / INR:37.2/37.9/4.0, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:24/16, Alk Phos / T Bili:117/0.7,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL,
   LDH:204 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   Blood/Urine/Sputum culture pending
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA, and
   ARDS, intubated since the end of [**Month (only) **] now s/p trach and PEG
   placement.
   # Fever:  Likely secondary to aspiration pneumonitis.  Given prolonged
   hospitalization and tenuous respiratory status will treat with
   antibiotics while cultures pending
   - Vanc/Cef/Azithro for 48 hours while waiting for sputum results.
   - Hold tube feeds for 24 hours
   - Follow cultures
   - Off levophed
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -          wean FiO2 as tolerated
   -          attempt wean PS today and hopeful for trach mask trial
   # Sedation: Continue to have issues with pain/delirium causing
   tachycardia and hypertension with intermittent hypotension.  On Haldol
   5 TID, Fentanyl 75 mcg TP, Diazapam 10 QID; Haldol, midazolam and
   morphine PRN.  Had good response to morphine, minimal response to
   haldol bolus.
   -          Reduce diazepam to 5 q 8hrs.
   -          d/c standing Haldol
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          10 q am and 5 q pm prednisone day 2 of 3,  will wean to
   maintenance dose as tolerated, in consultation with endo.
   # Volume overloaded in setting of hypernatremia with TBW deficit and
   metabolic alkalosis
   - Goal of even in the setting of recent hypotension.
   - Off diamox
   - [**Hospital1 **] electrolytes
   - Will give IV free water rather than flushes.  D5W 1L@100 cc/hr
   # Falling Hct:  Likely dilutional.  Concern given elevated INR
   -          Recheck in PM
   -          Type and screen
   # RUE DVT: INR now therapeutic on coumadin.  Goal [**2-15**]
   - stop heparin gtt
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - report from full trauma series from OSH is in chart.  No evidence of
   other fracture and no need for further spinal imaging based on this
   report and ortho note.
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   -outpatient follow up
   # Nutrition:  Hold tube feeds x 24 hours, continue Replete (Full)
   will reintroduce slowly
   - advance bowel regimen
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]).  ABG and VBG correlate well.
   # Ppx: INR therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother is her HCP, also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   18 Gauge - [**2167-10-8**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-10 05:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Discussed imaging with ortho.  They do not need further imaging.  She
   should wear TLSO for 2 months and f/u with [**First Name5 (NamePattern1) 1144**] [**Last Name (NamePattern1) 1145**] at 2 months
   prior to removal of TLSO.
   Changed to PSV, was stable on trach mask for 1-2 hrs
   Tube feeds held
   Endo recs: check AM cortisol prior to dose
   At 5:45 am --- RR 4, switched from CPAP/PSV to AC
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-9**] 10:04 PM
   Levofloxacin - [**2167-10-9**] 10:49 PM
   Aztreonam - [**2167-10-10**] 03:42 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-10-9**] 10:49 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-10**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 125 (74 - 151) bpm
   BP: 121/64(77) {89/32(45) - 179/99(120)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  5,817 mL
                                                                    457 mL
   PO:
             TF:
   IVF:
                                                                  5,277 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  5,205 mL
                                                                  1,460 mL
   Urine:
                                                                  5,205 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    612 mL
                                                                 -1,003 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 429 (340 - 480) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.37/44/120/25/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   On CMV
 Peep 5, FiO2 40%, Vt 500, R 14
   General Appearance: Trached and sedated. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly, decreased
   BS
   Abdominal: Obese, soft, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: no CCE
   Skin:  no rashes or jaundice
   Lines: L PICC C/D/I
   Labs / Radiology
   209 K/uL
   8.3 g/dL
   99 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.3 mEq/L
   9 mg/dL
   111 mEq/L
   145 mEq/L
   26.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2167-10-8**]  01:37 AM
                             [**2167-10-8**]  05:32 AM
                             [**2167-10-8**]  02:43 PM
                             [**2167-10-8**]  03:03 PM
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
   WBC
   11.1
   9.4
   11.3
   7.3
   6.1
   Hct
   29.4
   26.6
   24.9
   27.6
   26.5
   Plt
   [**Telephone/Fax (3) 1146**]89
   209
   Cr
   0.6
   0.9
   0.7
   0.6
   TCO2
   31
   31
   30
   29
   26
   Glucose
   123
   128
   114
   114
   99
   Other labs: PT / PTT / INR:36.4/38.8/3.9, Ca++:8.9 mg/dL, Mg++:2.6
   mg/dL, PO4:4.1 mg/dL
   Cx: endotrach [**10-8**]
 GN diplococci, budding yeast
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA, and
   ARDS, intubated since the end of [**Month (only) **] now s/p trach and PEG
   placement.
   # Recent Aspiration of tube feeds.  Given prolonged hospitalization and
   tenuous respiratory status will treat with antibiotics while cultures
   pending
   - Levoflox for 48 hours while waiting for sputum results.
   - restart tube feeds slowly
   - Follow cultures
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -          wean FiO2 as tolerated
   -          attempt wean PS today and hopeful for trach mask trial
   # Sedation: Continue to have issues with pain/delirium causing
   tachycardia and hypertension with intermittent hypotension.  On Haldol
   5 TID, Fentanyl 75 mcg TP, Diazapam 10 QID; Haldol, midazolam and
   morphine PRN.  Had good response to morphine, minimal response to
   haldol bolus.
   -          Reduce diazepam to 5 q 8hrs.
   -          d/c standing Haldol
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          10 q am and 5 q pm prednisone day 2 of 3, will wean to
   maintenance dose as tolerated, in consultation with endo.
   # Volume overloaded in setting of hypernatremia
 Goal even today.
   - Off diamox
   - [**Hospital1 **] electrolytes
   - Free water flushes with tube feeds.
   # Falling Hct:  Likely dilutional.  Concern given elevated INR. Stable
   today.
   -          monitor
   -          maintain active type and screen
   # RUE DVT: INR now therapeutic on coumadin.  Goal [**2-15**]
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - report from full trauma series from OSH is in chart.  No evidence of
   other fracture and no need for further spinal imaging based on this
   report and ortho note.
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   -outpatient follow up
   # Nutrition:  Replete (Full)
 will reintroduce slowly
   - advance bowel regimen
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]).
   # Ppx: INR therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother is her HCP, also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 55F T5-8 fractures with retropulsion and ARDS
   from klebsiella VAP; on heparin for UE DVT and lasix for volume
   overload.  Overnight transitioned to PSV and trial spont breathing
   performed.  RR down to 4 terminated trial
 mode changed back to AC.
   On exam:
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 125 (74 - 151) bpm
   BP: 121/64(77) {89/32(45) - 179/99(120)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 100%
   Trached, lightly sedated, following commands.
   CV RRR, distantstant
   Lungs
 distant bs, otherwise clear
   abd: soft NTND BS+,  +PEG site
   Ext- no c/c/e
   Data: WBC 6.1 hct 26.5  creat 0.6
   55F h/o EtOH abuse presenting following mech fall -> traumatic T spine
   fracture with K. oxytoca PNA, and ARDS, intubated since the end of
   [**Month (only) **] now s/p trach and PEG placement.  Cont efforts to wean mech vent
   including spont breathing trials w/ monitoring given [**Month (only) 453**] RR.  Check ABG
   prior to d/c to assess adequacy of vent.  Tracheomalacia
   indication for intervention per IP.  Ortho following re: fx.  Cont
   brace.   Agree with recs as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2167-10-10**] 02:09 PM ------

2167-10-11 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Spiked to 102.2 after aspiration of tube feeds (only at 10 cc/hr) - pan
   cultured and given tylenol
   INR rising
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-10-10**] 03:42 AM
   Vancomycin - [**2167-10-10**] 09:40 AM
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-10**] 07:47 AM
   Morphine Sulfate - [**2167-10-11**] 05:16 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.1
C (98.7
   HR: 129 (86 - 137) bpm
   BP: 102/52(64) {78/26(42) - 155/89(100)} mmHg
   RR: 15 (12 - 65) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,299 mL
                                                                    500 mL
   PO:
             TF:
                                                                     55 mL
   IVF:
                                                                    699 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    485 mL
   Urine:
                                                                  2,990 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,691 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (328 - 561) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Trached. Interactive. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), b/l rhonchi R>L, decreased
   BS
   Abdominal: Obese, soft, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: no CCE
   Skin:  no rashes or jaundice
   Lines: L PICC C/D/I
   Labs / Radiology
   238 K/uL
   8.4 g/dL
   106 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   108 mEq/L
   143 mEq/L
   26.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2167-10-8**]  02:43 PM
                             [**2167-10-8**]  03:03 PM
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
   WBC
   9.4
   11.3
   7.3
   6.1
   7.2
   Hct
   26.6
   24.9
   27.6
   26.5
   26.9
   Plt
   [**Telephone/Fax (3) 1181**]09
   238
   Cr
   0.9
   0.7
   0.6
   0.6
   0.9
   TCO2
   31
   30
   29
   26
   Glucose
   128
   114
   114
   99
   115
   106
   Other labs: PT / PTT / INR:72.4/42.1/9.0, Ca++:9.3 mg/dL, Mg++:2.5
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA, and
   ARDS, intubated since the end of [**Month (only) **] now s/p trach and PEG
   placement.
   # Recent Aspiration of tube feeds.  Given prolonged hospitalization and
   tenuous respiratory status will treat with antibiotics while cultures
   pending
   - Levoflox for 48 hours while waiting for sputum results.
   - hold tube feeds
   - Follow cultures
   - check tube placement
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -          wean FiO2 as tolerated
   -          attempt wean PS today and hopeful for trach mask trial
   # Sedation: Continue to have issues with pain/delirium causing
   tachycardia and hypertension with intermittent hypotension.  On Haldol
   5 TID, Fentanyl 75 mcg TP, Diazapam 10 QID; Haldol, midazolam and
   morphine PRN.  Had good response to morphine, minimal response to
   haldol bolus.
   - tolerating current regimen well, no changes today
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          stopped steroids as per endocrine today
   # Volume overloaded in setting of hypernatremia
 Goal even today.
   - monitor urine output
   # RUE DVT: INR super-therapeutic on coumadin.  Goal [**2-15**]. Hasn
   received coumadin in days yet INR continues to rise. Likely
   contributors are nutritional and antibiotics.
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - report from full trauma series from OSH is in chart.  No evidence of
   other fracture and no need for further spinal imaging based on this
   report and ortho note.
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   -outpatient follow up
   # Nutrition:  Replete (Full)
 hold
   # Glycemic control: SSI, well controlled
   # Lines L PICC
   ([**9-27**]).
   # Ppx: INR therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 55F T5-8 fractures with retropulsion and ARDS
   from klebsiella VAP; on heparin for UE DVT and lasix for volume
   overload.  Overnight spiked to 102.2 after apparent aspiration of TF
   despite low rate (suctioned whitish material from trache).
   On exam:
   Tmax: 39
C (102.2
   Tcurrent: 37.1
C (98.7
   HR: 129 (86 - 137) bpm
   BP: 102/52(64) {78/26(42) - 155/89(100)} mmHg
   RR: 15 (12 - 65) insp/min
   SpO2: 99%
   Trached, lightly sedated, following commands.
   CV RRR, distant
   Lungs
 distant bs, otherwise clear
   abd: soft NTND BS+,  +PEG site
   Ext- no c/c/e
   55F h/o EtOH abuse presenting following mech fall -> traumatic T spine
   fracture with K. oxytoca PNA, and ARDS, intubated since the end of
   [**Month (only) **] now s/p trach and PEG placement.
   Cont efforts to wean mech vent including spont breathing trials w/
   monitoring given [**Month (only) 453**] RR. Resp failure related to ARDS, tracheomalacia,
   VAP (resolved) and component of fluid overload.  Now w/ apparent
   aspiration of TF.  Check position of FT to ensure intragastric.  Hold
   TF until confirmed.  SCx/GS.  Sedation continues to be challenge given
   delirium, agitation and tolerance for medications.  Ortho following re:
   fx.  Cont brace.   Agree with recs as outlined above.
   Code: FULL
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2167-10-11**] 04:14 PM ------

2167-10-12 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Developed papular rash over entire back, bilateraly, in multiple
   dermatomal distributions, opaque vesicles on erythematous base,
   nonpainful, possibly pruritic.
   Levofloxaxin was d/c'd.
   Ceftriaxone started.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-10-10**] 03:42 AM
   Vancomycin - [**2167-10-10**] 09:40 AM
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Ceftriaxone - [**2167-10-11**] 07:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-11**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-12**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 139 (113 - 145) bpm
   BP: 97/61(68) {85/28(50) - 127/86(90)} mmHg
   RR: 12 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,362 mL
                                                                    302 mL
   PO:
             TF:
                                                                     47 mL
                                                                    152 mL
   IVF:
                                                                  1,061 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,203 mL
                                                                    460 mL
   Urine:
                                                                  1,203 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 504 (110 - 504) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 245
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Trached. Interactive. Responsive, following
   commands, Overweight / Obese, mild agitation but NAD
   Eyes / Conjunctiva: PERRL, mildly disconjugate gaze w left eye lateral
   deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Respiratory / Chest: (Expansion: Symmetric), b/l rhonchi R>L, decreased
   BS
   Abdominal: Obese, soft, Non-tender, no rebound, no guarding, + BS, PEG
   in place with dressing C/D/I
   Extremities: no CCE
   Skin:  no rashes or jaundice
   Lines: L PICC C/D/I
   Labs / Radiology
   240 K/uL
   7.9 g/dL
   100 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   12 mg/dL
   108 mEq/L
   146 mEq/L
   26.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
   WBC
   9.4
   11.3
   7.3
   6.1
   7.2
   5.2
   Hct
   26.6
   24.9
   27.6
   26.5
   26.9
   26.0
   Plt
   [**Telephone/Fax (2) 1222**]
   Cr
   0.9
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   TCO2
   29
   26
   Glucose
   128
   114
   114
   99
   115
   106
   100
   Other labs: PT / PTT / INR:17.6/27.4/1.6, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:33/22, Alk Phos / T Bili:143/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:0.5 mmol/L,
   Albumin:3.5 g/dL, LDH:199 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55 year old woman with history of EtOH abuse presenting following
   mechanical fall and traumatic T spine fracture with K. oxytoca PNA, and
   ARDS, intubated since the end of [**Month (only) **] now s/p trach and PEG
   placement.
   # Recent Aspiration of tube feeds.  Given prolonged hospitalization and
   tenuous respiratory status will treat with antibiotics while cultures
   pending
   - Levoflox for 48 hours while waiting for sputum results.
   - hold tube feeds
   - Follow cultures
   - check tube placement
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -          wean FiO2 as tolerated
   -          attempt wean PS today and hopeful for trach mask trial
   # Sedation: Continue to have issues with pain/delirium causing
   tachycardia and hypertension with intermittent hypotension.  On Haldol
   5 TID, Fentanyl 75 mcg TP, Diazapam 10 QID; Haldol, midazolam and
   morphine PRN.  Had good response to morphine, minimal response to
   haldol bolus.
   - tolerating current regimen well, no changes today
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          stopped steroids as per endocrine today
   # Volume overloaded in setting of hypernatremia
 Goal even today.
   - monitor urine output
   # RUE DVT: INR super-therapeutic on coumadin.  Goal [**2-15**]. Hasn
   received coumadin in days yet INR continues to rise. Likely
   contributors are nutritional and antibiotics.
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - report from full trauma series from OSH is in chart.  No evidence of
   other fracture and no need for further spinal imaging based on this
   report and ortho note.
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   -outpatient follow up
   # Nutrition:  Replete (Full)
 hold
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]).
   # Ppx: INR therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-12**] 03:36 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-12 11:15:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   rash- vesicular and d/c l;evoquin and started Ceftriaxone
   More tachycardic this AM - autonomic dysregulation
   Trach Mask for several hours
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-10-10**] 03:42 AM
   Vancomycin - [**2167-10-10**] 09:40 AM
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Ceftriaxone - [**2167-10-11**] 07:50 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-10-12**] 09:45 AM
   Haloperidol (Haldol) - [**2167-10-12**] 10:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-12**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 143 (113 - 145) bpm
   BP: 153/89(102) {85/40(50) - 153/89(102)} mmHg
   RR: 24 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,362 mL
                                                                    537 mL
   PO:
             TF:
                                                                     47 mL
                                                                    287 mL
   IVF:
                                                                  1,061 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,203 mL
                                                                    615 mL
   Urine:
                                                                  1,203 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 244 (110 - 504) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 245
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 10 L/min
   Physical Examination
   Gen sitting up in [**Doctor First Name 1247**], on trach mask, interactive
   CV tachy RRR
   Chest good [**Location (un) 1248**] movement ANT
   Abd soft NT + NS
   Ext: no edema
   Neuroalert follows simple commands
   Labs / Radiology
   7.9 g/dL
   240 K/uL
   100 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   12 mg/dL
   108 mEq/L
   146 mEq/L
   26.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
   WBC
   9.4
   11.3
   7.3
   6.1
   7.2
   5.2
   Hct
   26.6
   24.9
   27.6
   26.5
   26.9
   26.0
   Plt
   [**Telephone/Fax (2) 1222**]
   Cr
   0.9
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   TCO2
   29
   26
   Glucose
   128
   114
   114
   99
   115
   106
   100
   Other labs: PT / PTT / INR:17.6/27.4/1.6, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:33/22, Alk Phos / T Bili:143/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:0.5 mmol/L,
   Albumin:3.5 g/dL, LDH:199 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan 55 yr old alcoholic s/p t spine fx s/p trcah and
   PEG with persistent resp failure
   1.       Resp Failure: currently on trach mask, can do a few hours per
   day, then needs [**10-18**] for support. New pan [**Last Name (un) 46**] Klebs in sputum, day
   [**4-21**]. Get Speech consult for PMV evaluation. Holding off on stent by IP
   until after pulm rehab.
   2.       Hemodynamics: tachycardia seems most likely due to agitation
   at present, did taper Valium aggressively, may be need to increase
   benzo slightly and see f it helps (haldol and morphione have not helped
   yet this AM)
   3.       Anti coag: for upper ext DVT but INR elevated on coumadin +
   quinolone
 repeat
   4.       Adrenal Insufficny: proper stim this AM, off steroids
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2167-10-12**] 07:46 AM 30 mL/hour
   Glycemic Control:
   Lines:  PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT: inr levetaed recheck, and start coumadin when at 2.0
   Stress ulcer: ppi
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-10-12 17:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Developed papular rash over entire back, bilaterally in multidermatomal
   distributions, opaque vesicles on erythematous base, non-painful,
   possibly pruritic
   Levofloxacin d/c'd
   Ceftriaxone Initiated for pan-sensitive
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2167-10-10**] 03:42 AM
   Vancomycin - [**2167-10-10**] 09:40 AM
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Ceftriaxone - [**2167-10-11**] 07:50 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-10-12**] 10:26 AM
   Diazepam (Valium) - [**2167-10-12**] 11:33 AM
   Morphine Sulfate - [**2167-10-12**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2167-10-12**] 05:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 129 (113 - 148) bpm
   BP: 100/45(57) {85/40(50) - 171/111(115)} mmHg
   RR: 21 (9 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,362 mL
                                                                  1,102 mL
   PO:
             TF:
                                                                     47 mL
                                                                    532 mL
   IVF:
                                                                  1,061 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,203 mL
                                                                    755 mL
   Urine:
                                                                  1,203 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 244 (110 - 504) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 245
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///30/
   Ve: 10 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese, Patient with thoracic
   brace on
   Skin:  Not assessed, No(t) Rash: , Per Nursing: Pt with vesicular rash
   on inferior back.
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   240 K/uL
   7.9 g/dL
   100 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   12 mg/dL
   108 mEq/L
   146 mEq/L
   26.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
   WBC
   9.4
   11.3
   7.3
   6.1
   7.2
   5.2
   Hct
   26.6
   24.9
   27.6
   26.5
   26.9
   26.0
   Plt
   [**Telephone/Fax (2) 1222**]
   Cr
   0.9
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   TCO2
   29
   26
   Glucose
   128
   114
   114
   99
   115
   106
   100
   Other labs: PT / PTT / INR:17.6/27.4/1.6, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:33/22, Alk Phos / T Bili:143/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:0.5 mmol/L,
   Albumin:3.5 g/dL, LDH:199 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55yoF with history of EtOH abuse presenting following mechanical fall
   and traumatic T spine fracture with K. oxytoca PNA, and ARDS, intubated
   since the end of [**Month (only) **] now s/p trach and PEG placement.
# Recent Aspiration on Tube Feeds. Cultures growing Klebsiella Oxytoca and Klebs
iella Pneumoniae. Pt received developed rash on Levofloxacin, switched to Ceftri
axone overnight. Will treat for potential HAP for 8 days.
   - Continue Ceftriaxone  day [**10-8**] #1.
   - Tube Feeds restarted with goal of 60/hr
   - Follow cultures
   - check tube placement
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -   Weaning FiO2 as tolerated
   -   Will attempt trach collar today
   # Tachycardia: Pt in ST for most of the day 120
s to 140s. Etiology
   remains unclear although she has been tachy since admission. Etiologies
   include pain (especially when sitting upright with thoracic brace on),
   infection (pt with known klebsiella, possibly acquired HAP). DDx also
   includes PE, hyperthyroidism.
   -          Will keep pt
s INR therapeutic
   -          TSH 2.4 on early [**Month (only) 779**], will check free T3, T4.
   -          Continue Pain Control
   -          Treat underlying infection
   # Sedation: Pt has pain/delirium causing tachycardia and hypertension
   with intermittent hypotension.  On Haldol 5 TID, Fentanyl 75 mcg TP,
   Diazapam 10 QID; Haldol, midazolam and morphine PRN.  Had good response
   to morphine, minimal response to haldol bolus.
   - tolerating current regimen well, no changes today
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          stopped steroids as per endocrine today
   # Volume overloaded in prior setting of hypernatremia
 Goal even
   today.
   - Monitoring urine output
   # RUE DVT: INR was super-therapeutic on coumadin.  Goal [**2-15**]. Hasn
   received coumadin in days yet INR continues to rise. Likely
   contributors are nutritional and antibiotics.
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - Report from full trauma series from OSH is in chart.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   - Outpatient follow up
   # Nutrition:  Replete (Full)
 hold
   # Glycemic control: SSI, well controlled
   # Lines L PICC
   ([**9-27**]).
   # Ppx: INR remains  therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-12**] 11:38 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   20 Gauge - [**2167-10-12**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-13 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   UOP 10-20cc/hr, tachy to 150s while sitting upright, 120s at rest.
   Pt on PMV but had heavy secretions. Trach collar for 5 hours.
   Repeat Sputum Cx + for GNR, fungal, 1+ Gram + Cocci in Pairs.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-10**] 09:40 AM
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Ceftriaxone - [**2167-10-11**] 07:50 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2167-10-12**] 10:26 AM
   Diazepam (Valium) - [**2167-10-12**] 11:33 AM
   Morphine Sulfate - [**2167-10-12**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-13**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 118 (118 - 148) bpm
   BP: 90/37(48) {90/37(48) - 171/111(115)} mmHg
   RR: 14 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
                  Total In:
                                                                  1,614 mL
                                                                    439 mL
   PO:
                  TF:
                                                                    884 mL
                                                                    279 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    834 mL
                                                                     20 mL
   Urine:
                                                                    834 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 354 (244 - 376) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 4.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese, Patient with thoracic
   brace on
   Skin:  Not assessed, No(t) Rash: , Per Nursing: Pt with vesicular rash
   on inferior back.
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   240 K/uL
   7.9 g/dL
   100 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   12 mg/dL
   108 mEq/L
   146 mEq/L
   26.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2167-10-8**]  08:11 PM
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
   WBC
   9.4
   11.3
   7.3
   6.1
   7.2
   5.2
   Hct
   26.6
   24.9
   27.6
   26.5
   26.9
   26.0
   Plt
   [**Telephone/Fax (3) 1222**]
   Cr
   0.9
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   TCO2
   29
   26
   Glucose
   128
   114
   114
   99
   115
   106
   100
   Other labs: PT / PTT / INR:17.6/27.4/1.6, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:33/22, Alk Phos / T Bili:143/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:0.5 mmol/L,
   Albumin:3.5 g/dL, LDH:199 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55yoF with history of EtOH abuse presenting following mechanical fall
   and traumatic T spine fracture with K. oxytoca PNA, and ARDS, intubated
   since the end of [**Month (only) **] now s/p trach and PEG placement.
# Recent Aspiration on Tube Feeds. Cultures growing Klebsiella Oxytoca and Klebs
iella Pneumoniae. Pt received developed rash on Levofloxacin, switched to Ceftri
axone overnight. Will treat for potential HAP for 8 days.
   - Continue Ceftriaxone  day [**10-8**] #1.
   - Tube Feeds restarted with goal of 60/hr
   - Follow cultures
   - check tube placement
   .
   # Respiratory failure:  Related to ARDS, trachiomalacia, resolved VAP,
   volume overload.  Intubated on [**9-12**] for resp decompensation.  S/P Trach
   and PEG on [**10-2**].
   -   Weaning FiO2 as tolerated
   -   Will attempt trach collar today
   # Tachycardia: Pt in ST for most of the day 120
s to 140s. Etiology
   remains unclear although she has been tachy since admission. Etiologies
   include pain (especially when sitting upright with thoracic brace on),
   infection (pt with known klebsiella, possibly acquired HAP). DDx also
   includes PE, hyperthyroidism.
   -          Will keep pt
s INR therapeutic
   -          TSH 2.4 on early [**Month (only) 779**], will check free T3, T4.
   -          Continue Pain Control
   -          Treat underlying infection
   # Sedation: Pt has pain/delirium causing tachycardia and hypertension
   with intermittent hypotension.  On Haldol 5 TID, Fentanyl 75 mcg TP,
   Diazapam 10 QID; Haldol, midazolam and morphine PRN.  Had good response
   to morphine, minimal response to haldol bolus.
   - tolerating current regimen well, no changes today
   # Adrenal Insufficency: Hypotension that resolved with steroids,
   returned as they came off and is now improved again.  Possible primary
   adrenal insufficency.  Appreciate endocrine recommendations. Hydrocort
   started on [**9-30**].
   -          stopped steroids as per endocrine today
   # Volume overloaded in prior setting of hypernatremia
 Goal even
   today.
   - Monitoring urine output
   # RUE DVT: INR was super-therapeutic on coumadin.  Goal [**2-15**]. Hasn
   received coumadin in days yet INR continues to rise. Likely
   contributors are nutritional and antibiotics.
   - will start coumadin 2.5 mg QHS once INR < 3
   # Spine fracture: Neurologically intact distal to the lesion. Prior
   notes from MMC neurosurgeons indicated no surgical procedure needed and
   would continue with spine brace.
   - Brace for OOB
   - Report from full trauma series from OSH is in chart.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   # Tracheomalacia: Discussed with IP.  Stenting unlikely to help for
   trachiomalacia as airways have poor structure diffusely.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   - Outpatient follow up
   # Nutrition:  Replete (Full)
 hold
   # Glycemic control: SSI, well controlled
   # Lines L PICC
   ([**9-27**]).
   # Ppx: INR remains  therapeutic, ranitidine, colace and senna, miralax,
   bisacodyl.
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   Code: Full
   Dispo: ICU, being screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-12**] 11:38 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   20 Gauge - [**2167-10-12**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-12**] 10:31 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   20 Gauge - [**2167-10-12**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-13 17:13:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 56 yr old with t spine fx, resp failure
   24 Hour Events:
   Trach Mask x 5 hours
   Tried PMV but had secretions
   History obtained from Patient
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2167-10-10**] 11:15 PM
   Ceftriaxone - [**2167-10-11**] 07:50 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-13**] 05:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 135 (118 - 151) bpm
   BP: 137/78(91) {90/37(48) - 202/96(111)} mmHg
   RR: 37 (13 - 39) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,614 mL
                                                                  2,451 mL
   PO:
             TF:
                                                                    884 mL
                                                                    761 mL
   IVF:
                                                                    100 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    834 mL
                                                                    320 mL
   Urine:
                                                                    834 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                  2,131 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 354 (316 - 376) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 92%
   ABG: ///32/
   Ve: 4.1 L/min
   Physical Examination
   Gen sitting up in [**Doctor First Name 1247**], on trach mask, interactive
   CV tachy RRR
   Chest good air movement ANT
   Abd soft NT + NS
   Ext: no edema
   Neuro: alert follows simple commands
   Labs / Radiology
   8.7 g/dL
   296 K/uL
   134 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   147 mEq/L
   27.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2167-10-9**]  02:51 AM
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
   WBC
   11.3
   7.3
   6.1
   7.2
   5.2
   5.9
   Hct
   24.9
   27.6
   26.5
   26.9
   26.0
   27.2
   Plt
   227
   189
   209
   238
   240
   296
   Cr
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   0.7
   TCO2
   29
   26
   Glucose
   114
   114
   99
   115
   106
   100
   134
   Other labs: PT / PTT / INR:13.5/23.6/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:27/19, Alk Phos / T Bili:118/0.3,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:0.5 mmol/L,
   Albumin:3.5 g/dL, LDH:178 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan 55 yr old alcoholic s/p t spine fx s/p trcah and
   PEG with persistent resp failure
   1.       Resp Failure: currently on trach mask, can do a few hours per
   day, then needs [**10-18**] for support. New pan [**Last Name (un) 46**] Klebs in sputum, day
   [**5-21**]. Re- try. Holding off on stent by IP until after pulm rehab.
   2.       Hemodynamics: tachycardia with slightly decreased UOP
 bolus
   IVF and trend UOP. Watch to see if response with tachycardia.
   3.       Anti coag: for upper ext DVT but INR elevated on coumadin +
   quinolone
 repeat inr low- trend with po COumadin
   4.       Adrenal Insufficiency: proper stim this AM, off steroids
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-13**] 10:29 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   20 Gauge - [**2167-10-12**] 04:59 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: ppi
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-10-14 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-10-14**] 02:18 AM
 SPUTUM CULTURE - At [**2167-10-14**] 02:18 AM
 URINE CULTURE - At [**2167-10-14**] 02:18 AM
   Pt tachy to mid 150's yesterday.
   Restarted on Warfarin 2.5mg
   Bolused 500cc x2 without change in HR
   Overnight Tm 100.8, BCx, UCx, CXR
   Tachypnic to high 30's.
   Given Valium 5mg IV x 1, Tylenol
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 137 (120 - 151) bpm
   BP: 125/55(73) {91/41(54) - 202/97(111)} mmHg
   RR: 21 (12 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,934 mL
                                                                    390 mL
   PO:
             TF:
                                                                  1,104 mL
                                                                    340 mL
   IVF:
                                                                  1,000 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    240 mL
   Urine:
                                                                    530 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,404 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (318 - 475) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 171
   SpO2: 97%
   ABG: ///32/
   Ve: 9 L/min
   Physical Examination
   GEN: Awake, alert, responsive. Sitting in chair, in back brace.
   Following commands.
   HEENT: PERRL
   PULM: CTA anteriorly, no r/r/w
   CARD: tachycardic, regular, ,s1, s2,
   ABD: abdomen, inferior to brace, soft, nontender
   EXT:  DP 2+
   NEURO: able to move all extremeties, strength 5/5 upper and lower, R
   hip < L hip.
   Labs / Radiology
   306 K/uL
   8.8 g/dL
   134 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   146 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
   LACTATE 1.1
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
   WBC
   11.3
   7.3
   6.1
   7.2
   5.2
   5.9
   7.5
   Hct
   24.9
   27.6
   26.5
   26.9
   26.0
   27.2
   26.8
   Plt
   227
   189
   209
   238
   240
   296
   306
   Cr
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   TCO2
   26
   Glucose
   114
   99
   115
   106
   100
   134
   134
   Other labs: PT / PTT / INR:13.5/23.6/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:27/19, Alk Phos / T Bili:118/0.3,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:243 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   UA: [**6-23**] WBC, [**3-18**] RBC, [**3-18**] EPI, trace bld, trace leuk, few bacter
   CXR: not sig changed from prev, R diaphragm elevated, possibly improved
   L costophrenic angle effusion, PICC line terminus difficult to
   visualize.
   Assessment and Plan
   55yoF with history of EtOH abuse presenting following mechanical fall
   and traumatic T spine fracture, now  s/p trach,  PEG,  placement being
   treated for HAP.
# HAP vs Aspiration PNA: Cultures grew, Klebsiella Oxytoca, Klebsiella Pneumonia
e, GNR, GP Cocci. Will continue to treat for potential HAP for 8 days.Pt continu
ing to have some fevers, last night 100.8, and new sputum on today w/ gram stain
 showing GPC p/c. New VAP/HAP w/ staph possible, but given no clear infiltrate o
n CXR and good respiratory status, significant PNA is unlikely, colonization of
trach is possible, as is contamination of sputum.  Given improving clinical [**First Name9 (NamePattern2) 1326**]
[**Last Name (LF) **], [**First Name3 (LF) 124**] wait until CX data or change in clinical status or CXR to initiate HAP
/VAP treatment.
   - Continue Ceftriaxone HAP (Day #6 of 8)
   - Continue to f/u cultures
   .
   # Respiratory failure:  Improving status. Will continue to increase
   time on trach mask as tolerated.
   -   PMV with suctioning.
   -   Weaning FiO2 as tolerated
   # Tachycardia: Pt in ST 120
s to 150s. Etiology remains unclear and
   etiologies include hypovolemia,  pain,  infection (pt with known
   klebsiella), . DDx also includes PE  given hx of RUE DVT, mucus
   plugging given large amount of secretions, and spinal injury.
          -      Treating underlying infection
   -          Restarting patients Coumadin, last INR 1.2 yesterday, not
   therapeutic, will recheck this PM
   -          TSH 2.4 on early [**Month (only) 779**], will check free T3, T4.
   -          Continue Pain Control
   -          Assess for PE w/ CTPA and UE u/s
   # Sedation: Pt has pain/delirium causing tachycardia and hypertension
   with intermittent hypotension. Had good response to morphine, minimal
   response to haldol bolus.
   - Haldol 5 PRN, Fentanyl 75 mcg TP, Diazapam 5 QID;
   - tolerating current regimen well, will continue to wean
   # Adrenal Insufficency: Followed up with endocrine that suggested if
   the patient under goes major stressors such as major surgery, sepsis,
   she may need stress dosed steroids.
   - Will consider MRI at later date for evaluation of pituitary
   # Fluid Status: Volume overloaded in prior setting of Hypernatremia
   Goal even today.
   - Monitoring urine output
   - increasse Free H20, for mild hypernatremia
   # RUE DVT: restarted Coumadin for INR 1.2, will follow INR carefully,
   given Abx.
   - Check INR this PM
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   # Tracheomalacia?: Discussed with IP.
   - Outpatient f/u once off pressure support to assess for possible
   stenting
   #. Thyroid Nodule on CT
   - Outpatient follow up
   # Nutrition:  TFs with goal of 60
   # Glycemic control: SSI, well controlled
   # Lines L PICC ([**9-27**]).
   # Ppx: Restarting Coumadin, Ranitidine, Bowel Regimen
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-14**] 06:23 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-14 08:35:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   s/p t spine fx with resp failure
   24 Hour Events:
 BLOOD CULTURED - At [**2167-10-14**] 02:18 AM
 SPUTUM CULTURE - At [**2167-10-14**] 02:18 AM
 URINE CULTURE - At [**2167-10-14**] 02:18 AM
   FEVER Pan cx
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Atrovent/Albuterol, Miralax, Chlorhex, Ceftriaxone, Thiamine Folate
   Valium 5 mg QID COumadin 2.5
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-10-14**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 137 (120 - 151) bpm
   BP: 125/55(73) {98/41(54) - 202/97(111)} mmHg
   RR: 23 (12 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,934 mL
                                                                    497 mL
   PO:
             TF:
                                                                  1,104 mL
                                                                    447 mL
   IVF:
                                                                  1,000 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    240 mL
   Urine:
                                                                    530 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,404 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (318 - 475) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 171
   SpO2: 98%
   ABG: ///32/
   Ve: 9 L/min
   Physical Examination
   Gen sitting up in [**Doctor First Name 1247**], on trach mask, interactive
   CV tachy RRR
   Chest good air movement ANT
   Abd soft NT + NS
   Ext: no edema
   Neuro: alert follows simple commands
   Labs / Radiology
   8.8 g/dL
   306 K/uL
   134 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   146 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
   WBC
   11.3
   7.3
   6.1
   7.2
   5.2
   5.9
   7.5
   Hct
   24.9
   27.6
   26.5
   26.9
   26.0
   27.2
   26.8
   Plt
   227
   189
   209
   238
   240
   296
   306
   Cr
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   TCO2
   26
   Glucose
   114
   99
   115
   106
   100
   134
   134
   Other labs: PT / PTT / INR:13.5/23.6/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:27/19, Alk Phos / T Bili:118/0.3,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:243 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   [**10-14**] - Sputum: 3+ GPC cocci in prs and chains
   [**10-11**] yeast
   Assessment and Plan 55 yr old alcoholic s/p t spine fx s/p trcah and
   PEG with persistent resp failure
   1.       Resp Failure: currently on trach mask, can do a few hours per
   day, then needs [**10-18**] for support. New pan [**Last Name (un) 46**] Klebs in  sputum, day
   [**6-21**]. Re- try. Holding off on stent by IP until after pulm rehab.
   2.       Fevers: DDx  - line infection VAP, check LFTs, check blood and
   urine cx, LUE ultrasounds -
   3       Hemodynamics: persistant simus tachy
 check CTPA to look for
   emboli- has been off on anti coag - tachycardia with slightly decreased
   UOP
 bolus IVF and trend UOP. Watch to see if response with
   tachycardia.
   4.       Anti coag: for upper ext DVT but INR elevated on coumadin +
   quinolone
 repeat inr low- trend with po COumadin
   5.       Adrenal Insufficiency: proper stim this AM, off steroids
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-14**] 06:23 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2167-10-15 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2167-10-14**] 03:48 PM
   US of Lt arm to R/O DVT. Shows small , nonobstructing clot in axillary
   vein of LEFT arm
   CTA- wet read neg for PE, though study limited by movement artifact
   Coumadin increased to 5mg last night
   Episode of emesis w/ tube gastric contents/ TFs extruding from
   tracheostomy site, around tube. TFs held.
   L PICC line left in place until AM.
   RUE U/S in am showed no DVT in right arm, resolved old clot.
   Endocrine consult left impressions/recs
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-15**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 135 (123 - 146) bpm
   BP: 141/65(82) {106/41(56) - 185/128(142)} mmHg
   RR: 19 (11 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
                  Total In:
                                                                  1,888 mL
                                                                    360 mL
   PO:
                  TF:
                                                                  1,268 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    240 mL
   Urine:
                                                                  1,510 mL
                                                                    240 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    358 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 227 (227 - 397) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 194
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GEN: Awake, alert, responsive. Sitting in bed. Indicated that she
   wanted to get out of the hospital. Cooperative.
   HEENT: PERRL, EOMI, no scleral icterus or injections.
   PULM: Large secretions, diffuse loud wet upperairway sounds/rhonchi, no
   wheezes, no rales, but difficult exam w/ poor inspiration.
   CARD: tachycardic, regular, ,s1, s2,
   ABD: abdomen obese, mildly distended, nontender, no rebound, no
   guarding.
   EXT:  DP 2+
   NEURO: able to move all extremeties, strength 5/5 upper and 4-5/5
   lower, R hip < L hip.
   Labs / Radiology
   306 K/uL
   8.8 g/dL
   134 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   146 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2167-10-9**]  03:10 AM
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
   WBC
   11.3
   7.3
   6.1
   7.2
   5.2
   5.9
   7.5
   Hct
   24.9
   27.6
   26.5
   26.9
   26.0
   27.2
   26.8
   Plt
   227
   189
   209
   238
   240
   296
   306
   Cr
   0.7
   0.6
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   TCO2
   26
   Glucose
   114
   99
   115
   106
   100
   134
   134
   Other labs: PT / PTT / INR:15.5/24.8/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:27/19, Alk Phos / T Bili:118/0.3,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:243 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   CXR: no sig change from previous, some R sided infiltrate vs effusion,
   redistrubted from previous
   RUE U/S: (PRELIM) No evidence of DVT in the right upper extremity.
   Resolution of nonocclusive thrombus in the right axillary and basilic
   veins.
   LUE U/S: (PRELIM) Very small segment (1-cm in length) of nonocclusive
   thrombus in the left axillary vein. A PICC catheter is present on the
   left.
   Assessment and Plan
   55yoF with history of EtOH abuse presenting following mechanical fall
   and traumatic T spine fracture, now  s/p trach,  PEG,  placement being
   treated for HAP.
# HAP vs Aspiration PNA: Cultures grew, Klebsiella Oxytoca, Klebsiella Pneumonia
e, GNR, GP Cocci. Has completed 8 day course of Ceftriaxone. Has had occasional
low grade fevers, but has continued to improve clinically. Had a sputum gram sta
in from [**10-14**] w/ GPC p/c. a new VAP/HAP w/ staph possible, but given no clear inf
iltrate on CXR and good respiratory status, significant PNA is unlikely, coloniz
ation of tracheostomy tube is more likely, as is contamination of sputum.  Given
 improving clinical picture, will wait until CX data or change in clinical statu
s or CXR to initiate HAP/VAP treatment.
   - D/c Ceftriaxone
   - Continue to f/u cultures
   .
   # Respiratory failure:  Improving status. Will continue to increase
   time on trach mask as tolerated.
   -   PMV with suctioning.
   -   Weaning FiO2 as tolerated
   # Tachycardia: Pt in ST 120
s to 150s. Etiology remains unclear and
   include hypovolemia,  pain,  infection (pt with known klebsiella), and
   incrased work of breathing from secretions and tracheomalacia, . DDx
   also includes PE  given hx of RUE DVT, mucus plugging given large
   amount of secretions, and spinal injury. Tachycardia is unresponsive to
   IVF, Pt has had a negative CT-PA and has not had sig response to pain
   meds. Has completed treatment for her HAP. Thyroid function was checked
   and had normal TSH and T3 and  free T4. Had been on albuterol q4 and
   atrovent , she has not been wheezing, and perhaps she is sensitive to
   the B-agonist.
   -          Continue Pain Control
   -          Change albuterol to PRN
   -          Test if HR decreases when placed on higher pressure support
   for period of time.
   # Sedation: Has had inconsistent response to sedation, unclear what is
   best regime. Will continue to wean overall
   - Change to haldol 2.5 PRN, Fentanyl 75 mcg TP, Morphine [**1-16**] PRN,
   Benadryl, Valium 5mg PRN
   # Adrenal Insufficency: Followed up with endocrine that suggested if
   the patient under goes major stressors such as major surgery, sepsis,
   she may need stress dosed steroids.
   - Will consider MRI at later date for evaluation of pituitary
   # Fluid Status: Volume overloaded in prior setting of Hypernatremia
   - Monitoring urine output
   - increasse Free H20, for mild hypernatremia 200cc Free bolus PEG, and
   - 500cc D5W at 125.
   - PM lytes to assess hypernatremia
   # UE DVT: right has resolved, new non occlusive in left axillary. INR
   1.5
   -continue coumadin
   -follow INR
   - D/c Left PICC line, and place peripheral IVs. If unable, can place a
   R PICC.
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   # Tracheomalacia?: Was initially addressed with IP and they wanted to
   follow up as outpatient.
   - Consult IP for stent placement given improved clinical status, will
   readdresses
   #. Thyroid Nodule on CT
   - Outpatient follow up
   # Nutrition:  Pt had emesis and extrusion of gastric contents through
   tracheostomy site (not through tube).
   - TFs held
   - Consult IR for advancement of her PEG to jejunum.
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: Restarting Coumadin, Ranitidine, Bowel Regimen PRN
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-15 11:00:00 Physician Attending Progress Note
Chief Complaint: resp failuire
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2167-10-14**] 03:48 PM
   US of Lt arm shows small 1 cm axillary clot non occlusive near PICC
   RUS US shows resolutyion of formal clot
   Vomting tube feeds around trach
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-10-15**] 06:20 AM
   Pantoprazole (Protonix) - [**2167-10-15**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Emesis
   Flowsheet Data as of  [**2167-10-15**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 146 (123 - 146) bpm
   BP: 153/129(134) {106/41(56) - 185/129(142)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
                  Total In:
                                                                  1,888 mL
                                                                    520 mL
   PO:
                  TF:
                                                                  1,268 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    845 mL
   Urine:
                                                                  1,510 mL
                                                                    820 mL
   NG:
                                                                     20 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    358 mL
                                                                   -325 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 227 (227 - 397) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 194
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   335 K/uL
   121 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   7 mg/dL
   107 mEq/L
   147 mEq/L
   27.0 %
   5.6 K/uL
        [image002.jpg]
                             [**2167-10-9**]  03:08 PM
                             [**2167-10-10**]  03:00 AM
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
   WBC
   7.3
   6.1
   7.2
   5.2
   5.9
   7.5
   5.6
   Hct
   27.6
   26.5
   26.9
   26.0
   27.2
   26.8
   27.0
   Plt
   189
   209
   238
   [**Telephone/Fax (3) 1363**]
   335
   Cr
   0.6
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   TCO2
   26
   Glucose
   99
   115
   106
   100
   134
   134
   121
   Other labs: PT / PTT / INR:16.6/25.0/1.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55 yr old alcoholic s/p t spine fx s/p trcah and PEG with persistent
   resp failure
   1.       Resp Failure: currently on trach mask, can do a few hours per
   day, then needs [**10-18**] for support. New pan [**Last Name (un) 46**] Klebs in   sputum, day
   [**8-21**]. Try more vent support and see if it helps her.
   2.       Fevers: did not persist- cultures neg to date.
   3       Hemodynamics: persistant simus tachy
 CTPA to look for emboli
   negative for proximal clot. IOs the [**Last Name (un) 1367**] of trach mask and her TB
   malacia too much for her. We will see what happens if we out her on
   15-20 and 5.
   4.       New L Ext DVT
   5. Emesis: call IR and get g pushed to a j tube
   ICU Care
   Nutrition: tfs held for vomiting
   Glycemic Control:
   Lines:
   PICC Line - [**2167-9-27**] 09:19 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:  ppi
   Communication:  try to reach boyfriend
   [**Name (NI) 156**] status: Full code
   Disposition :ICU

2167-10-16 07:50:00 Physician Resident Progress Note
Chief Complaint: Tracheomalacia
   24 Hour Events:
 ULTRASOUND - At [**2167-10-15**] 08:11 AM
   right arm - negative for DVT
 PICC LINE - STOP [**2167-10-15**] 12:02 PM
   - IR unable to advance PEG
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-15**] 08:12 AM
   Morphine Sulfate - [**2167-10-15**] 12:00 PM
   Haloperidol (Haldol) - [**2167-10-15**] 02:00 PM
   Diazepam (Valium) - [**2167-10-15**] 03:52 PM
   Furosemide (Lasix) - [**2167-10-16**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 139 (97 - 146) bpm
   BP: 133/67(84) {93/43(55) - 183/129(134)} mmHg
   RR: 18 (13 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,220 mL
                                                                    568 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  1,514 mL
                                                                    150 mL
   Urine:
                                                                  1,439 mL
                                                                    150 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                   -294 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (311 - 675) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 52
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   395 K/uL
   9.0 g/dL
   619 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.3 mEq/L
   6 mg/dL
   91 mEq/L
   129 mEq/L
   29.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
   WBC
   7.2
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   Hct
   26.9
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   Plt
   238
   240
   296
   [**Telephone/Fax (3) 1399**]
   395
   Cr
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   0.7
   TCO2
   26
   Glucose
   115
   106
   100
   134
   134
   121
   619
   Other labs: PT / PTT / INR:23.4/29.6/2.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Microbiology: [**2167-10-15**] 7:34 am STOOL     CONSISTENCY: FORMED
   Source: Stool.
                               **FINAL REPORT [**2167-10-15**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2167-10-15**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   .
   [**2167-10-15**] 7:33 am BLOOD CULTURE      Source: Line-picc.
                               **FINAL REPORT [**2167-10-16**]**
      Blood Culture, Routine (Final [**2167-10-16**]):    NO GROWTH
   Assessment and Plan
   Assessment and Plan
   55yoF with history of EtOH abuse presenting following mechanical fall
   and traumatic T spine fracture, now  s/p trach,  PEG,  placement being
   treated for HAP.
   # HAP vs Aspiration PNA: Cultures grew, Klebsiella Oxytoca, Klebsiella
   Pneumoniae, GNR, GP Cocci. Has completed 8 day course of Ceftriaxone.
   Has had occasional low grade fevers, but has continued to improve
   clinically. Had a sputum gram stain from [**10-14**] w/ GPC p/c. a new VAP/HAP
   w/ staph possible, but given no clear infiltrate on CXR and good
   respiratory status, significant PNA is unlikely, colonization of
   tracheostomy tube is more likely, as is contamination of sputum.  Given
   improving clinical picture, will wait until CX data or change in
   clinical status or CXR to initiate HAP/VAP treatment.
   - D/c Ceftriaxone
   - Continue to f/u cultures
   .
   # Respiratory failure:  Improving status. Will continue to increase
   time on trach mask as tolerated.
   -   PMV with suctioning.
   -   Weaning FiO2 as tolerated
   .
   # Tachycardia: Pt in ST 120
s to 150s. Etiology remains unclear and
   include hypovolemia,  pain,  infection (pt with known klebsiella), and
   incrased work of breathing from secretions and tracheomalacia, . DDx
   also includes PE  given hx of RUE DVT, mucus plugging given large
   amount of secretions, and spinal injury. Tachycardia is unresponsive to
   IVF, Pt has had a negative CT-PA and has not had sig response to pain
   meds. Has completed treatment for her HAP. Thyroid function was checked
   and had normal TSH and T3 and  free T4. Had been on albuterol q4 and
   atrovent , she has not been wheezing, and perhaps she is sensitive to
   the B-agonist.
   -          Continue Pain Control
   -          Change albuterol to PRN
   -          Test if HR decreases when placed on higher pressure support
   for period of time.
   .
   # Sedation: Has had inconsistent response to sedation, unclear what is
   best regime. Will continue to wean overall
   - Change to haldol 2.5 PRN, Fentanyl 75 mcg TP, Morphine [**1-16**] PRN,
   Benadryl, Valium 5mg PRN
   .
   # Adrenal Insufficency: Followed up with endocrine that suggested if
   the patient under goes major stressors such as major surgery, sepsis,
   she may need stress dosed steroids.
   - Will consider MRI at later date for evaluation of pituitary
   .
   # Fluid Status: Volume overloaded in prior setting of Hypernatremia
   - Monitoring urine output
   - increasse Free H20, for mild hypernatremia 200cc Free bolus PEG, and
   - 500cc D5W at 125.
   - PM lytes to assess hypernatremia
   .
   # UE DVT: right has resolved, new non occlusive in left axillary. INR
   1.5
   -continue coumadin
   -follow INR
   - D/c Left PICC line, and place peripheral IVs. If unable, can place a
   R PICC.
   .
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia?: Was initially addressed with IP and they wanted to
   follow up as outpatient.
   - Consult IP for stent placement given improved clinical status, will
   readdresses
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   # Nutrition:  Pt had emesis and extrusion of gastric contents through
   tracheostomy site (not through tube).
   - TFs held
   - Consult IR for advancement of her PEG to jejunum.
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: Restarting Coumadin, Ranitidine, Bowel Regimen PRN
   # Communication:
   -          Boyfriend of 10 [**Name2 (NI) 579**]
   -          Brother also involved
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-10-15**] 12:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2167-10-16 09:16:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2167-10-15**] 08:11 AM
   right arm
 PICC LINE - STOP [**2167-10-15**] 12:02 PM
 PEG INSERTION - At [**2167-10-15**] 05:33 PM
 [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] placed PEG which
   cannot be advanced by IR. TSurg by and felt needs to fail Reglan first
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-10-15**] 12:00 PM
   Haloperidol (Haldol) - [**2167-10-15**] 02:00 PM
   Diazepam (Valium) - [**2167-10-15**] 03:52 PM
   Furosemide (Lasix) - [**2167-10-16**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-16**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 137 (97 - 146) bpm
   BP: 153/66(87) {93/43(55) - 183/129(134)} mmHg
   RR: 18 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,220 mL
                                                                    807 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  1,514 mL
                                                                    150 mL
   Urine:
                                                                  1,439 mL
                                                                    150 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                   -294 mL
                                                                    657 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (311 - 675) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 52
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 4.6 L/min
   Physical Examination
   Gen: sitting up in bed, answers simples questions
   CV: tachy RR
   Chest: good air moevemtn but long exp time and bibasilar rales
   Abd: soft NT + BS PEG CDI
   Ext: no edema
   Neuro: attentive, mouths answers to words, moving all ext
   Labs / Radiology
   9.0 g/dL
   395 K/uL
   126 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.0 mEq/L
   7 mg/dL
   102 mEq/L
   144 mEq/L
   29.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2167-10-10**]  03:36 AM
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
   WBC
   7.2
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   Hct
   26.9
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   Plt
   238
   240
   296
   [**Telephone/Fax (3) 1399**]
   395
   Cr
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   TCO2
   26
   Glucose
   115
   106
   100
   134
   134
   121
   619
   126
   Other labs: PT / PTT / INR:24.2/27.7/2.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan  55 yr old alcoholic s/p t spine fx s/p trcah and
   PEG with persistent resp failure
   1.   Resp Failure: currently on trach mask, can do sevreal hours per
   day and increasing each day, then needs [**10-18**] for support QHS. Completed
   Rx for pan [**Last Name (un) 46**] Klebs PNA.   Per IP not stent planned as technically
   not possible to place into her airway
   2.   Hemodynamics: persistant simus tachy but also has runs of SVT-
   will add low dose bblocker today
 watch MAPs at night as
        she tends to run low. Anticoagulated.
   3.   New L Ext DVT: PICC out, on coumadin
   4.   Emesis: start Reglan, watch qt and restart low dose tf tonight-
   discuss with TSurg role of J prior to hospital d/c
   ICU Care
   Nutrition: restart TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-15**] 12:26 PM
   Prophylaxis:
   DVT: couadin
   Stress ulcer:  PPI
   Communication:  trying to reach boyfriend
   [**Name (NI) 156**] status: Full code
   Disposition :screening for rehab

2167-10-17 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt continued on B-Blocker for prior runs of SVT, HR peaked in 135
   Olanzapine 5mg QHS
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-17**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 131 (119 - 149) bpm
   BP: 111/53(67) {99/28(50) - 185/99(144)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,408 mL
                                                                    200 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  2,358 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                  1,320 mL
   Urine:
                                                                  1,795 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    613 mL
                                                                 -1,120 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 415 (244 - 415) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///38/
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   462 K/uL
   9.0 g/dL
   137 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   5 mg/dL
   101 mEq/L
   146 mEq/L
   28.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
   WBC
   7.2
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   Hct
   26.9
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   Plt
   238
   240
   296
   [**Telephone/Fax (3) 1399**]
   395
   462
   Cr
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   Glucose
   115
   106
   100
   134
   134
   121
   [**Telephone/Fax (3) 1444**]
   Other labs: PT / PTT / INR:36.6/30.0/3.9, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now  s/p
   trach,  PEG,  placement being with respiratory failure secondary to
   tracheomalacia and HAP.
   .
   # Respiratory failure:  Improving status. Will continue to increase
   time on trach mask as tolerated.
   -  PMV with suctioning.
   -  Continue to increase time on trach mask as tolerated.
   .
   # HAP vs Aspiration PNA: Cultures Positive for, Klebsiella Oxytoca,
   Klebsiella Pneumoniae, GNR, GP Cocci. 8 day course of Ceftriaxone
   completed. Occasional low grade fevers, clinically improved. Sputum
   gram stain from [**10-14**] w/ GPC p/c. new VAP/HAP w/ staph possible, no
   clear infiltrate on CXR and good respiratory status. Potential
   colonization of tracheostomy and contamination of sputum.  Given
   improving clinical picture, will wait until CX data or change in
   clinical status or CXR to initiate HAP/VAP treatment.
   - Completed course of ceftriaxone
   - Continue to f/u cultures
   - Continue trach mask as tolerated
   .
   # Tachycardia: Sinus Tach. HR decreases overnight with ranges of
   115-135. From yesterday when pt found had runs of SVT as well as ST
   120
s to 150s. SBPs approx  65.
   Negative CT to evaluate for DVT, resp failure likely contributing
   - cont metoprolol 12.5mg TID and uptitrate as tolerated
   - monitor on telemetry
   - Continue Pain Control
   - Change albuterol to PRN
   .
   # Mental Status / Sedation: Has had inconsistent response to sedation,
   unclear what is best regime. Will continue to wean overall
   -  DC haldol and taper valium to 2.5 mg PRN TID, taper off
   # Adrenal Insufficency: Followed up with endocrine that suggested if
   the patient under goes major stressors such as major surgery, sepsis,
   she may need stress dosed steroids.
   - Endocrine s/o
 no need for steroids currently
   .
   # Fluid Status: Volume overloaded in prior setting of Hypernatremia
   - Monitoring urine output
   - increasse Free H20, for mild hypernatremia 200cc Free bolus PEG, and
   - 500cc D5W at 125.
   - PM lytes to assess hypernatremia
   .
   # UE DVT: right has resolved, new non occlusive in left axillary. INR
   1.5
   - continue coumadin
   - follow INR
   - PICC lines DC
   .
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia?: Was initially addressed with IP and they wanted to
   follow up as outpatient.
   - Consult IP for stent placement given improved clinical status, will
   readdresses
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Nutrition:  Pt had emesis and extrusion of gastric contents through
   tracheostomy site (not through tube).
   - TFs held
   - Appreciate thoracic
s recs
 will add reglan 10mg Q6
   .
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: Restarting Coumadin, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-17**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-17 10:38:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   episode of SVT -- beta blocker begun
   valium decreased, haldol d/c'd, zyprexa started
   c collar removed
   History obtained from [**Hospital 19**] Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-17**] 08:11 AM
   Other medications:
   [**Last Name (LF) 1449**], [**First Name3 (LF) 1023**], docusate, senna, SQI, thiamine, folate, warfarin,
   lopressor, valium, reglan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-17**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 131 (119 - 149) bpm
   BP: 118/95(99) {99/28(50) - 185/99(144)} mmHg
   RR: 28 (11 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,408 mL
                                                                    370 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  2,358 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                  1,445 mL
   Urine:
                                                                  1,795 mL
                                                                  1,445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    613 mL
                                                                 -1,075 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 415 (244 - 415) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   462 K/uL
   137 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   5 mg/dL
   101 mEq/L
   146 mEq/L
   28.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2167-10-10**]  04:40 PM
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
   WBC
   7.2
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   Hct
   26.9
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   Plt
   238
   240
   296
   [**Telephone/Fax (3) 1399**]
   395
   462
   Cr
   0.6
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   Glucose
   115
   106
   100
   134
   134
   121
   [**Telephone/Fax (3) 1444**]
   Other labs: PT / PTT / INR:36.6/30.0/3.9, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   1.   Resp Failure: currently on trach mask, can do sevreal hours per
   day and increasing each day, then needs [**10-18**] for support QHS. Completed
   Rx for pan [**Last Name (un) 46**] Klebs PNA.   Per IP not stent planned as technically
   not possible to place into her airway
   2.   Hemodynamics: persistant simus tachy but also has runs of SVT-
   will add low dose bblocker today
 watch MAPs at night as
        she tends to run low. Anticoagulated.
   3.   New L Ext DVT: PICC out, on coumadin
   4.   Emesis: start Reglan, watch qt and restart low dose tf tonight-
   discuss with TSurg role of J prior to hospital d/c
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-17**] 08:39 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2167-10-18 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was agitated during the day with no response to PRN zyprexa.
   Her sodium was increased to 150 yesterday, and she was given 500cc D5W
   bolus and her FW flushes for her tube feeds were increases from 100 to
   150.
   Overnight, pt received zyprexa, valium, and was placed back on the
   ventilator, after which she was more sedated and her SBP dropped to the
   70s and HR remained 120-130s. Her BP came back up to 110s-120s when she
   was woken up.
   She was agitated again until approx 5am when she was given her
   Metoprolol and 2.5 mg valium, after which her HR dropped to the 80s and
   stayed there for 2+ hours.
   Careful examination of telemetry revealed that she has likely been in
   an SVT and that after getting her BB, converted back to a sinus rhythm.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-17**] 08:11 AM
   Morphine Sulfate - [**2167-10-18**] 04:00 AM
   Diazepam (Valium) - [**2167-10-18**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-18**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 126 (118 - 140) bpm
   BP: 98/62(70) {74/38(47) - 145/105(114)} mmHg
   RR: 29 (11 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                    959 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                    176 mL
                                                                    140 mL
   IVF:
                                                                    463 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    130 mL
   Urine:
                                                                  1,980 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,021 mL
                                                                  1,120 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 408 (408 - 499) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 149
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: ///36/
   Ve: 6.4 L/min
   Physical Examination
   Gen: NAD, difficult to assess orientation as patient is nonverbal on
   trach mask, but she appeared alert, and resonded appropriately to
   questions and followed commands.
   HEENT: PERRLA, EOMI, OP w/o erythema.
   Resp: Limited by patients mobility, but CTA anteriorly and laterally
   Card: S1S2 tachicardic, no m/r/g
   Abd: Soft, Non-tender, Non-distended, BS+
   Exte: No edema, DP 2+, RP2+ bil.
   NEURO: CN II
XII grossly intact. Strength 4/5 upper and lower
   bilaterally. Reflexes 2+ bilaterally, 3+ at L patellar tendon, with
   mild adductor crossover
   Labs / Radiology
   452 K/uL
   8.9 g/dL
   104 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.5 mEq/L
   6 mg/dL
   103 mEq/L
   145 mEq/L
   29.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2167-10-11**]  03:00 AM
                             [**2167-10-11**]  07:05 PM
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
   WBC
   7.2
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   Hct
   26.9
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   Plt
   238
   240
   296
   [**Telephone/Fax (3) 1399**]
   395
   462
   452
   Cr
   0.9
   0.7
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   Glucose
   106
   100
   134
   134
   121
   619
   126
   137
   104
   Other labs: PT / PTT / INR:66.1/32.7/8.0, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now  s/p
   trach,  PEG,  placement no with respiratory failure secondary to
   tracheomalacia , resolving HAP.
   .
   # Respiratory failure:  Slowly Improving.  Now remaining on trach mask
   for most of the day and night, with periods of pressure support of [**10-18**]
   over night.
   -  Continue to increase time on trach mask as tolerated.
   -  PMV with suctioning again today.
   .
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - Continue to f/u cultures
   - Continue trach mask as tolerated
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. But, now appears to be SVT for
   much of time, rhythm,/rate nonresponsive to carotid massage. HR
   decreased to 80s w/ stable BPs for approx 2 hour period overnight that
   seems to be associated with administration of her BB and valium. Rhythm
   strip shows conversion from a narrow complex non-sinus tachycardia to
   normal sinus rhythm.
   - Increase Metroprolol from 25mg TID to 25mg QID
   - Consider further adjustment of BB as tolerated by BP.
   - If not sufficient for rhythm conversion, consult cardiology for
   management.
   .
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall. Possibly improved level of
   agitation when rhytm returned to sinus.
   -  Continue w Olanzapine QHS
   -  DC
d haldol and taper valium to 2.5 mg PRN TID w/ 2.5 mg PRNs.
   # Nutrition:  Tube feeds have been restarted and pt started on raglan.
   Has been tolerating feeds well so far.
   - Continue TFs, w/ FW flushes
   - Nutrition recs appreciated.
   .
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - FW flushes at 100/hr w/ tube feeds
   - PM lytes to trend Na
   .
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic today
   - COumadin held, will restart at low dose when INR approaches
   therapeutic range.
   - follow INR
   .
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient.
   - Consult IP for stent placement given improved clinical status, will
   readdress
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: Coumadin, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-17**] 12:38 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-18**] 12:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-19 05:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   8pm: Vomited tube feeds while receiving free water flushes. Suctioned
   by RT and no apparent aspiration, only blood tinged sputum. O2 sats
   99-100%. No increased O2 requirement. Held TF, given free water via IV
   100 cc/hr x 1L since Na 148. Will need to reassess in am, CXR ordered
   for am.
   Thoracics recs: place dophoff post pyloric or have GI place pedi GT
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2167-10-19**] 12:00 AM
   Furosemide (Lasix) - [**2167-10-19**] 01:30 AM
   Morphine Sulfate - [**2167-10-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-19**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 113 (81 - 137) bpm
   BP: 78/45(52) {78/39(50) - 130/73(108)} mmHg
   RR: 12 (12 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,165 mL
                                                                    700 mL
   PO:
             TF:
                                                                    691 mL
   IVF:
                                                                  1,574 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    680 mL
   Urine:
                                                                  1,470 mL
                                                                    680 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,495 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 94 (94 - 450) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 5.1 L/min
   Physical Examination
   Gen: Obtunded this am, not responsive to voice, minimally responsive to
   noxious stimuli, on MMV through trach tube
   HEENT: PERRL, MMM,
   Resp: Limited by patients mobility, but CTA anteriorly and laterally,
   no rales, rhonchi, or wheezing, some referred upper airway noises from
   secretions.
   Card: S1S2 tachicardic, no m/r/g
   Abd: Obese, soft, Non-distended, BS+
   Exte: No edema, DP 2+, RP2+ bil.
   NEURO: Toes downgoing bilaterally, patellar reflexs 2+ bil, biceps 2+
   bil,
   Labs / Radiology
   467 K/uL
   8.6 g/dL
   131 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   8 mg/dL
   101 mEq/L
   145 mEq/L
   27.8 %
   6.9 K/uL
        [image002.jpg]
   COAGs:  38.8/34.5/4.2
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
   WBC
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   Hct
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   Plt
   [**Telephone/Fax (3) 1504**]35
   [**Telephone/Fax (2) 1505**]52
   467
   Cr
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   Glucose
   100
   134
   134
   121
   [**Telephone/Fax (2) 1506**]04
   108
   131
   Other labs: PT / PTT / INR:66.1/32.7/8.0, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now  s/p
   trach,  PEG,  placement no with respiratory failure secondary to
   tracheomalacia , resolving HAP.
   .
   # Respiratory failure:  Slowly Improving.  Now remaining on trach mask
   for most of the day and night, with periods of pressure support of [**10-18**]
   over night. Last night required MMV and was not breathing well while
   asleep, likely oversedated with Benadryl, Morhpine, and Valium
   administered in the early morning. Pt awake and alert at rounds,
   interactive, and breathing comfortably on trach mask
   -  Continue to increase time on trach mask as tolerated.
   -  Decrease sedation and valium use see Sedation below
   -  PMV with suctioning again today.
   .
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - good O2 saturation on trach mask
   - Continue to f/u cultures
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. But, now appears to be SVT for
   much of time, rhythm/rate nonresponsive to carotid massage. HR
   occaisonaly decreases to 70s-80s w/ stable BPs at times that might be
   associated with administration of her BB and valium. Rhythm strip shows
   conversion from a narrow complex SVT to normal sinus rhythm and then
   back. Metroprolol was increased from 25mg TID to QID yesterday, without
   any affect on the SVT.
   - EP consulted for conversion of SVT, appreciate recs
   .
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall.
   -  Continue w Olanzapine QHS
   -  D/d valium to 2.5 mg TID and leave just valium 2.5 mg PRN.
   # Nutrition:  Pt has had several episodes of vomiting  up her TFs,
   reglan started to increase GI motility, but pt had another episode of
   vomiting last night.
   - Hold TFs
   - Thoracic surgery recs: 1) oral/nasal tube in post-piloric position,
   or 2) IR to place a pediatric feeding tube through her PEG site to a
   post-piloric position.
   - Will attempt to coordinate thoracic surgery and IR for tube placement
   tomorrow.
   .
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - FW flushes w/ tube feeds held due to vomitting
   - will provide D5W IVF as need for hypernatremia and follow lytes
   .
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic today
   - COumadin held, will restart at low dose when INR approaches
   therapeutic range.
   - INR 4.2 today, will check PM coags and consider restarting at a low
   dose tonight or tomorrow morning.
   .
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: Coumadin, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Will contact Social [**Name2 (NI) **] and Case management today
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-19 10:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Another episode of emesis
   Was on MMV
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2167-10-19**] 12:00 AM
   Furosemide (Lasix) - [**2167-10-19**] 01:30 AM
   Morphine Sulfate - [**2167-10-19**] 02:00 AM
   Pantoprazole (Protonix) - [**2167-10-19**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-19**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 101 (74 - 137) bpm
   BP: 105/57(67) {75/42(50) - 130/73(108)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,165 mL
                                                                  1,720 mL
   PO:
             TF:
                                                                    691 mL
   IVF:
                                                                  1,574 mL
                                                                  1,665 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                  1,020 mL
   Urine:
                                                                  1,470 mL
                                                                    965 mL
   NG:
                                                                    200 mL
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                  1,495 mL
                                                                    700 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 94 (94 - 450) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 5.6 L/min
   Physical Examination
   Gen: sitting in bed, alert NAD
   CV: tachy RR
   Ches: bibasilar rhonchi no hweezest
   Abd; soft NT
   Ex: no edemat
   Neuro: alert, follows simple commands and mouth words [**5-18**] grip and [**5-18**]
   strength inlower ext
   Labs / Radiology
   8.6 g/dL
   467 K/uL
   131 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   8 mg/dL
   101 mEq/L
   145 mEq/L
   27.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2167-10-12**]  03:00 AM
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
   WBC
   5.2
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   Hct
   26.0
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   Plt
   [**Telephone/Fax (3) 1504**]35
   [**Telephone/Fax (2) 1505**]52
   467
   Cr
   0.6
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   Glucose
   100
   134
   134
   121
   [**Telephone/Fax (2) 1506**]04
   108
   131
   Other labs: PT / PTT / INR:38.8/34.5/4.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   1. Tachycardia: runs of atach versus AVNRT. On bblocker be not very
   effective- EP consult for ? is there an ablatable focus.
   2.  Resp Failure
          Trach mask trials as tolerating (needing QHS support at
   present)
          PMV trials
          S/P rx for pan [**Last Name (un) 46**] Klebs PNA.
          Per IP not stent planned as technically not possible to
   place into her airway
   3. DVT and coagulopathy On warfarin but high inr.  Hold warfarin until
   inr 2-2.5 range or bridge with loveox if may get procedures
   4. Feeding tube Getting reglan trial but still with emesis. Need to
   coordinate IR advance of G to J tube with Thoracics
   5. Hypernatremia  Replete free water.
   Please see today
s ICU team note for other issues.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   Prophylaxis:
   DVT: anti coag
   Stress ulcer: ppi
   Communication:  trying to reach boyfriend
   [**Name (NI) 156**] status: Full code
   Disposition : ICU, start screening still need to fix  tachycardia

2167-10-20 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2167-10-19**] 11:50 AM
   aqdenosine 6mg given X 1 by cardiologist to assess pt's rhythm. Pt
   tolerated well, transiently converted.
   Valium, Benadryl held overnight which pt tolerated.
   Emesis again this am so TF held.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-19**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 114 (85 - 144) bpm
   BP: 111/59(69) {84/42(0) - 154/134(138)} mmHg
   RR: 12 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,945 mL
                                                                    274 mL
   PO:
             TF:
   IVF:
                                                                  1,800 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    500 mL
   Urine:
                                                                  2,245 mL
                                                                    500 mL
   NG:
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 319 (319 - 319) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 5.5 L/min
   Physical Examination
   Gen: Obtunded this am, not responsive to voice, minimally responsive to
   noxious stimuli, on MMV through trach tube, but later responsive to
   voice, appropriate, asking questions, mouthing responses
   HEENT: PERRL, MMM,
   Resp: Coarse BS anteriorly, no focal rales, rhonchi, or wheezing with
   some referred upper airway noises from secretions.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, hypoactive BS
   Exte: No edema, DP 2+ bil.
   NEURO: Toes downgoing bilaterally,
   Labs / Radiology
   548 K/uL
   10.0 g/dL
   128 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   148 mEq/L
   32.7 %
   7.6 K/uL
        [image002.jpg]
   [**10-14**], 10/2 blood cx NGTD
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
   WBC
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   7.6
   Hct
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   32.7
   Plt
   296
   306
   335
   [**Telephone/Fax (3) **]
   452
   467
   548
   Cr
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   Glucose
   134
   134
   121
   [**Telephone/Fax (3) 1444**]
   104
   108
   131
   128
   Other labs: PT / PTT / INR:48.3/33.3/5.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now  s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly Improving.  Now remaining on trach mask
   for most of the day, with periods of pressure support of [**10-18**] over
   night. This am on MMV. Previously likely oversedated with Benadryl,
   Morhpine, and Valium which were held overnight. Pt awake and alert at
   rounds, interactive, and breathing comfortably on trach mask
   -  Continue to increase time on trach mask as tolerated.
   -  Decrease sedation and valium use
   -  PMV with suctioning
   .
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - good O2 saturation on trach mask
   - Continue to f/u cultures
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. Per Cardiology, most likely AT
   given transient response to Adenosine. HR occasionally decreases to
   70s-80s w/ stable BPs at times that might be associated with
   administration of her BB and valium. Cards recommended titating up her
   beta blocker as tolerated. Dose increased to 37.5 yesterday but still
   tachycardic.
   - EP consulted for conversion of SVT, appreciate recs
   - Increase metoprolol to 50 PO QID with holding parameters
   .
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall.
   -  Continue w Olanzapine QHS
   -  Just valium 2.5 mg PRN.
   # Nutrition/Vomiting:  Pt has had several episodes of vomiting  up her
   TFs, reglan started to increase GI motility, but pt had another episode
   of vomiting this am, not improved with zofran or reglan. Pateint also
   had hypoactive BS on exam, concern for obstruction given persistent
   vomiting, inability to tolerate tube feeds.
   - Hold TFs
   - Thoracic surgery recs: 1) oral/nasal tube in post-piloric position,
   or 2) IR to place a pediatric feeding tube through her PEG site to a
   post-piloric position.
   - Will attempt to coordinate thoracic surgery and IR for tube placement
   ; will d/w thoracics. IR will not do further intervention due to disk
   on G tube
   - CT scan to evaluate for obstruction, etiology of persistent emesis,
   consider tube study as well
   .
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - FW flushes w/ tube feeds held due to vomitting
   - will provide D5W IVF as need for hypernatremia and follow lytes
   .
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic today and
   trending upward. INR most likely continuing to rise [**2-14**] nutritional
   deficiencies given lack of PO intake
   - Cumadin held, will restart at low dose when INR approaches
   therapeutic range.
   - INR 5.5 today, will check PM coags and follow
   .
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: supratherapeutic INR, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Will contact Social [**Name2 (NI) **] and Case management today
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-20 11:48:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2167-10-19**] 11:50 AM
   aqdenosine 6mg given X 1 by cardiologist to assess pt's rhythm. Pt
   tolerated well.
   Held Valium ansd Benedryl and has done well without
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-20**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 118 (76 - 144) bpm
   BP: 131/72(85) {93/43(0) - 154/134(138)} mmHg
   RR: 26 (12 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,945 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                  1,800 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    680 mL
   Urine:
                                                                  2,245 mL
                                                                    680 mL
   NG:
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 319 (319 - 319) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///36/
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   548 K/uL
   128 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   148 mEq/L
   32.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2167-10-13**]  05:00 AM
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
   WBC
   5.9
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   7.6
   Hct
   27.2
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   32.7
   Plt
   296
   306
   335
   [**Telephone/Fax (3) **]
   452
   467
   548
   Cr
   0.7
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   Glucose
   134
   134
   121
   [**Telephone/Fax (3) 1444**]
   104
   108
   131
   128
   Other labs: PT / PTT / INR:48.3/33.3/5.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   1. Tachycardia: runs of attach Appreciate EP consult
 will increase
   bblocker. If fails may need EP study for further study and ? ablatable
   focus.
   2. Persistent Nausea/Vomiting: very poor bowel sounds, get ABD ct to
   look for SBO, talk with GI about EGD or tube study to look for more
   proximal gastric outlet obstruction.
   2.  Resp Failure
          Trach mask trials all day, PSV
          PMV trials
          S/P rx for pan [**Last Name (un) 46**] Klebs PNA.
          Per IP not stent planned as technically not possible to
   place into her airway
   3. DVT and coagulopathy: On warfarin but high inr.  Hold warfarin until
   inr 2-2.5 range or bridge with loveox if may get procedures
   4. Feeding tube Getting reglan trial but still with emesis. Need to
   coordinate IR advance of G to J tube with Thoracics
   5. Hypernatremia  Replete free water.
   Please see today
s ICU team note for other issues.
   ICU Care
   Nutrition: NPPO while sorting out gi obstruction issues
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2167-10-21 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Multiple vomitting episodes, not improved much w/ zofran.
   Unable to tolerate anything through her PEG
   Had an Abdominal CT w/contrast, but vomitted up most of the constrast.
   limited study. Prelim read:  no obstruction, PEG in place
   Nurse [**First Name (Titles) 1558**] [**Last Name (Titles) 1559**] positive coffe-grounds emesis and w/ a later
   episode, clear emesis with some small blood when she suctioned the
   posterior pharynx. HCT stable
   TFs were held
   Dr. [**Last Name (STitle) 202**] had a conversation with the pt
s brother.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-21**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 110 (76 - 136) bpm
   BP: 98/63(60) {80/40(49) - 149/88(92)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,241 mL
                                                                  1,335 mL
   PO:
             TF:
   IVF:
                                                                  1,941 mL
                                                                  1,335 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    140 mL
   Urine:
                                                                  1,830 mL
                                                                     90 mL
   NG:
                                                                     30 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                  1,195 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 809 (300 - 1,054) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 5.8 L/min
   Physical Examination
   Gen: Mildly obtunded in am, responsive to noxious stimuli, on MMV
   through trach tube, but later in am responsive to voice, appropriate,
   asking questions,
   HEENT: PERRL, MMM
   Resp: Coarse BS anteriorly, no focal rales, rhonchi, or wheezing with
   some referred upper airway noises from secretions.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, hypoactive BS
   Exte: No edema, DP 2+ bil.
   NEURO: Toes downgoing bilaterally,
   Labs / Radiology
   528 K/uL
   9.2 g/dL
   121 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.4 mEq/L
   6 mg/dL
   103 mEq/L
   146 mEq/L
   28.6 %
   9.5 K/uL
        [image002.jpg]
   CT: No evidence of obstruction or acute intraabdominal process
                             [**2167-10-14**]  02:06 AM
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
   WBC
   7.5
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   7.6
   9.5
   Hct
   26.8
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   32.7
   28.6
   Plt
   [**Telephone/Fax (3) 1560**]95
   462
   452
   467
   548
   528
   Cr
   0.6
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   Glucose
   134
   121
   619
   126
   137
   104
   108
   131
   128
   121
   Other labs: PT / PTT / INR:82.1/35.9/10.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly Improving. Intermittently on trach mask
   for most of the day, with periods of pressure support of [**10-18**] over
   night. This am on MMV. Previously likely oversedated but Benadryl,
   Morhpine, and Valium held now. Pt awake and alert at rounds,
   interactive, and breathing comfortably on trach mask
   -  Continue to increase time on trach mask as tolerated.
   -  Decrease sedation and valium use
   -  PMV with suctioning
   .
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - good O2 saturation on trach mask
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. Per Cardiology, most likely AT
   given transient response to Adenosine. HR occasionally decreases to
   70s-80s w/ stable BPs at times that might be associated with
   administration of her BB and valium. Cards recommended titrating up her
   beta blocker as tolerated. Dose increased to 50 yesterday and
   intermittently responded but then had to hold PO meds given need to
   hold PO. Changed PO to IV lopressor.
   - EP consulted for SVT, appreciate recs, will change metoprololt o IV
   and hopefully will be able to restart PO meds soon once able to
   tolerate
   - IV metoprolol 5 mg IV q 4
   .
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall.
   -  Continue w Olanzapine QHS
   -  Just valium 2.5 mg PRN.
   # Nutrition/Vomiting:  Pt has had several episodes of vomiting  up her
   TFs, reglan started to increase GI motility, but pt had another episode
   of vomiting this am, not improved with zofran or reglan. Patient also
   had hypoactive BS on exam, concern for obstruction given persistent
   vomiting, inability to tolerate tube feeds.
   - Hold TFs
   - Thoracic surgery recs: 1) oral/nasal tube in post-piloric position,
   or 2) IR to place a pediatric feeding tube through her PEG site to a
   post-piloric position.
   - Will attempt to coordinate thoracic surgery and IR for tube placement
   ; will d/w thoracics
   - CT scan did not reveal evidence of obstruction. Attempted to
   coordinate tube study or UGI btu per Radiology would not be useful
   studies since no obstruction or dysmotility evident on CT
   - Reglan DCd since not helping
   - Will decrease narcotics for possible cause of decreased motility
   .
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - will provide D5W IVF as need for hypernatremia and follow lytes
   .
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic today and
   trending upward. INR most likely continuing to rise [**2-14**] nutritional
   deficiencies given continued lack of PO intake
   - Cumadin stopped.
   - INR 10.5 today, up from 5.5, will give Vitamin K IV and reassess will
   check PM coags and follow
   - vitamin K IV x 1. Will likely need to continue with SC, follow coags
   .
   #Hematemesis: Pt had small amt Hematemesis this am. Concerning in
   setting of elevated INR. Will give IV Vitamin K and may need continued
   dosing
   -          Vit K IV x 1
   -
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # PIV x 1
   # Ppx: supratherapeutic INR, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Will contact Social [**Name2 (NI) **] and Case management today
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-21**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-21 09:45:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   rising INR to 10.5
   small volume hemetemesis
   abd CT
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-21**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-21**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 114 (88 - 136) bpm
   BP: 120/65(80) {80/40(49) - 149/88(92)} mmHg
   RR: 11 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,241 mL
                                                                  1,802 mL
   PO:
             TF:
   IVF:
                                                                  1,941 mL
                                                                  1,802 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    260 mL
   Urine:
                                                                  1,830 mL
                                                                    210 mL
   NG:
                                                                     30 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                  1,542 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 438 (300 - 1,054) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 5.4 L/min
   Physical Examination
   Gen: lying in bed, alert, responding to questions
   CV; tachy RR
   Chest: bibasilar decreased BS, faint exp wheeze
   Abd: soft NT+BS
   Ext: no edema
   Labs / Radiology
   9.2 g/dL
   528 K/uL
   121 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.4 mEq/L
   6 mg/dL
   103 mEq/L
   144 mEq/L
   28.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2167-10-15**]  07:34 AM
                             [**2167-10-16**]  03:50 AM
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
   WBC
   5.6
   6.1
   7.0
   7.1
   7.1
   6.9
   7.6
   9.5
   Hct
   27.0
   27.0
   29.7
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   Plt
   335
   321
   395
   462
   452
   467
   548
   528
   Cr
   0.5
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   Glucose
   121
   619
   126
   137
   104
   108
   131
   128
   121
   Other labs: PT / PTT / INR:82.1/35.9/10.5, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   1. Tachycardia: runs of attach Appreciate EP consult
 will increase
   bblocker. Have to convert to metoprolol 5mg IV Q4 because unable to
   take pos
   2. Persistent Nausea/Vomiting: we have ruled out
 pSBO/SBO, very poor
   bowel sounds, get emptying study and if unrevealing consult GI to
   discuss EGD. We will need to pursue NG dophoff by IR if cannot snake
   pedi tube into existing g tube. Was guiac + but in setting of high INR
 HCT stable. Will will reverse inr.
   2.  Resp Failure
          Trach mask trials all day, PSV
          PMV trials
          Per IP not stent planned as technically not possible to
   place into her airway
   3. DVT and coagulopathy: reverre with IV VIt K today, then maintain
   daily SC Vit K until Inr less than 2
   4. Hypernatremia  Replete free water.
   Please see today
s ICU team note for other issues.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-21**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt and spoke at length with brother who would like
   to possibily become her guardian or power of atty to facilitate her
   care and finances. Her partner [**Name (NI) **] is alos interested in guardianship.
   We may need ot refer to legal for clarification.
   Code status: Full code
   Disposition : ICU

2167-10-22 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increased Metoprolol to 7.5 IV q 4
   Getting tube study in am
   had J tube placed by IR via PEG, then had tube feeds at 10/hr which she
   proceeded to vomit, TF held
   Agitated so given Haldol, put back on pressure support
   Na 148 but had not received D5W yet.
   INR 2.3 after 10 IV Vit K
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-21**] 08:30 AM
   Diazepam (Valium) - [**2167-10-22**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-22**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 107 (93 - 140) bpm
   BP: 85/45(55) {83/40(51) - 148/101(105)} mmHg
   RR: 23 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,808 mL
                                                                    557 mL
   PO:
             TF:
                                                                      4 mL
   IVF:
                                                                  3,804 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    385 mL
   Urine:
                                                                  1,590 mL
                                                                    385 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,158 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 169 (169 - 438) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 3.7 L/min
   Physical Examination
   Gen: Mildly obtunded in am, responsive to noxious stimuli, on MMV
   through trach tube, but later in alert, responding normally.
   HEENT: PERRL, MMM
   Resp: Coarse BS anteriorly, no focal rales, rhonchi, or wheezing with
   some referred upper airway noises from secretions.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, BS+
   Exte: No edema, DP 2+ bil.
   NEURO: Toes downgoing bilaterally,
   Labs / Radiology
   356 K/uL
   8.2 g/dL
   129 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   4 mg/dL
   110 mEq/L
   148 mEq/L
   26.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
   WBC
   7.0
   7.1
   7.1
   6.9
   7.6
   9.5
   5.7
   Hct
   29.7
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   Plt
   395
   462
   452
   467
   548
   528
   356
   Cr
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   Glucose
   126
   137
   104
   108
   131
   128
   121
   129
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.5 g/dL, LDH:192 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   CXR: no sig change from previous. R hemidiaphragm remains elevated, L
   hemidiaphragm remains obscured, some patchy opacities in L lobe,
   ?atelectasis
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly Improving. Intermittently on trach mask
   for most of the day, with periods of pressure support of over night.
   This am on MMV. Previously likely oversedated but Benadryl, Morhpine,
   and Valium held now. Pt awake and alert at rounds, interactive, and
   breathing comfortably on trach mask
   -  Continue to increase time on trach mask as tolerated.
   -  Decrease sedation and valium use
   -  PMV with suctioning
   # Nutrition/Vomiting:  Has had several days of vomiting up TFs but had
   a normal CT abdoment. Yesterday she had a pediatric feeding tube placed
   by GI through her PEG tube into her jejunum, and was given TFs last
   night, which she vomited. Pt had a tube study this am that showed
   dysmotility of her jejunum. GI continuing to follow study during the
   day with KUBs. Unclear etiology of her ileus; pt has hx of GI problems
   and chronic N/V and this may be her chronic baseline. Alternatively pt
   has had long course of opiates during MICU stay, however, her opiates
   have been decreased steady for the past week and she has had periods
   where she tolerated TFs. Will need to provide parenteral nutrition at
   this point.
   - Hold TFs
   - GI consulted
   - F/u results of Tube study
   - PICC line placement  for parenteral nutrition
   -.
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - good O2 saturation on trach mask
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. Per Cardiology, most likely AT
   given transient response to Adenosine. HR occasionally decreases to
   70s-80s w/ stable BPs at times that might be associated with
   administration of her BB and valium. Cards recommended titrating up her
   beta blocker as tolerated. Dose increased to 50 yesterday and
   intermittently responded but then had to hold PO meds given need to
   hold PO. Changed PO to IV lopressor.
   - EP consulted for SVT, appreciate recs, will change metoprololt o IV
   and hopefully will be able to restart PO meds soon once able to
   tolerate
   - Changed to IV metoprolol 10mg q4hr during the day and 7.5mg q4 hours
   at night.
   - Per EP, after good trial on PO BB and recovery from current
   hospitalization, would consider EP study or short course of
   amiodarone..
   .
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall.
   -  Continue w Olanzapine QHS
   -  d/c all opiates given GI dysmotlitiy
   .
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - will provide D5W IVF as need for hypernatremia and follow lytes
   .
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic yesterday at
   10.5 despite having stopped coumadin the day before. INR increase is
   most likely continuing to rise [**2-14**] nutritional deficiencies given
   continued lack of PO intake. Pt was given Vitamin K IV yesterday, and
   today INR is 1.3.
   -          Restart coumadin after PICC line placement today
   -          Continue to follow INR closely to reach therapeutic INR.
   .
   #Hematemesis: Pt had small amt Hematemesis, after vomiting, yesterday.
   None today.
   -Will follow HCT.
   - Guaiac stools
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, PICC placement
   today.
   # Ppx: supratherapeutic INR, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved, have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-21**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-22 12:17:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   increased bblocker
   J tube placed by IR through PEG- restarted TF and vomiting
   Went for tube study - dysmotility - contrast sat in stomach
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2167-10-22**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-22**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 118 (93 - 140) bpm
   BP: 153/58(79) {82/39(49) - 153/101(105)} mmHg
   RR: 23 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,808 mL
                                                                  1,119 mL
   PO:
             TF:
                                                                      4 mL
   IVF:
                                                                  3,804 mL
                                                                  1,119 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    520 mL
   Urine:
                                                                  1,590 mL
                                                                    520 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,158 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 243 (169 - 281) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 4.1 L/min
   Physical Examination
   Gen: lying in bed, alert, responding to questions
   CV; tachy RR
   Chest: bibasilar decreased BS, faint exp wheeze
   Abd: soft NT+BS
   Ext: no edema
   Labs / Radiology
   8.2 g/dL
   356 K/uL
   129 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   4 mg/dL
   110 mEq/L
   148 mEq/L
   26.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2167-10-16**]  06:22 AM
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
   WBC
   7.0
   7.1
   7.1
   6.9
   7.6
   9.5
   5.7
   Hct
   29.7
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   Plt
   395
   462
   452
   467
   548
   528
   356
   Cr
   0.7
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   Glucose
   126
   137
   104
   108
   131
   128
   121
   129
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   1. Tachycardia: runs of attach Appreciate EP consult
 will increase
   bblocker. Have to convert to metoprolol 7.5mg IV Q4 because unable to
   take pos.
   2. Persistent Nausea/Vomiting: we have ruled out
 pSBO/SBO, very poor
   bowel sounds, tube study this AM shows contrast not moving out of the
   jejunum. GI consult to discuss any role for EGD. Place PICC for TPN as
   she has not had nutrition.
   2.  Resp Failure
          Trach mask trials all day, PSV
          PMV trials
          Per IP not stent planned as technically not possible to
   place into her airway
   3. DVT and coagulopathy: reversed with IV Vit k
 hold coumadin today
   4. Hypernatremia  Replete free water.
   Please see today
s ICU team note for other issues.
   ICU Care
   Nutrition: plan for TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-21**] 04:00 AM
   Prophylaxis:
   DVT: plan for coumadin
   Stress ulcer: ppi
   Communication:  spoke with son and
   [**Name2 (NI) 156**] status: Full code
   Disposition : ICU

2167-10-23 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt pulled out her trach tube,  tube replaced
   PICC Line Placed
   Seen By EP and started on Amiodarone Drip
   Fever  - 101.4
F  Cultures sent
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2167-10-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-23**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.9
C (98.5
   HR: 107 (107 - 142) bpm
   BP: 86/44(54) {82/39(49) - 181/113(122)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,127 mL
                                                                    537 mL
   PO:
             TF:
   IVF:
                                                                  2,127 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    400 mL
   Urine:
                                                                    995 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,132 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 208 (208 - 243) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 4.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   8.4 g/dL
   123 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   4 mg/dL
   107 mEq/L
   144 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
   WBC
   7.1
   7.1
   6.9
   7.6
   9.5
   5.7
   7.3
   Hct
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   Plt
   462
   452
   467
   548
   528
   356
   346
   Cr
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   0.7
   Glucose
   137
   104
   108
   131
   128
   121
   129
   123
   Other labs: PT / PTT / INR:14.1/23.7/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly Improving. Intermittently on trach mask
   for most of the day, with periods of pressure support of over night.
   This am on MMV. Previously likely oversedated but Benadryl, Morhpine,
   and Valium held now. Pt awake and alert at rounds, interactive, and
   breathing comfortably on trach mask
   -  Continue to increase time on trach mask as tolerated.
   -  Decrease sedation and valium use
   -  PMV with suctioning
   # Nutrition/Vomiting:  Has had several days of vomiting up TFs but had
   a normal CT abdoment. Yesterday she had a pediatric feeding tube placed
   by GI through her PEG tube into her jejunum, and was given TFs last
   night, which she vomited. Pt had a tube study this am that showed
   dysmotility of her jejunum. GI continuing to follow study during the
   day with KUBs. Unclear etiology of her ileus; pt has hx of GI problems
   and chronic N/V and this may be her chronic baseline. Alternatively pt
   has had long course of opiates during MICU stay, however, her opiates
   have been decreased steady for the past week and she has had periods
   where she tolerated TFs. Will need to provide parenteral nutrition at
   this point.
   - Hold TFs
   - GI consulted
   - F/u results of Tube study
   - PICC line placement  for parenteral nutrition
   -.
   # HAP vs Aspiration PNA:  Afebrile without leukocytosis
   - Completed course of ceftriaxone
   - good O2 saturation on trach mask
   .
   # Tachycardia: Previously was assessed as sinus tach with occasional
   runs of SVT and sources such as hypovolemia, PE, infection, and pain
   were assessed as possibly etiologies. Per Cardiology, most likely AT
   given transient response to Adenosine. HR occasionally decreases to
   70s-80s w/ stable BPs at times that might be associated with
   administration of her BB and valium. Cards recommended titrating up her
   beta blocker as tolerated. Dose increased to 50 yesterday and
   intermittently responded but then had to hold PO meds given need to
   hold PO. Changed PO to IV lopressor.
   - EP consulted for SVT, appreciate recs, will change metoprololt o IV
   and hopefully will be able to restart PO meds soon once able to
   tolerate
   - Changed to IV metoprolol 10mg q4hr during the day and 7.5mg q4 hours
   at night.
   - Per EP, after good trial on PO BB and recovery from current
   hospitalization, would consider EP study or short course of
   amiodarone..
   # Sedation: Inconsistent response to sedation, unclear what is best
   regime. Will continue to wean overall.
   -  Continue w Olanzapine QHS
   -  d/c all opiates given GI dysmotlitiy
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - will provide D5W IVF as need for hypernatremia and follow lytes
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR supratherapeutic yesterday at
   10.5 despite having stopped coumadin the day before. INR increase is
   most likely continuing to rise [**2-14**] nutritional deficiencies given
   continued lack of PO intake. Pt was given Vitamin K IV yesterday, and
   today INR is 1.3.
   -          Restart coumadin after PICC line placement today
   -          Continue to follow INR closely to reach therapeutic INR.
   .
   #Hematemesis: Pt had small amt Hematemesis, after vomiting, yesterday.
   None today.
   -Will follow HCT.
   - Guaiac stools
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, PICC placement today.
   # Ppx: supratherapeutic INR, Ranitidine, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved, have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-21**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-23 10:27:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2167-10-22**] 03:50 PM
   Pt pulled out her trach tube,  tube replaced
 FEVER - 101.4
F - [**2167-10-23**] 12:00 AM
   7 AM pulled out trach again , bradycardia, replaced.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2167-10-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-10-23**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.2
   HR: 116 (84 - 142) bpm
   BP: 147/84(96) {86/39(53) - 181/113(137)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,127 mL
                                                                    988 mL
   PO:
             TF:
   IVF:
                                                                  2,127 mL
                                                                    988 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    900 mL
   Urine:
                                                                    995 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,132 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PPS
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 360 (208 - 360) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g tube
   Skin:  warm
   Neurologic: Responds to voice
   Labs / Radiology
   8.4 g/dL
   346 K/uL
   123 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   4 mg/dL
   107 mEq/L
   144 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
   WBC
   7.1
   7.1
   6.9
   7.6
   9.5
   5.7
   7.3
   Hct
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   Plt
   462
   452
   467
   548
   528
   356
   346
   Cr
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   0.7
   Glucose
   137
   104
   108
   131
   128
   121
   129
   123
   Other labs: PT / PTT / INR:14.1/23.7/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-23**] 06:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2167-10-23 10:45:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2167-10-22**] 03:50 PM
   Pt pulled out her trach tube,  tube replaced
   POulled out trach again at 7:15 AM complicated by bradycardia and
   profound desaturation
 FEVER - 101.4
F - [**2167-10-23**] 12:00 AM
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2167-10-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-23**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.2
   HR: 116 (84 - 142) bpm
   BP: 147/84(96) {86/39(53) - 181/113(137)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,127 mL
                                                                    994 mL
   PO:
             TF:
   IVF:
                                                                  2,127 mL
                                                                    994 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    900 mL
   Urine:
                                                                    995 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,132 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PPS
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 360 (208 - 360) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen: lying in bed, alert, responding to questions, PMV placed
   CV; tachy RR
   Chest: bibasilar decreased BS, faint exp wheeze
   Abd: soft NT+BS
   Ext: no edema
   Skin:  warm
   Neurologic: confused, stating that p[eople are trying to kill her
   Labs / Radiology
   8.4 g/dL
   346 K/uL
   123 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   4 mg/dL
   107 mEq/L
   144 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2167-10-17**]  02:58 AM
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
   WBC
   7.1
   7.1
   6.9
   7.6
   9.5
   5.7
   7.3
   Hct
   28.9
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   Plt
   462
   452
   467
   548
   528
   356
   346
   Cr
   0.6
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   0.7
   Glucose
   137
   104
   108
   131
   128
   121
   129
   123
   Other labs: PT / PTT / INR:14.1/23.7/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   1. Tachycardia: runs of attach Appreciate EP consult
 trying IV Amio.
   will increase bblocker. Have to convert to metoprolol 10 mg IV Q4
   because unable to take pos.
   2. Persistent Nausea/Vomiting: we have ruled out
 pSBO/SBO, very poor
   bowel sounds, tube study this AM shows contrast not moving out of the
   jejunum. GI consult to discuss any role for EGD. Place PICC for TPN as
   she has not had nutrition.
   3. Agitation: delirium- trying to wean off narcotics- Will call psych
   as she is no harmful to self with pulling out trach x 2 and very
   paranoid. 1:1 sitter for safety
   2.  Resp Failure
          Trach mask trials all day, PSV
          PMV trials
          Per IP not stent planned as technically not possible to
   place into her airway
   3. DVT and coagulopathy: reversed with IV Vit k
 hold coumadin today
   4. Hypernatremia  Replete free water.
   Please see today
s ICU team note for other issues.
   ICU Care
   Nutrition: start TPN after PICC
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   18 Gauge - [**2167-10-23**] 06:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  met with brother [**Name (NI) 509**] for 30 minutes this afternoon and
   reviewed medical and social issues
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2167-10-24 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt decannulated herself x2 yesterday, the 1st episode she desatted to
   the 80s, the second episode she desated and her heart rate decreased to
   39-40, before the trach could be replaced.
   PICC line placed by IR, called to notify that there was clot in both
   arms, placed in L arm more proximally than small Bacillis vein clot.
   Coumadin restarted after PICC placement with 2mg
   Per GI Recs: Reglan restarted at 20mg IV q 8 hours, and meds were
   restarted via tube. No vomitting.
   Per PSYCH recs: d/c'd all benzoes, (also requested d/c reglan if GI
   ok), added Risperdal 0.5mg [**Hospital1 **] (and can add 0.5mg PRN, and titrate up
   to total daily dose of 2-3mg if helping)
   Per Cards recs: after 18hr of amiodaron drip. Start PO amiodarone 200mg
   TID, which was done at 1am.
   Brother visited
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-24**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 90 (73 - 121) bpm
   BP: 155/49(75) {103/47(66) - 175/98(111)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,151 mL
                                                                    293 mL
   PO:
             TF:
   IVF:
                                                                  1,852 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    820 mL
   Urine:
                                                                  2,460 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                   -527 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   FiO2: 40%
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   Gen: Asleep, unarousable, responds minimally to noxious stimuli
   HEENT: PERRL, MMM
   Resp: CTA bilaterally, no rales, rhonchi, or wheezing, small
   inspirations.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, BS+
   Exte: No edema, DP 2+ bil
   NEURO: reflexes 2+ bilaterally.
   Labs / Radiology
   316 K/uL
   8.3 g/dL
   114 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   7 mg/dL
   111 mEq/L
   149 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
   WBC
   7.1
   6.9
   7.6
   9.5
   5.7
   7.3
   8.0
   Hct
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   27.0
   Plt
   452
   467
   548
   528
   356
   346
   316
   Cr
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   0.7
   0.7
   Glucose
   104
   108
   131
   128
   121
   129
   123
   114
   Other labs: PT / PTT / INR:13.2/22.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly improving, spending most of the day on
   trach mask with short periods of rest  on PSV at night and setbacks
   from increased secretions [**2-14**] to vomiting/aspiration events and her
   self-decanulations.
   -  Continue to increase time on trach mask as tolerated.
   -  Discontinue all orders for sedation except for Risperdal QHS.
   -  PMV with suctioning as tolerated
   # Nutrition/Vomiting:  Normal CT-abdomen, had FT placed via peg into
   jejunum, but continued to vomit. Tube study showed dysmotility in small
   bowel, but no obstruction, no retrograde flow. GI recs Reglan 20mg IV Q
   8 hours and restart meds via G-J tube, if tolerated slowly restart TFs.
   PICC line placed yesterday and TPN started.
   - GI consult, appreciate recs
   - Small volume TFs start today
   - Continue TPN today
   # HAP vs Aspiration PNA:  Had been afebrile for last several days, now
   with new fever two nights ago after having decanulated herself. Likely
   had some aspiration. Chemical pneumonitis versus new aspiration PNA.
   Now Afebrile for past 24 hours.
   - f/u daily CXR
   - F/u cx data
   - If remains febrile, send sputum cx, otherwise hold on abx.
   .
   # Tachycardia: Pt in and out of SVT and sinus, increased BB seems to
   help, but pt does not stay in sinus. Cards rec to start Amiodarone IV
   drip, and then convert to PO, 200mg TID. Would consider EPS if
   amiodarone not successful, though would wait until pt more stable for
   general anesthesia.
   - Changed to IV metoprolol to 10mg IV q4hr.
   - Completed amiodarone 0.5mg/min IV drip x 18 hours, and converted to
   200mg PO TID..
   - Cards c/s, appreciate recs
   # Sedation/Anxiolysis/AlteredMS: unclear etiology of her confusion and
   agitation. Has had long hospital course and multiple psychotropic
   medications as well as hx of EtOH abuse.
   -  d/c all benzos. opiates, and antihistamines
   - Psychiatry consulted, appreciate recs
   - started Risperdal 0.5mg PO BID, d/c zyprexa.
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - will provide D5W IVF as need for hypernatremia and follow lytes
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR has been volatile, likely from
   drug interactions and poor nutritional status. Have been unable to keep
   her appropariately therapeutic.
   - d/c coumadin
   - start Lovenox, maintain until GI issues resolved and can restart
   coumadin
   .
   #Hematemesis: Pt had small amt Hematemesis, after vomiting, last week.
   None today. HCT stable.
   -Will follow HCT.
   - Guaiac stools
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, PICC placement
   yesterday.
   # Ppx: subtherapeutic INR restarting coumadin today, Ranitidine, Bowel
   Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved, have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   TPN without Lipids - [**2167-10-23**] 06:00 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 924**]
s note above and I
   agree with the findings and plan of care.  I would only add/emphasize
   the following:  Ms [**Known lastname 510**] has done well of late on a trache collar,
   able to go all night without the vent.  The active issues now are
   chiefly GI, cardiac, and pychiatric.  Her hypomotility may be a bit
   better now that she is on high dose Reglan, and we will gingerly start
   feedings via her J in G tube, while continuing TPN for the present. Her
   SVT has for now converted to NSR on Amiodarone and Metoprolol.  Her
   delirium is being addressed with the help of psychiatry, and we
   started Risperdal at their suggestion.  Once these issues are stable
   she should be able to move to a resp rehab facility.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   30 min spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2167-10-24**] 16:43 ------

2167-10-25 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   TF held for vomiting
   Given D5W x 2 liters for hypernatremia
   Lovenox 100mg SC BID for DVTs started rather than trying to titrate
   coumadin, follow INR
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-24**] 08:17 AM
   Enoxaparin (Lovenox) - [**2167-10-24**] 06:00 PM
   Metoprolol - [**2167-10-24**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-25**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 68 (64 - 104) bpm
   BP: 116/51(66) {105/45(44) - 151/74(89)} mmHg
   RR: 24 (21 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,676 mL
                                                                    776 mL
   PO:
             TF:
                                                                     61 mL
   IVF:
                                                                  1,418 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    195 mL
   Urine:
                                                                  1,910 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    766 mL
                                                                    581 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: Asleep, unarousable, responds minimally to noxious stimuli
   HEENT: PERRL, MMM
   Resp: CTA bilaterally, no rales, rhonchi, or wheezing, small
   inspirations.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, BS+
   Exte: No edema, DP 2+ bil
   NEURO: reflexes 2+ bilaterally.
   Labs / Radiology
   316 K/uL
   8.3 g/dL
   114 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   7 mg/dL
   110 mEq/L
   148 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2167-10-18**]  03:43 AM
                             [**2167-10-18**]  05:02 PM
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
   WBC
   7.1
   6.9
   7.6
   9.5
   5.7
   7.3
   8.0
   Hct
   29.2
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   27.0
   Plt
   452
   467
   548
   528
   356
   346
   316
   Cr
   0.7
   0.8
   0.7
   0.8
   1.0
   0.7
   0.7
   0.7
   Glucose
   104
   108
   131
   128
   121
   129
   123
   114
   Other labs: PT / PTT / INR:13.2/22.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   55yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach, PEG  placement now with respiratory failure secondary to
   tracheomalacia , resolved HAP.
   .
   # Respiratory failure:  Slowly improving, spending most of the day on
   trach mask with short periods of rest  on PSV at night and setbacks
   from increased secretions [**2-14**] to vomiting/aspiration events and her
   self-decanulations.
   -  Continue to increase time on trach mask as tolerated.
   -  Discontinue all orders for sedation except for Risperdal QHS.
   -  PMV with suctioning as tolerated
   # Nutrition/Vomiting:  Normal CT-abdomen, had FT placed via peg into
   jejunum, but continued to vomit. Tube study showed dysmotility in small
   bowel, but no obstruction, no retrograde flow. GI recs Reglan 20mg IV Q
   8 hours and restart meds via G-J tube, if tolerated slowly restart TFs.
   PICC line placed yesterday and TPN started.
   - GI consult, appreciate recs
   - Small volume TFs start today
   - Continue TPN today
   # HAP vs Aspiration PNA:  Had been afebrile for last several days, now
   with new fever two nights ago after having decanulated herself. Likely
   had some aspiration. Chemical pneumonitis versus new aspiration PNA.
   Now Afebrile for past 24 hours.
   - f/u daily CXR
   - F/u cx data
   - If remains febrile, send sputum cx, otherwise hold on abx.
   .
   # Tachycardia: Pt in and out of SVT and sinus, increased BB seems to
   help, but pt does not stay in sinus. Cards rec to start Amiodarone IV
   drip, and then convert to PO, 200mg TID. Would consider EPS if
   amiodarone not successful, though would wait until pt more stable for
   general anesthesia.
   - Changed to IV metoprolol to 10mg IV q4hr.
   - Completed amiodarone 0.5mg/min IV drip x 18 hours, and converted to
   200mg PO TID..
   - Cards c/s, appreciate recs
   # Sedation/Anxiolysis/AlteredMS: unclear etiology of her confusion and
   agitation. Has had long hospital course and multiple psychotropic
   medications as well as hx of EtOH abuse.
   -  d/c all benzos. opiates, and antihistamines
   - Psychiatry consulted, appreciate recs
   - started Risperdal 0.5mg PO BID, d/c zyprexa.
   # Adrenal Insufficency: Endocrine following. Pt does not appear to be
   adrenally insufficient at baseline.  Suggesting if the patient under
   goes major stressors such as major surgery, sepsis, she may need stress
   dosed steroids.
   .
   # Fluid Status: Likely approaching euvolemia, though still has mild
   hypernatramia which may suggest is still intravascularly depleated.
   - Monitoring urine output
   - will provide D5W IVF as need for hypernatremia and follow lytes
   # UE DVT and elevated INR: DVT in right UE has resolved, new
   non-occlusive in left axillary vein. INR has been volatile, likely from
   drug interactions and poor nutritional status. Have been unable to keep
   her appropariately therapeutic.
   - d/c coumadin
   - start Lovenox, maintain until GI issues resolved and can restart
   coumadin
   .
   #Hematemesis: Pt had small amt Hematemesis, after vomiting, last week.
   None today. HCT stable.
   -Will follow HCT.
   - Guaiac stools
   # Spine fracture: Stable
   - Brace for OOB, will discuss with Neurosurgery if current brace is
   optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, PICC placement yesterday.
   # Ppx: subtherapeutic INR restarting coumadin today, Ranitidine, Bowel
   Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved, have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Screening for vent facilities
   ICU Care
   Nutrition:
   TPN without Lipids - [**2167-10-24**] 06:10 PM 43.[**Telephone/Fax (5) 1156**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-10-19**] 12:00 AM
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-26 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt agitated overnight given extra Risperidone 0.5 mg x 2 overnight.
   (1.5mg total)
   1000 mL D5W for Hypernatremia
   Changed B-Blocker from IV to PO, Metoprolol Tartrate 25 mg PO TID
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-25**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-26**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 120 (67 - 120) bpm
   BP: 110/64(76) {109/47(60) - 141/115(118)} mmHg
   RR: 26 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,820 mL
                                                                    856 mL
   PO:
             TF:
                                                                    117 mL
                                                                     20 mL
   IVF:
                                                                  2,612 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                  1,180 mL
   Urine:
                                                                  2,460 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Gen: Awake, Mouthing words, More agitated compared to previous
   mornings.
   HEENT: EOMI, No pallor in conjunctiva, MMM
   Resp: CTAB, no rales, rhonchi, or wheezing, good airway movement.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds,, G-Tube in
   place with no erythema/induration
   Exte: No edema, DP 2+ bil
   NEURO: Gross Motor and Sensation in 4 extremities
   Labs / Radiology
   249 K/uL
   8.0 g/dL
   122 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   13 mg/dL
   108 mEq/L
   146 mEq/L
   24.7 %
   5.5 K/uL
        [image002.jpg] CXR: L Picc, trach tip at midline, bibasilar
   opacities, low lung volumes, Bil pleural effusions.
                             [**2167-10-19**]  03:36 AM
                             [**2167-10-20**]  02:30 AM
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
   WBC
   6.9
   7.6
   9.5
   5.7
   7.3
   8.0
   8.7
   5.5
   Hct
   27.8
   32.7
   28.6
   28.9
   30.0
   26.9
   27.3
   27.0
   28.7
   24.7
   Plt
   467
   548
   528
   356
   346
   316
   271
   249
   Cr
   0.7
   0.8
   1.0
   0.7
   0.7
   0.7
   0.7
   0.5
   Glucose
   131
   128
   121
   129
   123
   114
   112
   122
   Other labs: PT / PTT / INR:13.6/31.1/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach/PEG with resolving respiratory failure and HAP.
   .
   # Respiratory failure:  s/p intubation/extubation, now on trach mask,
   FiO2 70%. Tolerating well with good O2 sat. No further
   self-decanulations overnight.
   -  Tach mask as tolerated.
   -  Holding sedation with exception of Risperidal 0.5mg [**Hospital1 **].
   - F/u CXR tomorrow
   .
   # Nutrition/Vomiting:  Currently receiving TPN;. One large BM in past
   24 hrs to indicate potential improvement in ileus.
   - Cont Reglan 20mg IV Q 8 hours; meds via G-J tube,
   - Will obtain recommendations from Nutrition re TPN before starting TPN
   tomorrow
   - TF as tolerated
   - Speech and Swallow eval
   - PICC line in place with TPN given when pt not tolerating TF
   - GI consult, appreciate recs
   .
   # Tachycardia: Improved HR max of 120
s versus 160s previously;
   elevated this am secondary to agitation. Pt now on PO Amiodarone 200
   TID and PO metoprolol 25mg TID
   - Continue current med regimen. Will continue amiodarone 200 TID for
   three weeks and then switch to qday.
   - Will schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   - f/u Cards recs
   # Sedation/Anxiolysis/AlteredMS: Agitation O/N, continues to be
   agitated most likely secondary to long hospital course and multiple
   psychotropic medications as well as hx of EtOH abuse. Risperdal given
   O/N.
   -  started Risperdal 0.5mg PO BID
   -  continue to hold all benzos. opiates, and antihistamines
   -  Appreciate psych. Will call and f/u psych recs.
   #Anemia: Decrease in HCT from 28
24; tachycardia. No known etiology of
   blood loss, most likely related to variaton
   -Will repeat HCT check this afternoon.
   # Hypernatremia/Fluid Status: Mild hypernatramia with good UOP
   (hypervolemic hypernatremia). On TPN/TF.
   - providing D5W IVF, free water flushes with TF
   -Will f/u lytes (Na) this afternoon at 5pm.
   # UE DVT and elevated INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **]. Current INR 1.2.
   - Will flush L PICC with TPA if does not flush
   .
   # Spine fracture: Stable
   - Brace for OOB, need to discuss with Neurosurgery before d/c if
   current brace is optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Was initially addressed with IP and they wanted to
   follow up as outpatient. IP reevaluated and does not believe that a
   stent would be feasible. No new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, L PICC
   # Ppx: Lovenox, PPi, Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved, have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Will d/w case management re rehab facilities.
   PGY2 Addendum
   Agree with excellent MS4 PN. Will touch base with psychiatry re:
   sedating meds and EP re: atrial tachycardia.  Will obtain EKG to
   reassess QTc. Ordered for TPN. Giving d5W for hypernatremia. Re-consult
   S/S for PMV re-fitting. [**Hospital **] transfer to LTAC.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1382**] [**Pager number 1732**]
   PGY2
   ------ Protected Section ------
   MICU Attending Addendum:
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2167-10-26**] 16:21 ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed the note above and agree with
   the findings and plan of care. I would add the following:
   Ms [**Known lastname 510**] remains stable, on her trache mask, off the vent for 3 days.
   Secretions improved and she is using the PMV  to talk in short spells.
   Her ileus seems better, with a good BM and good bowel sounds and no
   clear cut emesis.  So TFs will be restarted and advanced.  She remains
   on high dose raglan.
   We will rediscuss her case with psychiatry as her mentation varies from
   very alert to more somnolent  and she is still confused.
   All in all, however, she is close to being able to go to resp rehab
   facility and we
ll talk to case manager tomorrow.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2167-10-26**] 17:10 ------

2167-10-27 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -hypernatremia: Repeat Na 148-->146 (this am), continuing D5W at
   125cc/hr
   -TF up to 30cc/hr; tolerated O/N; stopped at 12am
   -Psych recs: Gave risperidone m-tab 1mg PO x1 HS last night and will
   continue risperdone 0.5mg qam and 0.5 [**Hospital1 **] PRN; f/u EKG in am;
   -Changed Metoprolol 25 to 37.5mg TID given tach to 110-120
s; gave 5mg
   x1
   -GI recs: pending
   -IP: seen by IP this am for eval of possible stent placement, pt not a
   candidate as she is at risk of aspiration given opening defect
   posterior to vocal cords; recommended d/w ENT and increase ppi to [**Hospital1 **].
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-26**] 08:30 AM
   Enoxaparin (Lovenox) - [**2167-10-26**] 06:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-27**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 79 (68 - 124) bpm
   BP: 134/57(75) {124/52(70) - 179/121(130)} mmHg
   RR: 27 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,004 mL
                                                                  1,084 mL
   PO:
             TF:
                                                                    137 mL
                                                                     51 mL
   IVF:
                                                                  2,544 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  3,813 mL
                                                                  1,000 mL
   Urine:
                                                                  3,813 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Trach mask 40-50%
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: Sedating post-bronchoscopy; Sleeping; pt would not wake for exam.
   HEENT: No pallor in conjunctiva, MMM
   Resp: Course breath sounds anteriorly, mild exp wheeze.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds, G-Tube in
   place with no erythema/induration
   Exte: No edema, DP 2+ bil
   NEURO: Sedated
   Labs / Radiology
   231 K/uL
   7.7 g/dL
   145 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   109 mEq/L
   146 mEq/L
   25.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
   WBC
   9.5
   5.7
   7.3
   8.0
   8.7
   5.5
   5.7
   Hct
   28.6
   28.9
   30.0
   26.9
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   Plt
   528
   356
   346
   [**Telephone/Fax (3) 1741**]
   231
   Cr
   1.0
   0.7
   0.7
   0.7
   0.7
   0.5
   0.4
   Glucose
   121
   129
   123
   114
   112
   122
   145
   Other labs: PT / PTT / INR:13.6/31.1/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture, now s/p
   trach/PEG with resolving respiratory failure and HAP.
   .
   # Respiratory failure/Aspiration Risk:  s/p intubation/extubation, now
   on trach mask, FiO2 50%. Tolerating well with good O2 sat. No further
   self-decanulations overnight. Pt continues to be at risk for aspiration
   given new IP finding of opening defect in posterior vocal cord space
   and given recent history of vomiting with tube feed trials.
   - ENT consulted for evaluation of larynx and possible intervention;
   will follow ENT recs
   - increase ppi from qday to [**Hospital1 **] for aspiration prophylaxis
   -  Trach mask as tolerated.
   -  scopolamine patch q72hrs for secretions
   - Holding sedation with exception of Risperidal 0.5mg [**Hospital1 **] PRN
   - F/u CXR tomorrow
   .
   # Nutrition/Vomiting:  Currently receiving TPN; BMx2 in past 24 hrs to
   indicate possible improvement in ileus. TF tolerated during trial O/N
   without emesis.
   - Cont Reglan 20mg IV Q 8 hours; meds via G-J tube,
   - Will obtain recommendations from Nutrition re TPN today and will
   provide TF as tolerated
   - Speech and Swallow eval today for Passy Muir valve eval;
   - GI consult, will f/u recs
   .
   # Tachycardia: Improved HR max of 120
s versus 160s previously. Pt now
   on PO Amiodarone 200 TID and PO metoprolol 37.5mg TID
   - Continue current med regimen. Will continue amiodarone 200 TID for
   three weeks and then switch to qday for 1week and then d/c amiodarone.
   - Will need to schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   - f/u Cards recs
   # Sedation/Anxiolysis/AlteredMS: Resolved O/N with risperdal. Previous
   delirium and agitation most likely secondary to long hospital course
   and multiple psychotropic medications as well as hx of EtOH abuse.
   -  started Risperdal 0.5mg PO BID PRN.
   -  continue to hold all benzos. opiates, and antihistamines
   -  Appreciate psych. Will call and f/u psych recs.
   -Obtain EKG to assess for QTc prolongation.
   #Anemia: HCT stable at 25. No known etiology of blood loss.
   -Will repeat HCT in am [**10-28**].
   # Hypernatremia/Fluid Status: Mild hypernatramia resolving with free
   water administration. On TPN/TF. Good UOP.
   - providing D5W IVFx 1L at 125cc/hr, free water flushes with TF
   -Will f/u lytes in afternoon (5pm)
   # UE DVT and elevated INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **].
   -          Will flush L PICC with TPA if does not flush
   -          Add coags to am labs
   .
   # Spine fracture: Stable
   - Brace for OOB, need to discuss with Neurosurgery before d/c if
   current brace is optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**4-19**] weeks
   .
   # Tracheomalacia.  Reevaluation bronchoscopy by IP as written above;
   patient not a candidate for stent; pt to follow up as outpatient. No
   new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # ACCESS: PIV x 1, L PICC
   # Ppx: Lovenox, PPi-to increase to [**Hospital1 **], Bowel Regimen PRN
   # Communication:
   -   Boyfriend of 10 [**Name2 (NI) 579**]
   -   Brother also involved
   -  Social Work and Case management involved; have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Will d/w case management re rehab facilities.
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   PGY2 addendum:
   Agree with assessment and plan in MSIV note as detailed above.
   Briefly, 56 F s/p fall with T spine fracture, respiratory failure now
   s/p trach/PEG.  Now on trach mask.  Patient s/p bronch with IP today;
   ENT to see and follow for ?intervention.  Nutrition issues continue;
   will receive TPN today plus possible restart of tube feeds as tolerated
   (later today), continue reglan.  Appreciate psych recs; continuing
   risperidone for agitation. Etiology of delirium/agitation still
   unclear. Likely eventual dispo to rehab facility directly from ICU
   given high nursing requirements.

2167-10-27 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Aggitation, remains delerious.
   Bedside bronchoscopy by IP service revealed inability of posterior
   portion of vocal cords to adduct.  Unclear etiology.
   Sedated for bronchoscopy.
   24 Hour Events:
   More awake this afternoon, less agitated, but remains confused.
   Tolerating Passe-Muir valve -> speaking but not coherent.
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2167-10-26**] 06:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Tracheotomy tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-10-27**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 62 (62 - 123) bpm
   BP: 87/42(53) {87/42(53) - 179/121(130)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,004 mL
                                                                  2,070 mL
   PO:
             TF:
                                                                    137 mL
                                                                     51 mL
   IVF:
                                                                  2,544 mL
                                                                  1,423 mL
   Blood products:
   Total out:
                                                                  3,813 mL
                                                                  1,380 mL
   Urine:
                                                                  3,813 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                    690 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Sedated
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: Right base,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   231 K/uL
   145 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   109 mEq/L
   146 mEq/L
   25.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2167-10-21**]  01:30 AM
                             [**2167-10-21**]  06:41 AM
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
   WBC
   9.5
   5.7
   7.3
   8.0
   8.7
   5.5
   5.7
   Hct
   28.6
   28.9
   30.0
   26.9
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   Plt
   528
   356
   346
   [**Telephone/Fax (3) 1741**]
   231
   Cr
   1.0
   0.7
   0.7
   0.7
   0.7
   0.5
   0.4
   Glucose
   121
   129
   123
   114
   112
   122
   145
   Other labs: PT / PTT / INR:13.6/31.1/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Respiratory failure, delerium.
   RESPIRATORY FAILURE -- chronic, s/p trach.   Underlying
   tracheobronchomalacia.  Possible elevated right hemidiaphragm.
   Continue current care, including aspiration precautions.  Maintain
   trach, monitor SaO2 --> maintain >90%.
   TRACHEOBRONCOMALACIA -- no immediate plans for IP intervention.
   VOCAL CORD dysfunction -- ENT to evaluate limited ability of posterior
   portion of cords to adduct.  consult ENT service.
   RUE DVT -- anticoagulation with lovenox.
   HYPERNATREMIA -- improved with free H2O repletion.  Monitor.
   A-FIB -- rate controlled on amioderone.  Monitor HR.
   DELERIUM -- currently sedated from procedure.  Unclear etiology.
   Concerns include medications and ICU psychosis.  Psychiatry consulted.
   Respiradol dose being adjusted.
   NUTRITIONAL SUPPORT -- hope to transition TPN to TF via PEG.
   T4-T8 VETEBRAL Fx -- suportive care.  Will require rehabilitation.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2167-10-26**] 05:44 PM 43.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   18 Gauge - [**2167-10-27**] 10:14 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2167-10-28 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY by IP- At [**2167-10-27**] 09:43 AM. Severe diffuse
   Tracheobronchomalacia, large gap posterior commisure above true vocal
   cords resulting in possible etiology of recurrent aspiration
   Seen by ENT, no note from attg (Dr. [**Last Name (STitle) 1779**] re possible posterior
   augmentation.
Will require better exam in clinic with stroboscopic
   video
   S&S PMV Eval: Pt not to have PMV without supervision and only for short
   periods of time [**2-14**] aspiration risk and vocal cord edema with freq
   suctioning when PMV in place. Per nursing had increased secretions
   requiring deep suctioning overnight, otherwise pt is able to clear with
   productive cough.
   Restarted TF yest: 10
20cc/hr, no issues.
   Changed PPI to [**Hospital1 **] per IP recs
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-27**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-28**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 86 (62 - 122) bpm
   BP: 146/61(82) {87/42(53) - 152/87(98)} mmHg
   RR: 23 (19 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,692 mL
                                                                  1,252 mL
   PO:
             TF:
                                                                    116 mL
                                                                    116 mL
   IVF:
                                                                  2,175 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                    400 mL
   Urine:
                                                                  3,790 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                    854 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   Gen: Alert, NAD, lying in bed, comfortable, mouthing words, less
   sedated than yest.
   HEENT: No pallor in conjunctiva, MMM, TM in place
   Resp: Transmitted upper airway sounds/coarse breath sounds.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds, G-Tube in
   place with no erythema/induration
   Exte: No edema, DP 2+ bil
   NEURO: Alert, difficult to assess orientation due to poor voice. MAE
   Labs / Radiology
   203 K/uL
   7.5 g/dL
   149 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   23.7 %
   5.8 K/uL
        [image002.jpg] Ca 8.6, Mg 2.0, P 3.7; PT/PTT/INR: 13.3/32.4/1.1
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
   WBC
   5.7
   7.3
   8.0
   8.7
   5.5
   5.7
   5.8
   Hct
   30.0
   26.9
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   Plt
   356
   346
   316
   271
   249
   231
   203
   Cr
   0.7
   0.7
   0.7
   0.7
   0.5
   0.4
   0.5
   Glucose
   129
   123
   114
   112
   122
   145
   137
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture with resolving
   respiratory failure and HAP s/p trach with complicating TBM and s/p
   PEG.
   .
   # Respiratory:  s/p intubation/extubation, now on trach mask, FiO2 50%.
   Tolerating well with good O2 sat in mid-high 90
s. Pt continues to be
   at risk for aspiration given new IP finding of opening defect in
   posterior vocal cord space and given recent history of vomiting with
   tube feed trials.
   - Appreciate ENT and S&S input.
   - will follow ENT recs; awaiting input for possible intervention.
   -  ppi [**Hospital1 **] for aspiration prophylaxis, PMV precautions: [**Male First Name (un) **]
t use w/o
   supervision, frequent suctioning
   - TM as tolerated.
   - continue scopolamine patch q72hrs for secretions
   - Holding sedation with exception of Risperidal 0.5mg [**Hospital1 **] PRN
   - F/u CXR tomorrow
   # Sedation/Anxiolysis/AlteredMS: Resolved O/N with risperdal. Previous
   delirium and agitation most likely secondary to long hospital course
   and multiple psychotropic medications as well as hx of EtOH abuse.
   -  started Risperdal 0.5mg PO BID PRN.
   -  continue to hold all benzos. opiates, and antihistamines
   -  Appreciate psych. Will call and f/u psych recs.
   -Obtain EKG to assess for QTc prolongation.
   #Anemia: HCT low compared to b/l at 23.7. No known etiology of blood
   loss.
   -Will continue to follow HCT daily.
   - Guaiac stools.
   -f/u HCT this afternoon
   -T&S
   # Atrial Tachycardia: Improved HR max of 120
s versus 160s previously.
   Pt now on PO Amiodarone 200 TID and PO metoprolol 37.5mg TID
   - Will continue amiodarone 200 TID for three weeks and then switch to
   qday for 1week and then d/c amiodarone.
   - Will need to schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   # Hypernatremia/Fluid Status: Mild hypernatramia resolving with free
   water administration. On TPN/TF. Good UOP.
   - providing D5W IVFx 1L at 150cc/hr, free water flushes with TF
   -Will f/u lytes in afternoon (5pm)
   # UE DVT and h/o labile INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **].  INR at 1.9
   -          Will flush L PICC with TPA if does not flush
   -          Daily coags
   .
   # Spine fracture: Stable. T5-T8.
   - Brace for OOB, need to discuss with Neurosurgery before d/c if
   current brace is optimal for stabilization given her mobility.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**Month (only) 1780**].
   .
   # Tracheomalacia.  Reevaluation bronchoscopy by IP as written above;
   patient not a candidate for stent; pt to follow up as outpatient. No
   new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # FEN:  Currently receiving TPN, restarted TF yest, currently at
   20cc/hr, w/o issue.
   - Appreciate GI input and S&S eval
   -Cont Reglan 20mg IV Q 8 hours for emesis precaution; meds via G-J
   tube,
   -D/w GI; rec: continue bowel regimen if no BM
   .
   # ACCESS: PIV x 1, L PICC
   # Ppx: Lovenox, PPi [**Hospital1 **], Bowel Regimen PRN
   # Communication:
   -   [**First Name8 (NamePattern2) 509**] [**Known lastname 510**] [**Telephone/Fax (1) 511**] (brother) is primary contact
   -   Boyfriend of 10 [**Name2 (NI) 579**], but minimal contact has been maintained at
   this point
   -  Social Work and Case management involved; have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Will d/w case management re rehab facilities, likely d/c
   tomorrow if insurance/bed confirmed
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   PGY2 addendum:  [**First Name8 (NamePattern2) 189**] [**Last Name (NamePattern1) 1797**], [**Pager number 1798**]
   Agree with assessment and plan in excellent MSIV note as detailed
   above.  Briefly, 56 F s/p fall with T spine fracture (T5-T8),
   respiratory failure now s/p trach/PEG.  Now on trach mask.  Patient s/p
   bronch with IP yesterday.  Nutrition issues continue; have discontinued
   TPN today and will continue tubefeeding to goal of 60cc/hr per
   Nutrition.  Will continue reglan until at goal feedings, and decrease
   and d/c as able given potential for delirium.  Appreciate psych recs;
   continuing risperidone for agitation. Etiology of delirium/agitation
   still unclear but likely [**2-14**] prolonged hospital course, illness and
   multiple medications.  Currently discussing with CM about potential
   placement to rehab tomorrow.

2167-10-28 12:33:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-10-27**] 09:43 AM
   More wake.
   Less aggitated today.
   Up in chair with back brace this afternoon.
   Requiring more frequent suctioning, now every 1-2 hrs.  Sputum thin,
   slight yellow color.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-27**] 08:05 PM
   Enoxaparin (Lovenox) - [**2167-10-28**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-10-28**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 71 (70 - 122) bpm
   BP: 122/84(94) {115/48(66) - 167/87(98)} mmHg
   RR: 10 (10 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,692 mL
                                                                  1,980 mL
   PO:
             TF:
                                                                    116 mL
                                                                    244 mL
   IVF:
                                                                  2,175 mL
                                                                    832 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                  1,180 mL
   Urine:
                                                                  3,790 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                    800 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   203 K/uL
   149 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   23.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2167-10-21**]  03:20 PM
                             [**2167-10-22**]  03:23 AM
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
   WBC
   5.7
   7.3
   8.0
   8.7
   5.5
   5.7
   5.8
   Hct
   30.0
   26.9
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   Plt
   356
   346
   316
   271
   249
   231
   203
   Cr
   0.7
   0.7
   0.7
   0.7
   0.5
   0.4
   0.5
   0.5
   Glucose
   129
   123
   114
   112
   122
   145
   137
   149
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   Delerium.
   RESPIRATORY FAILURE -- chronic, persistent.  Tracheotomy tube in place,
   with tach collar/mask.  Use Passe-Muir valve as tolerated.
   INCREASED SPUTUM production -- concern for evolving LLL pneumonia.
   Monitor closely.  COntinue frequent suctioning.
   T-SPINE Fx -- Back brace.  Up in chair as tolerated.  Ortho to F/U.
   TRACHEOBRONCHOMALAcIA -- no immediate plans for intervention at this
   time.
   VOCAL CORD DYSFUNCTION -- poor adduction of posterior portions of vocal
   cords --> ENT to further assess.
   NUTRITIONAL SUPPORT -- TF via PEG at low rate.  ALso receiving TPN.
   DELERIUM -- likely due to medications and ICU.  Possible contribution
   of EtOH withdraw/DT.   Improved on Respiradol.
   DVT
 continue lovenox
   REHABILITATION evaluation for transfer.
   ICU Care
   Nutrition:
   Replete with Fiber ([**1-14**]) - [**2167-10-27**] 06:00 PM 20 mL/hour
   TPN w/ Lipids - [**2167-10-27**] 06:02 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2167-10-29 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tube Feed goals increased from 30cc to 60cc/hr. No issues O/N with
   regard to vomiting.
   Calm overnight. Risperdal decreased from 0.5mg to 0.25mg qam.
   [**3-17**] runs of asymptomatic SVT peaking in 110-120
s, metoprolol 37.5mg
   changed from TID
QID and first daily dose given early after runs;
   decrease of HR to 80
   Loose, brown, malodorous stools O/N, afebrile, C.dif cx sent.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2167-10-28**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-29**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 114 (61 - 122) bpm
   BP: 119/54(75) {91/36(50) - 167/84(101)} mmHg
   RR: 19 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,952 mL
                                                                    429 mL
   PO:
             TF:
                                                                    646 mL
                                                                    376 mL
   IVF:
                                                                    950 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    470 mL
   Urine:
                                                                  2,430 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   Gen: Alert, NAD, lying in bed, comfortable, mouthing words, less
   sedated than yest.
   HEENT: No pallor in conjunctiva, MMM, TM in place
   Resp: Transmitted upper airway sounds/coarse breath sounds.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds, G-Tube in
   place with no erythema/induration
   Exte: No edema, DP 2+ bil
   NEURO: Alert, difficult to assess orientation due to poor voice
   although pt oriented to year not place. MAE
   Labs / Radiology
   187 K/uL
   7.2 g/dL
   105 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.8 mEq/L
   17 mg/dL
   108 mEq/L
   147 mEq/L
   23.7 %
   5.1 K/uL
        [image002.jpg]
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
                            [**2167-10-28**]  06:05 PM
                            [**2167-10-29**]  03:23 AM
   WBC
   7.3
   8.0
   8.7
   5.5
   5.7
   5.8
   5.1
   Hct
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   24.7
   23.7
   Plt
   346
   316
   271
   249
   231
   203
   187
   Cr
   0.7
   0.7
   0.7
   0.5
   0.4
   0.5
   0.5
   0.5
   Glucose
   123
   114
   112
   122
   145
   137
   149
   105
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture transferred
   from OSH to [**Hospital1 **] for TBM eval with hospitalization complicated by
   respiratory failure and HAP, s/p trach/PEG, atrial tachycardia, ileus,
   and delirium/agitation.
   .
   # Respiratory:  s/p intubation/extubation, now on trach mask, FiO2 50%.
   Tolerating well with good O2 sat in mid-high 90
s. Pt continues to be
   at risk for aspiration given recent history of vomiting with tube feed
   trials and increased secretions. ENT believes that the posterior gap is
   not a risk factor for aspiration as this is a common finding in females
   and that her increased secretions and edema pose a greater aspiration
   threat; no intervention was recommended.
   - Appreciate ENT and S&S input.
   - ENT recs to f/u in 2wks with Dr. [**Last Name (STitle) 1779**] ([**Telephone/Fax (1) 1820**]) for an
   outpatient/clinic re-evaluation.
   - ppi [**Hospital1 **] for aspiration prophylaxis, PMV precautions: [**Male First Name (un) **]
t use w/o
   supervision, frequent suctioning
   - TM as tolerated.
   - d/c
ed scopolamine as it was a cause for delirium.
   - Holding sedation with exception of Risperidal 0.25mg qam PRN
   # Delirium/Anxiolysis/AlteredMS: Resolving although pt continues to be
   slightly agitated. Previous delirium and agitation most likely
   secondary to long hospital course and multiple psychotropic medications
   as well as hx of EtOH abuse.
   -  Risperdal 0.25mg PO qam.
   -  continue to hold all benzos. opiates, and antihistamines. Will
   decrease or d/c raglan and scopolamine.
   -  Appreciate psych. Will call and f/u psych recs.
   -Follow EKG to assess for QTc prolongation (last EKG [**10-27**]; QTc 457).
   #Loose Stools: Multiple, loose stools O/N; afebrile, tachycardia,
   without abdominal pain
   -F/u stool c.dif cultures
   -f/u WBC and vital signs daily
   -Hold bowel regimen
   # Atrial Tachycardia: Compared to recent b/l, HR increased to max of
   120
s. Pt now on PO Amiodarone 200 TID and PO increased metoprolol
   37.5mg QID.
   - Will continue amiodarone 200 TID for three weeks and then switch to
   qday for 1week and then d/c amiodarone.
   - Will need to schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   #Anemia: HCT low compared to b/l. No known etiology of blood loss.
   -Will continue to follow HCT daily.
   - Guaiac stools.
   # Hypernatremia/Fluid Status: Mild hypernatramia resolving with free
   water administration. On TPN/TF. Good UOP. Free water deficit of 2.8L
   - increase D5W IVFx 1L from 10cc/hr to 150cc/hr, free water flushes
   with TF
   -Will f/u lytes in afternoon (5pm)
   # UE DVT and h/o labile INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **].  INR at 1.1
   -          Will flush L PICC with TPA if does not flush
   -          Daily coags
   .
   # Spine fracture: Stable. T5-T8.
   - Brace for OOB.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**Month (only) 1780**].
   .
   # Tracheomalacia.  Reevaluation bronchoscopy by IP as written above;
   patient not a candidate for stent; pt to follow up as outpatient. No
   new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # FEN:  Currently receiving TF at 50cc/hr, w/o issue.
   - Appreciate GI input and S&S eval
   -D/c Reglan for emesis precaution as pt is tolerating TF without
   vomiting and Reglan increases agitation/delirium risk.
   -meds via G-J tube,
   .
   # ACCESS: PIV x 1, L PICC
   # Ppx: Lovenox, PPi [**Hospital1 **], Bowel Regimen PRN
   # Communication:
   -   [**First Name8 (NamePattern2) 509**] [**Known lastname 510**] [**Telephone/Fax (1) 511**] (brother) is primary contact
   -   Boyfriend of 10 [**Name2 (NI) 579**], but minimal contact has been maintained at
   this point
   -  Social Work and Case management involved; have discussed situation
   w/ brother and boyfriend.
   # Code: Full
   # Dispo: ICU, Will d/w case management re rehab facilities, likely d/c
   today/tomorrow if insurance/bed confirmed
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   PGY2 addendum:  [**First Name8 (NamePattern2) 189**] [**Last Name (NamePattern1) 1797**], [**Pager number 1798**]
   Agree with assessment and plan in excellent MSIV note as detailed
   above.  Briefly, 56 F s/p fall with T spine fracture (T5-T8),
   respiratory failure now s/p trach/PEG.  Now on trach mask.  Patient s/p
   bronch with IP yesterday.  Nutrition issues continue; have discontinued
   TPN today and will continue tubefeeding to goal of 60cc/hr per
   Nutrition.  Will continue reglan until at goal feedings, and decrease
   and d/c as able given potential for delirium.  Appreciate psych recs;
   continuing risperidone for agitation. Etiology of delirium/agitation
   still unclear but likely [**2-14**] prolonged hospital course, illness and
   multiple medications.  Currently discussing with CM about potential
   placement to rehab tomorrow.

2167-10-29 11:42:00 Physician Attending Progress Note
Chief Complaint: Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with delerium.
   Experienced episode of SVT --> responded to extra iv dose metoprolol.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-10-29**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 78 (61 - 115) bpm
   BP: 108/48(60) {91/36(50) - 156/79(101)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,952 mL
                                                                    760 mL
   PO:
             TF:
                                                                    646 mL
                                                                    685 mL
   IVF:
                                                                    950 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    610 mL
   Urine:
                                                                  2,430 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                    150 mL
   Respiratory support
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   187 K/uL
   105 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.8 mEq/L
   17 mg/dL
   108 mEq/L
   147 mEq/L
   23.7 %
   5.1 K/uL
        [image002.jpg]
                            [**2167-10-23**]  03:00 AM
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
                            [**2167-10-28**]  06:05 PM
                            [**2167-10-29**]  03:23 AM
   WBC
   7.3
   8.0
   8.7
   5.5
   5.7
   5.8
   5.1
   Hct
   27.3
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   24.7
   23.7
   Plt
   346
   316
   271
   249
   231
   203
   187
   Cr
   0.7
   0.7
   0.7
   0.5
   0.4
   0.5
   0.5
   0.5
   Glucose
   123
   114
   112
   122
   145
   137
   149
   105
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   T-spine fracture, delerium.
   DELERIUM -- persistent.  Etiology may be related to prior EtOH use,
   contribution of medications.  Intermittently oriented.  Continue
   respiradol.   Avoid medications that have psych complications or side
   effects.
   RESPIRATORY FAILURE -- s/p trach.  Maintain trach for pulmonary
   toilet/frequent suctioning.
   TACHYCARDIA -- SVT.  Continue amiodarone loading schedule.  Continue
   beta-blocker, with extra doses prn if needed.
   NUTRITIONAL SUPPORT -- TF via PEJ approaching goal.
   T-SPINE FRACTURE -- s/p fall.  Tolerating back brace as per ortho
   service.  Activity as tolerated (up in chair).
   ASPIRATION RISK -- poor adduction of vocal cords (post. portion).
   Eventually may require intervention.
   TRANCHEOBRONCHOMALACIA -- no interventions planned at present.
   ICU Care
   Nutrition:
   Replete with Fiber ([**1-14**]) - [**2167-10-28**] 09:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2167-10-30 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -  ENT team believes that vocal cord adductor dysfunction is NOT a risk
   for aspiration, rather her increased secretions put her at risk for
   aspiration.  They will follow-up in clinic in two weeks with Dr.
   [**Last Name (STitle) 1841**], [**First Name3 (LF) 124**] call in am to schedule appt.
   -          Psych recs: consider head CT if patient does not improve off
   scopolamine and metoclopramide; address anemia and
erratic BP
   consider increasing am dose of risperdal; monitor [**Name (NI) 818**]
   -     Pt continued to be agitated O/N (eg: pulled rectal tubex2 and
   foleyx1, disoriented). To receive head CT this AM
   -HCT at 22.8 down 1pt with b/l in high 20
   -Suctioned thick green mucus from mouth (not trach) this am, TF held.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-30**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 77 (66 - 114) bpm
   BP: 128/40(60) {90/37(31) - 164/75(87)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,726 mL
                                                                    595 mL
   PO:
             TF:
                                                                  1,388 mL
                                                                    301 mL
   IVF:
                                                                    249 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,666 mL
                                                                    222 mL
   Urine:
                                                                    836 mL
                                                                    222 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Gen: NAD, lying in bed, comfortable, PMV on, able to vocalize. HEENT:
   No pallor in conjunctiva, MMM, TM in place
   Resp: Transmitted upper airway sounds/coarse breath sounds, improved
   compared to yesterday.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds, G-Tube in
   place with no s/s of infection
   Exte: No edema, DP 2+ bil
   NEURO: AxO to year (not to place or day-thinks it is
the day before
   [**Holiday 1864**]
), MAE
   Labs / Radiology
   183 K/uL
   7.1 g/dL
   115 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   13 mg/dL
   106 mEq/L
   145 mEq/L
   22.8 %
   5.4 K/uL
        [image002.jpg]
   C.dif negative x1; Cdif#2 pending. BCx and Urine Cx No Growth.
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
                            [**2167-10-28**]  06:05 PM
                            [**2167-10-29**]  03:23 AM
                            [**2167-10-30**]  02:54 AM
   WBC
   8.0
   8.7
   5.5
   5.7
   5.8
   5.1
   5.4
   Hct
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   24.7
   23.7
   22.8
   Plt
   [**Telephone/Fax (2) 1842**]
   183
   Cr
   0.7
   0.7
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   114
   112
   122
   145
   137
   149
   105
   115
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture transferred
   from OSH to [**Hospital1 **] for TBM eval with hospitalization complicated by
   respiratory failure and HAP, s/p trach/PEG, atrial tachycardia, ileus,
   and delirium/agitation.
   .
   # Delirium: Pt continues to be agitated with paranoia, disorientation
   and hallucinations. Most likely secondary to long hospital course and
   recent multiple psychotropic medications. Other lab values (lytes, past
   LFTs within normal limits), infections processes negative on culture.
   CT of head at OSH negative. d/c
ed Reglan and scopolamine.
   - Appreciate psych. Will call and f/u psych recs.
   -Consider CT of head with contrast if mental status does not improve
   this am.
   -  Risperdal 0.25mg PO qam. Consider increasing per psych recs to 0.5mg
   if continues to be agitated. Will d/w psych re any additional meds we
   could use for night time agitation.
   -  continue to hold all benzos. opiates, and antihistamines.
   -Follow EKG to assess for [**Hospital1 818**] prolongation (last EKG [**10-27**]; [**Month/Year (2) 818**] 457).
   #Anemia: HCT continues to decrease, currently at 22.8 from 23.7 with
   b/l in high 20
s. No known etiology of blood loss.
   -Will continue to follow HCT
   - Guaiac stools.
   # Respiratory:  s/p trach on trach mask, FiO2 50%. Tolerating well with
   good O2 sat in mid-high 90
s. Pt continues to be at risk for aspiration
   given recent history of vomiting with tube feed trials and increased
   secretions. ENT believes that the posterior gap is not a risk factor
   for aspiration as this is a common finding in females and that her
   increased secretions and edema pose a greater aspiration threat; no
   intervention was recommended.
   - Appreciate ENT and S&S input.
   - Pt to f/u on [**11-10**]^th  at 3:30pm with Dr. [**Last Name (STitle) 1779**]
   ([**Telephone/Fax (1) 1820**]) for an outpatient/clinic re-evaluation.
   - ppi [**Hospital1 **] for aspiration prophylaxis, PMV precautions: [**Male First Name (un) **]
t use w/o
   supervision, frequent suctioning
   - TM as tolerated.
   - Holding sedation with exception of Risperidal 0.25mg PO qam
   #Loose Stools: rectal tube pulled out x2; afebrile, HD stable, without
   abdominal pain. Stool cdif cx negativex1.
   -F/u stool c.dif cultures
   -f/u WBC and vital signs daily
   -Hold bowel regimen
   # Atrial Tachycardia: Stable without issue O/N. Pt now on PO Amiodarone
   200 TID and PO metoprolol 50mg TID
   - Will continue amiodarone 200 TID for three weeks (start [**10-22**]) and
   then switch to qday for 1week and then d/c amiodarone.
   - Will need to schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   # Hypernatremia/Fluid Status:  resolving after free water
   administration. On TPN/TF. Free water deficit of 1.6L
   - increase NS at 10cc/hr, water flushes with TF
   -Will f/u lytes [**Doctor First Name 600**]
   # UE DVT and h/o labile INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **].  INR at 1.1
   -          Will flush L PICC with TPA if does not flush
   -          Daily coags
   .
   # Spine fracture: Stable. T5-T8.
   - Brace for OOB.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**Month (only) 1780**].
   .
   # Tracheomalacia.  Reevaluation bronchoscopy by IP as written above;
   patient not a candidate for stent; pt to follow up as outpatient. No
   new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # FEN:  Currently TF held secondary to possible risk of aspiration O/N;
   will increase TF back slowly to max goal.
   - Appreciate GI input and S&S eval
   -D/c
ed Reglan for emesis precaution as pt is tolerating TF without
   vomiting and Reglan increases agitation/delirium risk.
   -meds via G-J tube
   .
   # ACCESS: L PICC
   # Ppx: Lovenox, PPi [**Hospital1 **], Bowel Regimen PRN currently held
   # Communication:
   -   [**First Name8 (NamePattern2) 509**] [**Known lastname 510**] [**Telephone/Fax (1) 511**] (brother) is primary contact; visiting
   patient today and aware of status and disposition
   -   Boyfriend of 10 [**Name2 (NI) 579**], but minimal contact has been maintained at
   this point
   -  Social Work and Case management involved
   # Code: Full
   # Dispo: ICU, Will currently has bed at [**Hospital1 1865**] Rehab and waiting
   insurance approval before transfer of care.
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-10-30 12:02:00 Physician Attending Progress Note
Chief Complaint: Delerium, respiratory failure (chronic)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2167-10-30**] 06:33 AM
   Remains delerious, confused.  Remains somewhat paranoid, but able to
   reorient.  Much less agitated.
   Up in chair with brace.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-29**] 08:00 PM
   Enoxaparin (Lovenox) - [**2167-10-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-10-30**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 70 (66 - 112) bpm
   BP: 96/52(61) {90/37(31) - 164/75(87)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,726 mL
                                                                    901 mL
   PO:
             TF:
                                                                  1,388 mL
                                                                    301 mL
   IVF:
                                                                    249 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  1,666 mL
                                                                    282 mL
   Urine:
                                                                    836 mL
                                                                    282 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   183 K/uL
   115 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   13 mg/dL
   106 mEq/L
   145 mEq/L
   22.8 %
   5.4 K/uL
        [image002.jpg]
                            [**2167-10-24**]  04:00 AM
                            [**2167-10-25**]  05:45 AM
                            [**2167-10-26**]  03:51 AM
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
                            [**2167-10-28**]  06:05 PM
                            [**2167-10-29**]  03:23 AM
                            [**2167-10-30**]  02:54 AM
   WBC
   8.0
   8.7
   5.5
   5.7
   5.8
   5.1
   5.4
   Hct
   27.0
   28.7
   24.7
   25.2
   25.3
   23.7
   24.7
   23.7
   22.8
   Plt
   [**Telephone/Fax (3) 1842**]
   183
   Cr
   0.7
   0.7
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   114
   112
   122
   145
   137
   149
   105
   115
   Other labs: PT / PTT / INR:13.3/32.4/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Delerium.
   DELERIUM -- likely multifactorial.  EtOH withdrawl-related,
   medications, ICU psychosis.
   RESPIRATORY FUNCTION -- stable with trach.  Remains on trach collar.
   T-SPINE Fx
 will likely need new fitted brace (as pt. experienced much
   weight loss since admission).  Continue PT rehab.
   TRACHEOBRONCHOMALACIA
 no further immediate plans.  Will need F/U with
   IP service in future.
   VOCAL CORD DYSFUNCTION -- adduction problem.  [**Name (NI) **] need ENT f/u in
   future.
   NUTRITIONAL SUPPORT -- TF via PEG
   FLUIDS -- euvolemic.  Monitor I/O.
   REHABILITATION placement in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2167-10-31 04:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Going to rehab 10am on Saturday
   DC summary up to date
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2167-10-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-31**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 72 (66 - 88) bpm
   BP: 104/63(70) {78/34(48) - 186/71(98)} mmHg
   RR: 25 (15 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,197 mL
                                                                    380 mL
   PO:
             TF:
                                                                    301 mL
                                                                    285 mL
   IVF:
                                                                    577 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    867 mL
                                                                    245 mL
   Urine:
                                                                    867 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                    135 mL
   Respiratory support
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   Gen: NAD, lying in bed, comfortable, PMV on, able to vocalize. HEENT:
   No pallor in conjunctiva, MMM, TM in place
   Resp: Transmitted upper airway sounds/coarse breath sounds, improved
   compared to yesterday.
   Card: S1S2 tachycardic, no m/r/g
   Abd: Obese, soft, mildly distended, decreased bowel sounds, G-Tube in
   place with no s/s of infection
   Exte: No edema, DP 2+ bil
   NEURO: AxO to year (not to place or day-thinks it is
the day before
   [**Holiday 1864**]
), MAE
   Labs / Radiology
   197 K/uL
   7.1 g/dL
   117
   0.6 mg/dL
   36 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   146 mEq/L
   22.7 %
   4.9 K/uL
        [image002.jpg]
                            [**2167-10-26**]  04:45 PM
                            [**2167-10-27**]  04:00 AM
                            [**2167-10-27**]  07:37 PM
                            [**2167-10-28**]  04:05 AM
                            [**2167-10-28**]  06:05 PM
                            [**2167-10-29**]  03:23 AM
                            [**2167-10-30**]  02:54 AM
                            [**2167-10-30**]  04:14 PM
                            [**2167-10-30**]  10:00 PM
                            [**2167-10-31**]  03:46 AM
   WBC
   5.7
   5.8
   5.1
   5.4
   5.2
   4.9
   Hct
   25.2
   25.3
   23.7
   24.7
   23.7
   22.8
   24.0
   22.7
   Plt
   [**Telephone/Fax (3) 1910**]83
   185
   197
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   145
   137
   149
   105
   115
   95
   117
   Other labs: PT / PTT / INR:13.2/23.9/1.1, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:25/19, Alk Phos / T Bili:106/0.2,
   Amylase / Lipase:[**10-22**], Differential-Neuts:83.4 %, Lymph:10.4 %,
   Mono:2.8 %, Eos:3.0 %, Fibrinogen:710 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   56yoF s/p mechanical fall and traumatic T spine fracture transferred
   from OSH to [**Hospital1 **] for TBM eval with hospitalization complicated by
   respiratory failure and HAP, s/p trach/PEG, atrial tachycardia, ileus,
   and delirium/agitation.
   .
   # Delirium: Pt continues to be agitated with paranoia, disorientation
   and hallucinations. Most likely secondary to long hospital course and
   recent multiple psychotropic medications. Other lab values (lytes, past
   LFTs within normal limits), infections processes negative on culture.
   CT of head at OSH negative. d/c
ed Reglan and scopolamine.
   - Appreciate psych. Will call and f/u psych recs.
   -Consider CT of head with contrast if mental status does not improve
   this am.
   -  Risperdal 0.25mg PO qam. Consider increasing per psych recs to 0.5mg
   if continues to be agitated. Will d/w psych re any additional meds we
   could use for night time agitation.
   -  continue to hold all benzos. opiates, and antihistamines.
   -Follow EKG to assess for QTc prolongation (last EKG [**10-27**]; QTc 457).
   #Anemia: HCT continues to decrease, currently at 22.8 from 23.7 with
   b/l in high 20
s. No known etiology of blood loss.
   -Will continue to follow HCT
   - Guaiac stools.
   # Respiratory:  s/p trach on trach mask, FiO2 50%. Tolerating well with
   good O2 sat in mid-high 90
s. Pt continues to be at risk for aspiration
   given recent history of vomiting with tube feed trials and increased
   secretions. ENT believes that the posterior gap is not a risk factor
   for aspiration as this is a common finding in females and that her
   increased secretions and edema pose a greater aspiration threat; no
   intervention was recommended.
   - Appreciate ENT and S&S input.
   - Pt to f/u on [**11-10**]^th  at 3:30pm with Dr. [**Last Name (STitle) 1779**]
   ([**Telephone/Fax (1) 1820**]) for an outpatient/clinic re-evaluation.
   - ppi [**Hospital1 **] for aspiration prophylaxis, PMV precautions: [**Male First Name (un) **]
t use w/o
   supervision, frequent suctioning
   - TM as tolerated.
   - Holding sedation with exception of Risperidal 0.25mg PO qam
   #Loose Stools: rectal tube pulled out x2; afebrile, HD stable, without
   abdominal pain. Stool cdif cx negativex1.
   -F/u stool c.dif cultures
   -f/u WBC and vital signs daily
   -Hold bowel regimen
   # Atrial Tachycardia: Stable without issue O/N. Pt now on PO Amiodarone
   200 TID and PO metoprolol 50mg TID
   - Will continue amiodarone 200 TID for three weeks (start [**10-22**]) and
   then switch to qday for 1week and then d/c amiodarone.
   - Will need to schedule f/u in 4wks with Dr. [**Last Name (STitle) 1724**] upon d/c/transfer.
   # Hypernatremia/Fluid Status:  resolving after free water
   administration. On TPN/TF. Free water deficit of 1.6L
   - increase NS at 10cc/hr, water flushes with TF
   -Will f/u lytes [**Doctor First Name 600**]
   # UE DVT and h/o labile INR: Decision made to d/c Coumadin given her
   labile INR, and start Lovenox [**Hospital1 **].  INR at 1.1
   -          Will flush L PICC with TPA if does not flush
   -          Daily coags
   .
   # Spine fracture: Stable. T5-T8.
   - Brace for OOB.
   - Pt to follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1252**] in [**Month (only) 1780**].
   .
   # Tracheomalacia.  Reevaluation bronchoscopy by IP as written above;
   patient not a candidate for stent; pt to follow up as outpatient. No
   new issues.
   .
   #. Thyroid Nodule on CT
   - Outpatient follow up
   .
   # Glycemic control: SSI, well controlled
   # FEN:  Currently TF held secondary to possible risk of aspiration O/N;
   will increase TF back slowly to max goal.
   - Appreciate GI input and S&S eval
   -D/c
ed Reglan for emesis precaution as pt is tolerating TF without
   vomiting and Reglan increases agitation/delirium risk.
   -meds via G-J tube
   .
   # ACCESS: L PICC
   # Ppx: Lovenox, PPi [**Hospital1 **], Bowel Regimen PRN currently held
   # Communication:
   -   [**First Name8 (NamePattern2) 509**] [**Known lastname 510**] [**Telephone/Fax (1) 511**] (brother) is primary contact; visiting
   patient today and aware of status and disposition
   -   Boyfriend of 10 [**Name2 (NI) 579**], but minimal contact has been maintained at
   this point
   -  Social Work and Case management involved
   # Code: Full
   # Dispo: ICU, Will currently has bed at [**Hospital1 1865**] Rehab and waiting
   insurance approval before transfer of care.
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2167-10-31**] 12:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-23**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: